2130-01-30 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-1-29**] 05:00 PM
 EKG - At [**2130-1-29**] 05:00 PM
 URINE CULTURE - At [**2130-1-29**] 05:30 PM
 SPUTUM CULTURE - At [**2130-1-29**] 06:00 PM
 ARTERIAL LINE - START [**2130-1-29**] 06:00 PM
 BLOOD CULTURED - At [**2130-1-29**] 06:45 PM
   Pt opens eyes but is not responding to commands.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2130-1-29**] 08:21 PM
   Metronidazole - [**2130-1-30**] 01:00 AM
   Vancomycin - [**2130-1-30**] 04:03 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-1-30**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 91 (91 - 111) bpm
   BP: 106/55(70) {80/36(48) - 138/61(85)} mmHg
   RR: 25 (20 - 29) insp/min
   SpO2: 95%
   Height: 56 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                 25,968 mL
                                                                    723 mL
   PO:
   TF:
   IVF:
                                                                  2,671 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                      3 mL
                                                                     15 mL
   Urine:
                                                                      3 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 25,965 mL
                                                                    708 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/41/76.[**Numeric Identifier 128**]/25/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   11.1 g/dL
   135 mg/dL
   2.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   24 mg/dL
   103 mEq/L
   141 mEq/L
   35.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2130-1-29**]  05:02 PM
                             [**2130-1-29**]  07:43 PM
                             [**2130-1-29**]  10:45 PM
                             [**2130-1-30**]  01:37 AM
                             [**2130-1-30**]  05:45 AM
                             [**2130-1-30**]  06:06 AM
   WBC
   8.3
   14.9
   Hct
   33.4
   35.7
   Plt
   105
   120
   Cr
   2.1
   2.1
   TropT
   0.36
   TCO2
   29
   28
   27
   26
   Glucose
   166
   135
   Other labs: PT / PTT / INR:14.8/49.7/1.3, CK / CKMB /
   Troponin-T:16/4/0.36, ALT / AST:61/71, Alk Phos / T Bili:903/0.6,
   Amylase / Lipase:19/7, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:586 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:847 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR Pending this am
   Microbiology: Blood Cx pending
   Urine Cx pending
   Mycolytic bottle pending
   Assessment and Plan
   79F h/o asthma, diastolic CHF, [**Hospital 1483**] transferred from OSH after
   admission for pna c/b hypoxic respiratory failure, afib with rvr, ARF
   requiring HD, pulmonary edema.
   # hypotension - likely multifactorial, feel most likely sepsis given
   ongoing fevers, probable pulmonary source ie. VAP, ddx also includes
   adrenal insuficiency given recent steroid dosing vs cardiogenic shock
   (+trop, but CK flat, EKG without ischemic changes) vs hypovolemic shock
   (though volume up, hct stable, potential GI and pulmonary losses).
   - wean levaphed gtt as possible
   - transduce CVP, currently 15.
   - repeat cultures here, bcx, ucx, sputum (all pending)
   - f/u glucan/galactomannan
   - f/u OSH cultures for PCP, [**Name Initial (NameIs) **].
   - continue cefepime, iv vanco by level, flagyl tid given h/o cdiff.
   - hold off on fungal coverage for now pending repeat sputum sample.
   - hydrocortizone 100mg TID given prolonged steroid course
   - consider RUQ USN to eval for biliary source if tbil rising.
   - repeat TTE pending
   - TSH elevated, restarted synthroid home dose
   # hypoxia -  feel most likley CHF with underlying PNA, and ?bloody
   clots on bronch concerning for pulmonary-renal syndromes (per report,
   anca, [**Doctor First Name **] negative, no renal biopsy, no evidence of nephritic
   syndrome).  pt also with h/o asthma, admission CT CHEST from OSH showed
   bilateral lower lobe infiltrate, s/p multiple course of antibiotics,
   intubated [**1-15**] for hypoxic respiratory failure, s/p multiple bronch's
   showing [**Female First Name (un) 188**] and diffuse blood clots, most recently concerning for
   VAP in setting of prolonged intubation.  feel PE less likely given
   recently supratherapeutic INR, and multiple other reasons for hypoxia.
   presently.  negative LENIs at OSH on [**2129-12-31**].
   - abg improved on PEEP of 10 & FiO2 60%
   - continue nebs prn for reactive airways, avoid solumedrol as no
   wheezing currently.
   - plan for HD in AM to remove fluid, if tolerated by BPs (may need
   CVVHD).
   - continue broad spectrum abx for presumed VAP
   - f/u induced sputum cx with fungal and pcp cx here.
   - consider repeat bronch given ?history of bloody clots (?goodpastures,
   will need to f/u on OSH biopsy and CT scans).
   - frequent pulmonary suction/toilet.
   - plan to call gen surgery for trach/peg placement in AM, however pt's
   hcp would like to discuss with family.
   - f/u osh hsv culture from bronch (s/p course acyclovir).
   - non-contrast CT CHEST to evaluate parenchyma further and to help
   guide potential bronch in AM.
   .
   # GI - h/o GIB in [**2127**] per OSH records, hct down to 24 at OSH, no
   obvious source, though currently with ?coffee grounds from OGT, only on
   sucralfate at OSH.  etiology of elevated LFTs unclear, AP elevated,
   tbil wnl, this feel biliary process unlikely.
   - start PPI iv bid now.
   - continue sucralfate.
   - cycle HCT in AM.
   - t&s in place, has multiple access currently (TLC, PICC)
   - hold TF.
   - consider EGD in AM to evaluate for gastritis/ulcer.
   - trend LFTs.
   - fractionate AP to evaluate source.
   .
   ## ischemia: asa and plavix held in setting of pulmonary hemhorrage, pt
   is s/p MI [**2127**] with stent placement.
   - cycle HCT tommorow, if stable, would favor restarting asa first then
   plavix.
   - no evidence of ischemia on EKG, +trop likely [**12-24**] ARF.
   ## rythym: new afib during OSH admission in setting of pulmonary
   processes, rate relatively well controlled at present, 90-100s without
   medication, had been on diltiazem gtt at transfer, though d/c'd given
   ongoing hypotension.  now levo gtt likely contributing somewhat.
   - follow rate, reintroduce BB once tolerated by BPs given h/o CAD.
   - avoiding anticoagulation for now given pulmonary hemorhage.
   .
   ## pump: clinically grossly volume overloaded, EF=60-65% [**2130-1-2**],
   likely has some dCHF (rvsp 41mmhg).
   - plan for HD vs CVVH in AM.
   - reintroduce ace/[**Last Name (un) **] as tolerated by ARF.
   - repeat TTE in AM.
   .
   # ARF/CRI - currently in oliguric renal failure, requiring HD, etiology
   unclear, CRI s/p cardiac cath [**2127**] requiring HD, never returned to
   [**Location 848**], upon admission [**12-7**] (bl 1.6-1.8), creatinine ~1.7->2.8->1.3,
   then worsening steadily cause remains unclear (ddx "hemodynamic stress"
   (documented BPs 80/30s) vs AIN from multiple abx vs possible contrast
   (none documented) vs pulmonary-renal syndromes (no documented sediments
   on OSH records, renal usn shows no hydro).  currently making some
   urine.
   - on aranesp 150mcg q4wks, last dose [**2129-12-1**].
   - renal consult.
   - plan for HD [**1-30**], though may need CVVH if still on pressors.
   - repeat UA to check for active sediment (QNS first sample)
   - renally dose meds.
   - check urine eos.
   - continue [**Hospital1 **] neutraphos for low phos.
   #DM2 - was on NPH 20 QAM, 5U QPM, then increased to levamir 30U Q12H on
   [**12-9**] after started on decadron for reactive airways, most recently
   receiving 8U levamir QAM, with humalog SSI, with reasonably good FSBS
   recently (has had some hypoglycemic episodes).
   - will place on 8U glargine QAM, and cover with HISS, adjust as needed,
   will check FSBS q2hr for now given steroids.
   # HEME/ONC - anemia [**12-24**] CKD. plt droped from 280s to 20s per OSH notes,
   though felt likely [**12-24**] infection, currently 100s.  HITT negative at
   OSH.  feel more likley [**12-24**] infection vs medication.
   - check hemolysis and DIC labs, peripheral smear.
   - t&s in place.
   - guaic stools, follow pulmonary secretions.
   - holding asa/plavix for now.
   .
   # hypothyroid - not currently on home dose synthroid, unclear why not.
   - tsh 11 here, will add ft4, total t4.
   - restart home dose of synthroid (dose unclear, 1 note with 100mcg po
   qdaily -> will use 50mcg iv qdaily for now.
   # RA - no evidence of inflammatory joints presently, per family, not on
   any RA medications.
   .
   # gout - no evidence of joint involvement presently, per family, not on
   any gout medications, though single note from OSH mentions allopurinol.
   .
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-29**] 07:10 PM
   Dialysis Catheter - [**2130-1-29**] 07:10 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Code status: Full code
   Disposition: ICU

2130-01-30 10:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   History reviewed carefully with resident. No changes from admission
   note.
   Long admission at [**Hospital1 **], presented SOB, cough. Bronch
   revealed blood clots while on coumadin for HIT ab. Increasing O2
   requirements, question of CHF, diuresed. Tx with broad spectrum Abx.
   Rectus sheath hematoma with INR 3.8. Baseline renal insufficiency with
   acute on CRF. With increased diuresis, became oliguric and started on
   CVVH on [**1-15**]. + cdiff tx with course of flagyl. Was treated with
   steroids x ~ 4 weeks. C albicans grew from bronch- tx with
   voriconazole. Alk phos rise with no obvious source. Platelets
   decreased, question due to voriconazole. Day 20 intubation
   24 Hour Events:
   events noted:
 BLOOD CULTURED - At [**2130-1-29**] 05:00 PM
 EKG - At [**2130-1-29**] 05:00 PM
 URINE CULTURE - At [**2130-1-29**] 05:30 PM
 SPUTUM CULTURE - At [**2130-1-29**] 06:00 PM
 ARTERIAL LINE - START [**2130-1-29**] 06:00 PM
 BLOOD CULTURED - At [**2130-1-29**] 06:45 PM
 INVASIVE VENTILATION - START [**2130-1-29**] 06:51 PM
 PICC LINE - START [**2130-1-29**] 07:10 PM
 DIALYSIS CATHETER - START [**2130-1-29**] 07:10 PM
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2130-1-29**] 08:21 PM
   Metronidazole - [**2130-1-30**] 01:00 AM
   Vancomycin - [**2130-1-30**] 04:03 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: intubated
   Flowsheet Data as of  [**2130-1-30**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 93 (87 - 111) bpm
   BP: 117/59(78) {80/36(48) - 138/61(85)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 94%
   Wgt (current): 113.2 kg (admission): 113.3 kg
   Height: 56 Inch
   CVP: 0 (0 - 15)mmHg
   Total In:
                                                                 25,968 mL
                                                                    847 mL
   PO:
   TF:
   IVF:
                                                                  2,671 mL
                                                                    847 mL
   Blood products:
   Total out:
                                                                      3 mL
                                                                     48 mL
   Urine:
                                                                      3 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 25,965 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/41/76.[**Numeric Identifier 128**]/25/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (Murmur: No(t) Systolic, Diastolic), S1, S2 irreg
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 3+, Left: 3+, Anasarca, multiple sites of skin
   breakdown
   Musculoskeletal: Muscle wasting
   Skin:  Warm, multiple stage 1 and 2 decubitus ulcers
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   120 K/uL
   135 mg/dL
   2.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   24 mg/dL
   103 mEq/L
   141 mEq/L
   35.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2130-1-29**]  05:02 PM
                             [**2130-1-29**]  07:43 PM
                             [**2130-1-29**]  10:45 PM
                             [**2130-1-30**]  01:37 AM
                             [**2130-1-30**]  05:45 AM
                             [**2130-1-30**]  06:06 AM
   WBC
   8.3
   14.9
   Hct
   33.4
   35.7
   Plt
   105
   120
   Cr
   2.1
   2.1
   TropT
   0.36
   TCO2
   29
   28
   27
   26
   Glucose
   166
   135
   Other labs: PT / PTT / INR:14.8/49.7/1.3, CK / CKMB /
   Troponin-T:16/4/0.36, ALT / AST:61/71, Alk Phos / T Bili:903/0.6,
   Amylase / Lipase:19/7, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:586 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:847 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: TSH 11
   fT4 low -
   Microbiology: c diff + on [**1-8**]
    c albicans from BAL and sputum
   Assessment and Plan
   Long admission at [**Hospital1 **], 79F h/o asthma, dCHF, [**Hospital 1483**]
   transferred from OSH after admission for pna c/b hypoxic respiratory
   failure, afib with rvr, ARF requiring HD, pulmonary edema.
   Presented with SOB, cough. Bronch revealed blood clots while on
   coumadin for HIT ab. Increasing O2 requirements, question of CHF,
   diuresed. Tx with broad spectrum Abx. Rectus sheath hematoma with INR
   3.8. Baseline renal insufficiency with acute on CRF. With increased
   diuresis, became oliguric and started on CVVH on [**1-15**]. + cdiff tx with
   course of flagyl. Was treated with steroids x ~ 4 weeks. C albicans
   grew from bronch- tx with voriconazole. Alk phos rise with no obvious
   source. Platelets decreased, question due to voriconazole.
   1. Hypotension: agree this is multifactorial. Unclear if new septic
   process (line concerning, skin breakdown, ? new VAP, etc.) vs adrenal
   insufficiency (did not respond on [**Last Name (un) 45**] stim but seemed to respond to
   steroids). In setting of low albumin and 25 kg positive balance, very
   likely intravascular vol depletion d/t third spacing. Currently CVP up
   so unlikely. Also possible is [**Last Name (un) 499**] compartment syndrome - will
   transduce bladder pressure.
   F/u on cultures. Continue Vanc/Cef/Flagyl - reasonable to consult ID.
   2. Respiratory failure: volume overload and mental status are barriers
   to extubation. Will avoid sedation and wean as tolerated.
   3. Acute renal failure on HD - oliguric with volume overload, baseline
   creat was ~ 1.6
   4. Question of pulmonary hemorrhage - work up for vasculitis negative.
   5: ID: fever, leukocytosis with multiple possible sources. Dialysis
   catheter has purulent drainage and erythema at site (will need to be
   d/c'd), ? VAP, ulcers, etc. F/u cultures. On broad coverage.
   6. AFib -  on dilt drip
   7. Anemia with ? GI Bleed - f/u hct. Hx of GI bleed in [**2127**], coffee
   grounds in OGT. Hold tube feeds for now.
   8. Lines - will need to change dialysis catheter and PICC. Will send
   tips for culture.
   9. cardiac - no evidence of ischemia presently, agree that positive
   trop likely [**12-24**] ARF. Pt is s/p MI [**2127**] with stent placement. EF=60-65%
   [**2130-1-2**], likely has some dCHF (rvsp 41mmhg).
   10. DM2 - on glargine insulin and SS. Follow FS closely while on
   steroids
   11. Thrombocytopenia - resolving, question of voriconazole as cause, hx
   of HIT but no documented heparin at OSH
   12. hypothyroid - not currently on home dose synthroid, unclear why
   not. TSH 11 with low fT4. Levothyroxine IV restarted.
   13. Hx of RA, gout - no evidence of inflammatory joints presently, per
   family, not on any RA or gout medications.
   14. Skin breakdown - needs skin care
   15. Code: DNR
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-29**] 07:10 PM
   Dialysis Catheter - [**2130-1-29**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 60 minutes
   Patient is critically ill

2130-01-31 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-1-30**] 09:16 PM
 URINE CULTURE - At [**2130-1-30**] 09:16 PM
   -- PICC placed by IR yesterday, they forgot to send for culture
   -- Underwent HD last night, 2.4L taken off
   -- Following HD, RIJ removed and send for culture
   -- Seen by ID yesterday, d/c'd cefepine, started on
   linezolid/casofungin/meropenem and flagyl continued
   -- levophed weened
   -- Seen by endocrine: comfortable w/ current IV synthroid dose,
   concerned about sc insulin in setting of edema, recomened insulin gtt.
   Not ordered due to concern of fluid status.
   -- PEEP increased this am from 10 to 14 w/ PO2 of 61
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-1-30**] 04:03 AM
   Cefipime - [**2130-1-30**] 01:30 PM
   Meropenem - [**2130-1-30**] 03:00 PM
   Caspofungin - [**2130-1-30**] 05:00 PM
   Metronidazole - [**2130-1-31**] 12:00 AM
   Linezolid - [**2130-1-31**] 05:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-1-30**] 08:00 PM
   Midazolam (Versed) - [**2130-1-31**] 06:16 AM
   Other medications:
   Flowsheet Data as of  [**2130-1-31**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 109 (86 - 111) bpm
   BP: 132/64(87) {92/48(60) - 138/68(92)} mmHg
   RR: 30 (23 - 32) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113.2 kg (admission): 113.3 kg
   Height: 66 Inch
    CVP: 0 (0 - 10)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,627 mL
                                                                    467 mL
   PO:
   TF:
   IVF:
                                                                  2,027 mL
                                                                    467 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     10 mL
   Urine:
                                                                     40 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
                                                     -2.4L taken off at HD
   Balance:
                                                                   + 227mL
                                                                    457 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 5
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 25 cmH2O
   SpO2: 92%
   ABG: 7.41/34/61/23/-1
   Ve: 12.1 L/min
   PaO2 / FiO2: 102
   Now at PEEP of 16 and FiO2 of 70%
   Physical Examination
   GEN: intubated, sedated, anasarca
   CV: irreg/irreg no m/r/g
   RESP: end exp wheezes, [**Month (only) 38**] BS at bases
   ABD: [**Month (only) 38**] BS, NTTP, diffuse abd [**Last Name (un) **] edema
   EXTR: 3+ pitting edema all four extremities
   Labs / Radiology
   Non contrast head CT:
   FINDINGS:  No edema, masses, mass effect, or major vascular territorial
   infarction.  The ventricles and sulci are mildly prominent consistent w
   ith
   age-appropriate brain atrophy.  Diffuse periventricular hypodensity is
   consistent with small vessel disease. There is mucosal thickening of th
   e right
   maxillary sinus.  The mastoid air cells are clear.
   IMPRESSION:  No acute intracranial pathology including no hemorrhage.
   Chest/Abd/Pelv:
   MPRESSION:
   1.  Right rectus sheath hematoma.
   2.  Bilateral pleural effusions and pulmonary edema compatible with con
   gestive
   failure.  Atrophic left kidney.  Small amount of perihepatic and right
   paracolic ascites.  Fluid-filled colon may represent colitis.  Soft tis
   [**Doctor Last Name **]
   anasarca.
   3.  Endotracheal tube positioned at the carina, oriented towards the ri
   ght
   main stem bronchus.
   119 K/uL
   10.6 g/dL
   81 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   30 mg/dL
   101 mEq/L
   136 mEq/L
   32.2 %
   20.7 K/uL
        [image002.jpg]
                             [**2130-1-29**]  07:43 PM
                             [**2130-1-29**]  10:45 PM
                             [**2130-1-30**]  01:37 AM
                             [**2130-1-30**]  05:45 AM
                             [**2130-1-30**]  06:06 AM
                             [**2130-1-30**]  05:36 PM
                             [**2130-1-30**]  08:55 PM
                             [**2130-1-31**]  04:28 AM
                             [**2130-1-31**]  04:43 AM
                             [**2130-1-31**]  06:26 AM
   WBC
   14.9
   20.7
   Hct
   35.7
   32.2
   Plt
   120
   119
   Cr
   2.1
   2.3
   2.4
   TropT
   0.30
   TCO2
   29
   28
   27
   26
   24
   25
   22
   Glucose
   135
   130
   81
   Other labs: PT / PTT / INR:17.0/58.5/1.5, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:61/72, Alk Phos / T Bili:862/0.6,
   Amylase / Lipase:19/7, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:586 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:1110 IU/L, Ca++:6.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   LDH 1110, Alk Phos 862, Alt 61, AST 72, GGT 818
   2md Set  CKMB 4  Trop 0.3
   [**Doctor First Name 1205**] negative, ANCA negative
   Vanc level 33.7 from [**1-30**]
   Bladder pressure 18
   Blood Cx from [**1-29**]  + GPCs, [**Last Name (un) **] pending
   Urine Cx [**1-29**]  + GPCs >100,000
   Blood /Urine from [**1-30**] pending
   CMV pending
   Urine eos negative
   Assessment and Plan
   79F h/o with PMHx of diastolic CHF & CRI was transferred from OSH after
   prolonged adm for pna c/b hypoxic respiratory failure, and ARF
   requiring HD, massive volume overload.  Pt arrived with hypotension &
   fever.
   # Hypotension
 weaned off pressors, etiology most likely [**12-24**] sepsis
   with GPCs growing from blood & urine.  Pt with multiple infectious
   sources including VAP, skin ulcers & GI bleed, UTI, colitis, rectus
   sheath hematoma. Transaminitis & Alk phos may be due to disseminated
   infection infiltrating liver.
   - continue broad spectrum ABx with now Day 2 Linezolid, Meropenem,
   Caspofungin & Flagyl, f/u ID recs
   - f/u culture tips
   - f/u urine, blood, sputum cultures (GPCs from blood suggest VRE,
   sensitivity to linezolid & dapto pending)
   - f/u glucan/galactomannan
   - weaning hydrocortizone to 50mg TID today
   - repeat TTE pending
   - TSH elev, free T4 & T3 low, continue Levothyroxine 100mcg po
   # Hypoxia - Etiology of prolonged hypoxia likely due to PNA & massive
   volume overload, pt may now have additional VAP complicating pulm
   process.  Pt has h/o bloody clots on bronch concerning for
   pulmonary-renal syndromes  but ANCA/[**Doctor First Name 1205**] negative, anti GBM pending. Pt
   had a long hosp course with worsening hypoxia at OSH intubated [**1-15**] for
   respiratory failure, s/p multiple bronch's + [**Female First Name (un) 188**] and clots.  Now
   having difficulty with oxygenation on vent, likely due to massive
   volume overload vs worsening VAP? vs ARDS?.  PIPs in low 20s.  pO2
   remains in 60s despite PEEP of 16 and fiO2 of 70%
   - f/u ABG & monitor sats, will increase fiO2 if necessary
   - d/w renal today, will need HD for aggressive volume removal (this is
   most correctable barrier to oxygenation)
   - dialysis line placement per IR
   - continue broad spectrum abx for presumed VAP- f/u ID recs
   - f/u induced sputum cx with fungal and pcp
   [**Name Initial (PRE) **] surgery consulted for trach placement
   .
   # GI - h/o GIB in [**2127**] per OSH records.  Pt p/w coffee grounds in OGT,
   only on sucralfate at OSH while receiving high dose steroids for >4wks.
   High suspician of gastritis vs ulcer.  Today, OGT residuals have been
   clear. Etiology of elevated LFTs unclear, AP elevated, but T. Bili is
   WNL.  Transaminitis & Alk phos may be due to invasive fungal
   infection.    HCT essentially stable overnight, continue to follow [**Hospital1 **]
   hcts
   - continue PPI iv bid & sucralfate.
   - maintain active T& S
   - f/u RUQ U/S today to r/o acalculous cholecyst.
   - LFTs suggest diffuse liver process
   - will start TF today and monitor residuals carefully
   # ARF/CRI - currently in oliguric renal failure, requiring HD.
   Etiology unclear,  baseline creatinine ~1.2 to 1.7 and suffered an
   insult during OSH course resulting in oliguric RF.  Ddx from OSH renal
   consult suggests "hemodynamic stress
 vs AIN from multiple abx vs
   possible contrast (none documented) vs pulmonary-renal syndromes (no
   documented urinary sediments on OSH records, renal u/s showed no e/o
   hydronephrosis).  Pt with massive volume overload likely biggest
   correctable barrier to oxygenation.  Will ask IR to place dialysis line
   today, plan for emergent HD for volume removal
   - on aranesp 150mcg q4wks, last dose [**2129-12-1**].
   - renal consult,  for HD
   - Urine eos negative
   - renally dose meds.
   .
   ## CV: Pt with CAD s/p stenting in [**2127**].  Asa and plavix held in
   setting of pulmonary hemhorrage. There was no evidence of ischemia on
   EKG, +trop likely [**12-24**] ARF. Pt developed afib during OSH adm in setting
   of pulmonary processes, rate relatively well controlled at present,
   90-110s but spikes up to 140s intermittently.  Pt massively volume
   overloaded, thought recent TTE from OSH showed elev LVEF, likely
   diastolic CHF.
   - consulting renal, needs HD for fluid removal
   - monitor HR, will start low dose BB today .
   - will start ASA 81mg in am, continue to monitor hct [**Hospital1 **] given possible
   GI bleed
   - f/u TTE today
   #DM2
 Pt was on NPH 20 QAM, 5U QPM, then increased to levamir 30U Q12H
   on [**12-9**] after started on decadron for reactive airways, most recently
   receiving 8U levamir QAM, with humalog SSI, with reasonably good FSBS
   recently (has had some hypoglycemic episodes).
   - 8U glargine QAM, and cover with HISS,
   - check FSBS q2hr for now given steroids.
   - avoiding insulin gtt due large volume fluid load due to high insulin
   requiremts
   # HEME/ONC
 Pt with anemia [**12-24**] CKD. Thrombocytopenia noted on OSH
   records with a nadir of 20 000. Etiology unclear but attributed to
   infection.  HITT negative at OSH.  Plts stable in 100s now,
   fibrinogen/LDH/haptoglobin elevated making hemolysis & DIC unlikely.
   Low plts was likely [**12-24**] medication toxicity
   - smear shows only occais schistocytes
   - type & screen active, restarting low dose ASA in am
   - guaic stools, follow pulmonary secretions.
   .
   # hypothyroid
 Pt was not continued on home synthroid dose at OSH &
   TSH now elevated, T3/T4 low.
   - starting Synthroid 100mcg qdaily for now
   - apprec endocrine recs
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - wound care consult
   ICU Care
   Nutrition: start TF, Nutren Pulm goal 50ml/hr (1800kcal, 82g pro),
   start TF at 20ml/hr and adv as tol.)
   Glycemic Control:  Regular insulin sliding scale
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2130-01-31 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Long admission at [**Hospital1 **], 79F h/o asthma, dCHF, [**Hospital 1483**]
   transferred from OSH after admission for pna c/b hypoxic respiratory
   failure, afib with rvr, ARF requiring HD, pulmonary edema. Presented
   with SOB, cough. Bronch revealed blood clots while on coumadin for HIT
   ab. Increasing O2 requirements, question of CHF, diuresed. Tx with
   broad spectrum Abx. Rectus sheath hematoma with INR 3.8. Baseline renal
   insufficiency with acute on CRF. With increased diuresis, became
   oliguric and started on CVVH on [**1-15**]. + cdiff tx with course of flagyl.
   Was treated with steroids x ~ 4 weeks. C albicans grew from bronch- tx
   with voriconazole. Alk phos rise with no obvious source. Platelets
   decreased, question due to voriconazole.
   24 Hour Events:
   Events noted:
   HD tolerated - removed 2.5 L
   Endocrine and ID consults appreciated
   PICC and dialysis catheter d/c'd, new PICC inserted,
   Cultures sent
                   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-1-30**] 04:03 AM
   Cefipime - [**2130-1-30**] 01:30 PM
   Meropenem - [**2130-1-30**] 03:00 PM
   Caspofungin - [**2130-1-30**] 05:00 PM
   Linezolid - [**2130-1-31**] 05:45 AM
   Metronidazole - [**2130-1-31**] 09:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-1-30**] 08:00 PM
   Midazolam (Versed) - [**2130-1-31**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-1-31**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 109 (86 - 111) bpm
   BP: 132/64(87) {92/48(60) - 138/68(92)} mmHg
   RR: 30 (23 - 32) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113.2 kg (admission): 113.3 kg
   Height: 66 Inch
   CVP: 0 (0 - 10)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
                                Total In:
                                                                  2,627 mL
                                                                    599 mL
   PO:
                                TF:
   IVF:
                                                                  2,027 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     10 mL
   Urine:
                                                                     40 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,587 mL
                                                                    589 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 8
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   SpO2: 92%
   ABG: 7.41/34/61/23/-1
   Ve: 12.5 L/min
   PaO2 / FiO2: 87
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   119 K/uL
   81 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   30 mg/dL
   101 mEq/L
   136 mEq/L
   32.2 %
   20.7 K/uL
        [image002.jpg]
                             [**2130-1-29**]  07:43 PM
                             [**2130-1-29**]  10:45 PM
                             [**2130-1-30**]  01:37 AM
                             [**2130-1-30**]  05:45 AM
                             [**2130-1-30**]  06:06 AM
                             [**2130-1-30**]  05:36 PM
                             [**2130-1-30**]  08:55 PM
                             [**2130-1-31**]  04:28 AM
                             [**2130-1-31**]  04:43 AM
                             [**2130-1-31**]  06:26 AM
   WBC
   14.9
   20.7
   Hct
   35.7
   32.2
   Plt
   120
   119
   Cr
   2.1
   2.3
   2.4
   TropT
   0.30
   TCO2
   29
   28
   27
   26
   24
   25
   22
   Glucose
   135
   130
   81
   Other labs: PT / PTT / INR:17.0/58.5/1.5, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:61/72, Alk Phos / T Bili:862/0.6,
   Amylase / Lipase:19/7, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:586 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:1110 IU/L, Ca++:6.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR reviewed - ETT ~ 2 cm above carina, increase in bilat
   infiltrates but small lung volumes
   Microbiology: Urine growing GPC
   Blood growing VRE
   Assessment and Plan
    1. Enterococcal sepsis / ID issues: likely from urine source. On
   Linezolid, Meropenem, and caspofungin.  Line infection still possible.
   All old lines removed. Skin breakdown but unlikely source of infection.
   Treated with stress dose steroids despite neg [**Last Name (un) 45**] stim. BP improved.
   In setting of low albumin and 25 kg positive balance, this is
   distributive shock. [**Last Name (un) **] compartment syndrome ruled out with bladder
   pressure. Increase in wbc today but afeb. F/u on all cultures.
   2. Respiratory failure: volume overload and mental status are barriers
   to extubation. Will avoid sedation and wean as tolerated. Question of
   pulmonary hemorrhage - unlikely, negative serologies...
   3. Acute renal failure on HD - oliguric with severe volume overload and
   increasing FiO2 requirements. Baseline creat was ~ 1.6. Dialysed and
   ultrafiltrated yesterday. Plan is to hold on inserting new dialysis
   catheter for 2-3 days due to bacteremia. In meantime, will try to
   diurese with high dose lasix.
   4. AFib -  on dilt drip
   5. Anemia with ? GI Bleed - f/u hct. Hx of GI bleed in [**2127**], coffee
   grounds in OGT. Hold tube feeds for now.
   6. Lines - f/u on line tip culture (dialysis catheter tip sent). New
   PICC [**1-30**].
   7. Elevated troponins
 likely all demand ischemia. Pt is s/p MI [**2127**]
   with stent placement. EF=60-65% [**2130-1-2**], likely has some dCHF (rvsp
   41mmhg). Will start beta blocker. Not candidate for ASA yet.
   8. DM2 - on glargine insulin and SS. Follow FS closely while on
   steroids
   9. Thrombocytopenia - resolving, question of voriconazole as cause, hx
   of HIT but no documented heparin at OSH
   10. hypothyroid -  TSH 11 with low fT4. Levothyroxine IV started.
   11. Hx of RA, gout - no evidence of inflammatory joints presently, per
   family, not on any RA or gout medications.
   12. Skin breakdown - skin care
   13. Bilat pleural effusions - left effusion appears loculated
   14. Alk phos elvation - possible acalculous chole. RUQ ultrasound will
   be ordered
   Code: DNR
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-02-01 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**First Name (STitle) 1161**]
s note above, including assessment and plan.
   HPI: see admission note
   24 Hour Events:
   HD yesterday
   Missed dose of linezolid.
   transient hypotension this AM requiring levophed.
   New culture result - blood positive for CMV
   Meds reviewed
   Patient unable to provide history: opens eyes but not interactive
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-1-30**] 04:03 AM
   Cefipime - [**2130-1-30**] 01:30 PM
   Metronidazole - [**2130-2-1**] 12:28 AM
   Meropenem - [**2130-2-1**] 05:00 AM
   Caspofungin - [**2130-2-1**] 05:30 AM
   Linezolid - [**2130-2-1**] 06:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-1-31**] 08:30 PM
   Midazolam (Versed) - [**2130-1-31**] 10:30 PM
   Carafate (Sucralfate) - [**2130-2-1**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-1**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 118 (80 - 120) bpm
   BP: 96/44(59) {72/38(48) - 153/91(115)} mmHg
   RR: 32 (16 - 33) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,139 mL
                                                                    874 mL
   PO:
             TF:
                                                                     50 mL
                                                                    110 mL
   IVF:
                                                                    969 mL
                                                                    764 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                     60 mL
   Urine:
                                                                     20 mL
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,381 mL
                                                                    814 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 26 cmH2O
   Compliance: 47.5 cmH2O/mL
   SpO2: 92%
   ABG: 7.45/33/64/22/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: S1 and S2 irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat, No(t) Wheezes : )
   Abdominal: No(t) Tender:
   Extremities: Right: 2+, Left: 3+, anasarca
   Skin:  Not assessed, healing ulcer left lower lip
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   142 K/uL
   116 mg/dL
   2.0 mg/dL
   22 mEq/L
   3.6 mEq/L
   24 mg/dL
   106 mEq/L
   141 mEq/L
   32.4 %
   23.9 K/uL
        [image002.jpg]
                             [**2130-1-30**]  05:36 PM
                             [**2130-1-30**]  08:55 PM
                             [**2130-1-31**]  04:28 AM
                             [**2130-1-31**]  04:43 AM
                             [**2130-1-31**]  06:26 AM
                             [**2130-1-31**]  10:35 AM
                             [**2130-1-31**]  07:00 PM
                             [**2130-1-31**]  10:18 PM
                             [**2130-2-1**]  05:29 AM
                             [**2130-2-1**]  05:46 AM
   WBC
   20.7
   20.2
   23.9
   Hct
   32.2
   31.9
   32.4
   Plt
   119
   129
   142
   Cr
   2.3
   2.4
   1.9
   2.0
   TropT
   0.30
   TCO2
   24
   25
   22
   24
   25
   24
   Glucose
   130
   81
   118
   116
   Other labs: PT / PTT / INR:18.2/63.3/1.7, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:57/61, Alk Phos / T Bili:973/0.8,
   Amylase / Lipase:19/7, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:586 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.1 g/dL, LDH:1165 IU/L, Ca++:6.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR reviewed - left base infiltrate, bilat haziness, prob
   effusions
   Echo - 2+ MR and 2+ TR
   Microbiology: BLOOD - 2 species of enterococcus, presumed VRE
   [**Numeric Identifier 1539**] copies CMV
   URINE - VRE
   Assessment and Plan
    1. VRE sepsis / CMV viremia / other ID issues: likely from urine
   source. On Linezolid, Meropenem, and caspofungin. Now CMV viremia.
   Line infection still possible. All old lines removed. Skin breakdown
   but unlikely source of infection. Treated with stress dose steroids
   despite neg [**Last Name (un) 45**] stim. BP fluctuates possible sepsis vs volume shifts.
   In setting of low albumin and 25 kg positive balance, this is
   distributive shock. [**Last Name (un) **] compartment syndrome ruled out with bladder
   pressure. Increase in wbc today but continues to be afeb though on
   steroids. F/u on all cultures. F/u with ID recs.
   2. Respiratory failure: not ready to wean. Will avoid sedation and wean
   vent as tolerated. Question of pulmonary hemorrhage but unlikely,
   negative serologies...
   3. Acute renal failure on HD - oliguric with severe volume overload and
   increasing FiO2 requirements. Baseline creat was ~ 1.6. Dialysed and
   ultrafiltrated yesterday. Plan is to hold on inserting new dialysis
   catheter for 2-3 days due to bacteremia. Will d/w renal about starting
   CVVH.
   4. AFib -  off dilt drip
   5. Anemia with ? GI Bleed - hct are stable. Hx of GI bleed in [**2127**],
   coffee grounds in OGT. Start tube feeds and watch hct.
   6. Lines - f/u on line tip culture (dialysis catheter tip sent). New
   PICC [**1-30**].
   7. Elevated troponins
 likely all demand ischemia. Pt is s/p MI [**2127**]
   with stent placement. EF=60-65% [**2130-1-2**], likely has some dCHF (rvsp
   41mmhg). Will start beta blocker. Not candidate for ASA yet.
   8. DM2 - on glargine insulin and SS. Follow FS closely while on
   steroids
   9. Thrombocytopenia - resolving, question of voriconazole as cause, hx
   of HIT but negative [**2130-1-27**]. no documented heparin at OSH, citrate with
   dialysis.
   10. hypothyroid -  TSH 11 with low fT4. Levothyroxine IV. Endocrine's
   input appreciated.
   11. Hx of RA, gout - no evidence of inflammatory joints presently, per
   family, not on any RA or gout medications.
   12. Skin breakdown - skin care
   13. Bilat pleural effusions - left effusion appears loculated
   14. Alk phos elvation - possible acalculous chole. RUQ ultrasound today
   Code: DNR
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Family updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 43 minutes
   Patient is critically ill

2130-02-02 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-2-1**] 10:00 PM
   - had 4L removed at HD, but has had intermittent reccurrent hypotension
   requiring levo, weans quickly
   - per renal, plan for CVVH in am
   - CMV viremia, started on Gancyclovir
   - ionized Calcium normalized with repletion, but still some e/o muscle
   twitching
   - reviewed Abd CT with radiology, no e/o lymphadenopathy
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2130-1-30**] 01:30 PM
   Metronidazole - [**2130-2-1**] 12:28 AM
   Gancyclovir - [**2130-2-1**] 06:52 PM
   Meropenem - [**2130-2-2**] 04:13 AM
   Caspofungin - [**2130-2-2**] 05:15 AM
   Linezolid - [**2130-2-2**] 06:30 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-2-1**] 04:54 PM
   Pantoprazole (Protonix) - [**2130-2-1**] 08:10 PM
   Carafate (Sucralfate) - [**2130-2-2**] 05:50 AM
   Other medications:
   Flowsheet Data as of  [**2130-2-2**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 103 (95 - 127) bpm
   BP: 118/54(74) {78/40(52) - 146/72(97)} mmHg
   RR: 26 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,680 mL
                                                                  1,266 mL
   PO:
             TF:
                                                                    230 mL
                                                                    181 mL
   IVF:
                                                                  2,390 mL
                                                                    965 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,380 mL
                                                                  1,266 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.40/36/76.[**Numeric Identifier 128**]/21/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 127
   Physical Examination
   GEN: NAD, intubated
   HEENT: multiple abrasions, scabbing over
   CV: irreg/irreg
   RESP: expiratory rhonchi ? echo in tubing
   Abd: [**Month (only) **] BS
   Extr: 3+ pitting
   Labs / Radiology
   RUQ u/s
   MPRESSION:  Portable ultrasound performed in the ICU.  Images are limit
   ed
   given significant subcutaneous edema from patient's anasarcic state.  T
   he
   gallbladder is distended possibly secondary to NPO status. No intralumi
   nal
   stone or sludge is detected.  No secondary signs are identified to [**Last Name (un) 1562**]
   est
   acute cholecystitis.
   CXR [**2-1**]
   Moderate bilateral pleural effusions, greater on the left, have increas
   ed
   since [**1-31**].  Previous consolidation in the right upper lung is no l
   onger
   as well defined and could have represented asymmetric pulmonary edema.
   Endotracheal tube in standard placement.  Left central venous dual-[**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) **]
   catheter ends at the superior cavoatrial junction and the nasogastric t
   ube
   passes below the diaphragm and out of view.  No pneumothorax.
   180 K/uL
   10.0 g/dL
   160 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   30 mg/dL
   104 mEq/L
   140 mEq/L
   31.7 %
   32.2 K/uL
        [image002.jpg]
                             [**2130-1-31**]  07:00 PM
                             [**2130-1-31**]  10:18 PM
                             [**2130-2-1**]  05:29 AM
                             [**2130-2-1**]  05:46 AM
                             [**2130-2-1**]  11:17 AM
                             [**2130-2-1**]  01:07 PM
                             [**2130-2-1**]  06:07 PM
                             [**2130-2-1**]  11:34 PM
                             [**2130-2-2**]  03:39 AM
                             [**2130-2-2**]  05:23 AM
   WBC
   20.2
   23.9
   32.2
   Hct
   31.9
   32.4
   31.7
   Plt
   129
   142
   180
   Cr
   1.9
   2.0
   2.3
   2.3
   TCO2
   25
   24
   20
   20
   24
   23
   Glucose
   118
   116
   192
   160
   Other labs: PT / PTT / INR:16.5/63.3/1.5, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:52/58, Alk Phos / T Bili:1193/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.2 g/dL, LDH:1198 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   Blood & Urine Cx from [**1-29**] + VRE sensitive to linezolid
   Cath tip culture from  [**1-30**] + VRE
   Urine Cx from [**1-31**] is NGTD
   Blood Cx from [**1-30**], [**1-31**] & [**2-1**] NGTD
[**2130-1-31**] 4:27 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2130-1-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCC IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL FLORA.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2130-2-1**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Pending):
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2130-1-31**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
CMV Viral Load (Final [**2130-2-1**]): 46,200 copies/ml
Repeat Viral Load pending from [**2-1**]
   Beta Glucan & Galactomannin Negative
   HIT Ab & ANTI GBM pending
   Assessment and Plan
   79F h/o F transferred here after prolonged adm for hypoxic respiratory
   failure & oliguric renal failure, now with massive volume overload, VRE
   bacteremia & CMV viremia.
   # Hypotension
recurred this am, continues to require levo
   intermittently, etiology intravasc volume depletion s/p HD & sepsis
   with GPCs growing from blood & urine, primary source unclear.
   Infectious sources include VAP, skin ulcers & GI bleed, UTI, colitis,
   rectus sheath hematoma. Pt with mild transaminitis rising alk phos &
   LDH ? may be due to CMV viremia infiltrating liver vs occult
   malignancy.
   - continue broad spectrum ABx with now Day 4 Linezolid, Meropenem,
   Caspofungin & Flagyl, f/u ID recs
   - f/u culture tips, urine, blood, sputum cultures (GPCs from blood are
   VRE, sensitivity to linezolid & dapto pending)
   - f/u glucan/galactomannan
   - weaning hydrocortizone to 25mg [**Hospital1 **] today
   - starting Gancyclovir dosed for CVVH today
   - TSH elev, free T4 & T3 low, continue Levothyroxine 100mcg po
   - RUQ u/s no evidence of cholecystitis
   # Hypoxia - Etiology of prolonged hypoxia likely due to PNA & massive
   volume overload, pt may now have additional VAP complicating pulm
   process.  Pt has h/o bloody clots on bronch concerning for
   pulmonary-renal syndromes  but ANCA/[**Doctor First Name 1205**] negative, anti GBM pending. Pt
   having difficulty oxygenating o/n, barriers are massive volume overload
   and possible VAP.  Will f/u am ABG after increasing FiO2.
   - f/u ABG & monitor sats, will continue to increase FiO2 if necessary
   - plan for CVVH today (this is most correctable barrier to oxygenation)
   - continue broad spectrum abx for presumed VAP- f/u ID recs
   - f/u induced sputum cx (PCP [**Name Initial (PRE) 365**])
   - surgery consulted for trach placement, waiting for pt to be less PEEP
   dependant
   .
   # GI - h/o GIB in [**2127**] & pt p/w coffee grounds in OGT, only on
   sucralfate at OSH while receiving high dose steroids for >4wks. High
   suspician of gastritis vs ulcer.  Today, OGT residuals have been clear.
   Etiology of elevated LFTs unclear, AP & LDH elevated, but T. Bili is
   WNL.  Transaminitis & Alk phos may be due to CMV virus, but unusual
   presentation.  Given new CMV viremia, will begin occult malignancy work
   up & HIV screen when consentable. HCT continues to be stable.
   - continue PPI iv bid & sucralfate.
   - maintain active T& S
   - RUQ U/S negative for acalculous cholecyst.
   - LFTs suggest diffuse liver process, unclear if this is due to CMV
   viremia, started on Gangcyclovir [**2-1**]
   - continue TF & monitor residuals
   .
   # ARF/CRI - currently in oliguric renal failure, requiring HD.
   Etiology unclear, baseline creatinine ~1.2 to 1.7 and suffered an
   insult during OSH course resulting in oliguric RF.  Differential
   includes ATN vs drug toxicity.  Pt with massive volume overload likely
   biggest correctable barrier to oxygenation.
   - renal consult,  for HD having issues with hypotension during
   dialysis, will likely need CVVH
   - f/u urine sediment with renal
   - Urine eos negative
   - renally dose meds.
   .
   # CV: Pt with CAD s/p stenting in [**2127**], ASA & Plavix held in setting of
   ?pulm hemorrhage. There was no evidence of ischemia on EKG, +trop
   likely [**12-24**] ARF. Pt developed afib during OSH adm in setting of
   pulmonary processes, rate relatively well controlled at present,
   90-110s but spikes up to 140s intermittently.  Pt massively volume
   overloaded, ECHO shows hyperdynamic LVEF of 70-80% & small cavity size,
   2+ TR & MR.
   - consulting renal, will likely need CVVH for fluid removal
   - monitor HR, continue Metoprolol 12.5mg [**Hospital1 **]
   - continue ASA 81mg, continue to monitor hct [**Hospital1 **] given possible GI
   bleed
   #DM2
 At OSH, pt was on NPH 20 QAM, 5U QPM, then increased to levamir
   30U Q12H on [**12-9**] after started on decadron for reactive airways, most
   recently receiving 8U levamir QAM, with humalog SSI, with reasonably
   good FSBS recently (has had some hypoglycemic episodes).
   - 8U glargine QAM, and cover with HISS (BS running in 150 range)
   - check FSBS q2hr for now given steroids.
   - avoiding insulin gtt due large volume fluid load due to high insulin
   requiremts
   - f/u endocrine recs
   # HEME/ONC
 Pt with anemia thought [**12-24**] to CKD & profound
   thrombocytopenia noted on OSH with nadir of 20 000. Etiology unclear
   but attributed to infection vs med toxicity.  HITT negative at OSH.
   Plts stable in 100s.  Fibrinogen/LDH & haptoglobin elevated making
   hemolysis & DIC unlikely.  Elev LDH, CMV viremia concerning for lymph
   malignancy or other immunocomprom Dz.  Plan to review CT with radiology
   ?lymphadenopathy.  Will consent for HIV screen when alert.
   - f/u IgG panel, SPEP, UPEP, Flow cytometry
   - repeating HIT Ab
   - smear shows only occais schistocytes
   - type & screen active, continue ASA 81mg daily
   - guaic all stools
   .
   # Hypothyroid
 Pt was not continued on home synthroid dose at OSH &
   TSH elevated, T3/T4 low.
   - switch Levothyroxine back to 50mcg IV daily
   - f/u endocrine recs
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - wound care consult
   ICU Care
   Nutrition: Nutren Pulm
   Nutren Pulmonary (Full) - [**2130-2-1**] 06:00 PM 35 mL/hour
   Glycemic Control:
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI [**Hospital1 **]
   Code status: Full code
   Disposition: ICU

2130-02-02 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hd - removed 4 liters
   On/off levophed
   CVVH to be started
   Gancyclovir started for CMV viremia
                   Patient unable to provide history: intubated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2130-1-30**] 01:30 PM
   Metronidazole - [**2130-2-1**] 12:28 AM
   Gancyclovir - [**2130-2-1**] 06:52 PM
   Meropenem - [**2130-2-2**] 04:13 AM
   Caspofungin - [**2130-2-2**] 05:15 AM
   Linezolid - [**2130-2-2**] 06:30 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-2-1**] 04:54 PM
   Pantoprazole (Protonix) - [**2130-2-1**] 08:10 PM
   Carafate (Sucralfate) - [**2130-2-2**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-2**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 108 (95 - 127) bpm
   BP: 112/52(71) {78/40(52) - 142/65(89)} mmHg
   RR: 26 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,680 mL
                                                                  1,434 mL
   PO:
             TF:
                                                                    230 mL
                                                                    238 mL
   IVF:
                                                                  2,390 mL
                                                                  1,076 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,380 mL
                                                                  1,434 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.40/36/76.[**Numeric Identifier 128**]/21/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 127
   Physical Examination
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, somewhat distended, decreased BS
   Extremities: Right: 2+, Left: 3+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   180 K/uL
   160 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   30 mg/dL
   104 mEq/L
   140 mEq/L
   31.7 %
   32.2 K/uL
        [image002.jpg]
                             [**2130-1-31**]  07:00 PM
                             [**2130-1-31**]  10:18 PM
                             [**2130-2-1**]  05:29 AM
                             [**2130-2-1**]  05:46 AM
                             [**2130-2-1**]  11:17 AM
                             [**2130-2-1**]  01:07 PM
                             [**2130-2-1**]  06:07 PM
                             [**2130-2-1**]  11:34 PM
                             [**2130-2-2**]  03:39 AM
                             [**2130-2-2**]  05:23 AM
   WBC
   20.2
   23.9
   32.2
   Hct
   31.9
   32.4
   31.7
   Plt
   129
   142
   180
   Cr
   1.9
   2.0
   2.3
   2.3
   TCO2
   25
   24
   20
   20
   24
   23
   Glucose
   118
   116
   192
   160
   Other labs: PT / PTT / INR:16.5/63.3/1.5, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:52/58, Alk Phos / T Bili:1193/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.2 g/dL, LDH:1198 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   Fluid analysis / Other labs: ALP 1190
   Imaging: RUQ u/s - distended GB but no evidence of acute chole
   Microbiology: Cath tip positive for enterococcus
   BC 3/10+11 ngtd
   urine + enterococcus
   CMV VL [**Numeric Identifier 1539**]
   sputum ETT 1+ GPC, PCP neg
   Assessment and Plan
   79 yr old woman VRE sepsis, CMV viremia
   1. VRE sepsis / CMV viremia / other ID issues: likely from line vs
   urinary source, line tip and urine growing VRE.
   On Linezolid, Meropenem, and caspofungin, gancyclovir. Now CMV
   viremia.  Old lines removed.
   Skin breakdown but unlikely source of infection. Treated with stress
   dose steroids despite neg [**Last Name (un) 45**] stim.
   Hypotension: improved.  BP fluctuates possible sepsis vs volume shifts.
   In setting of low albumin and 25 kg positive balance, this is likley
   distributive shock. [**Last Name (un) **] compartment syndrome ruled out with bladder
   pressure. Increase in wbc today but continues to be afeb though on
   steroids. F/u on all cultures. F/u with ID recs. Taper steroids.
   2. Respiratory failure: not ready to wean. Now being sedated for
   apparent vent dyssynchrony. Lighten up sedation and wean as tolerated
   once more negative.
   3. Acute renal failure, anuria - severe volume overload and increasing
   FiO2 requirements, will likely benefit from CVVH. Baseline creat was ~
   1.6. Dialysed and ultrafiltrated to negative balance. Appreciate
   renal's input. CVVH to be started today.
   4. AFib -  off dilt drip
   5. Anemia with ? GI Bleed - hct are stable. Hx of GI bleed in [**2127**],
   coffee grounds in OGT. Start tube feeds and watch hct.
   6. Lines - f/u on line tip culture (dialysis catheter tip sent). New
   PICC [**1-30**].
   7. Elevated troponins
 likely all demand ischemia. Pt is s/p MI [**2127**]
   with stent placement. EF=60-65% [**2130-1-2**], likely has some dCHF (rvsp
   41mmhg). Will start beta blocker. Not candidate for ASA yet.
   8. DM2 - on glargine insulin and SS. Follow FS closely while on
   steroids
   9. Thrombocytopenia - improved, question of voriconazole as cause, hx
   of HIT but negative [**2130-1-27**]. no documented heparin at OSH, citrate with
   dialysis.
   10. hypothyroid -  TSH 11 with low fT4. Levothyroxine IV. Endocrine's
   input appreciated.
   11. Hx of RA, gout - no evidence of inflammatory joints presently, per
   family, not on any RA or gout medications.
   12. Skin breakdown - skin care
   13. Bilat pleural effusions - left effusion appears loculated
   14. Alk phos elvation - possible acalculous chole. RUQ ultrasound today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-1**] 06:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total critical care time spent: 35 minutes
   Patient is critically ill

2130-02-03 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2130-2-2**] 04:43 PM
   -- patinet on CVVH since noon, has been running w/ a DFR of
   0-100cc/hr.
   -- Cards would not do [**Year (4 digits) 1613**] unless patient cleared by GI due to her
   earlier coffee grounds on OG tube suction.  Had EGD which only showed
   gastritis.
   -- [**Year (4 digits) 1613**] scheduled for today
   -- insulin sliding scale increased, endocrine wanted to check trough
   TFTs
   -- Patient w/ low PaO2 of 65 on 50%, had to increase to 100% for EGD,
   currently w/ PaO2 of 74 on 60%
   Pt does not respond to commands, not opening eyes
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2130-2-1**] 12:28 AM
   Linezolid - [**2130-2-2**] 05:30 PM
   Gancyclovir - [**2130-2-2**] 06:32 PM
   Meropenem - [**2130-2-3**] 04:21 AM
   Caspofungin - [**2130-2-3**] 05:21 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-2-2**] 12:00 PM
   Pantoprazole (Protonix) - [**2130-2-2**] 08:30 PM
   Other medications:
   Flowsheet Data as of  [**2130-2-3**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 91 (91 - 122) bpm
   BP: 94/43(59) {86/41(54) - 148/67(96)} mmHg
   RR: 24 (23 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,685 mL
                                                                  1,215 mL
   PO:
             TF:
                                                                    783 mL
   IVF:
                                                                  2,662 mL
                                                                  1,155 mL
   Blood products:
   Total out:
                                                                  2,512 mL
                                                                  1,451 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                   -236 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 60%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.34/40/120/21/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GEN: NAD, no twitching noted
   CV: irreg/irreg no m/r/g
   RESP: coarse BS, moving air well, no w/r/crackles
   ABD: mildly distended but soft, NABS, NT
   EXTR: 3+ pitting edema all four extremities (less tense)
   Labs / Radiology
   181 K/uL
   9.8 g/dL
   119 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   134 mEq/L
   31.2 %
   30.4 K/uL
        [image002.jpg]
                             [**2130-2-2**]  03:39 AM
                             [**2130-2-2**]  05:23 AM
                             [**2130-2-2**]  10:46 AM
                             [**2130-2-2**]  03:25 PM
                             [**2130-2-2**]  06:14 PM
                             [**2130-2-2**]  06:21 PM
                             [**2130-2-3**]  12:19 AM
                             [**2130-2-3**]  12:23 AM
                             [**2130-2-3**]  05:28 AM
                             [**2130-2-3**]  05:29 AM
   WBC
   32.2
   30.4
   Hct
   31.7
   31.2
   Plt
   180
   181
   Cr
   2.3
   1.9
   1.4
   TCO2
   23
   22
   21
   23
   23
   23
   Glucose
   160
   198
   149
   119
   Other labs: PT / PTT / INR:13.8/56.0/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:48/53, Alk Phos / T Bili:1054/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.2 g/dL, LDH:1231 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Imaging: CXR [**2-2**]
   The ET tube tip is 5 cm above the carina.  The right PICC line tip is
   at the
   cavoatrial junction. The NG tube tip is in the stomach.  The
   double-lumen
   catheter inserted through the left jugular approach terminates about 1
   cm
   below the cavoatrial junction.
   The cardiomediastinal silhouette is unremarkable.  There is interval
   improvement in bilateral parenchymal opacities most likely representing
   the
   resolution of underlying pulmonary edema.  There is no appreciable
   pleural
   effusion.  There is no pneumothorax.  Still present, significant
   parenchymal
   consolidation might be attributed to ARDS.
   Microbiology: [**2130-1-31**] 7:45 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2130-1-31**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2130-2-2**]):
         OROPHARYNGEAL FLORA ABSENT.
         YEAST.    SPARSE GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2130-2-1**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   Urine Cx from [**1-29**]
   Blood Cx from [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, but blood species
   sensitive to Tetracycline not urine
   Culture Tip + [**Last Name (un) 1591**]
   Urine Cx from [**1-30**] growing [**Month/Year (2) 1591**]
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure,
   massive volume overload, [**Month/Year (2) 1591**] bacteremia & CMV viremia.
   # Hypoxia - Etiology of prolonged hypoxia due ARDS & volume overload,
   may have addl VAP complicating pulm process but CXR not convincing for
   new infiltrate & sputum cultures NGTD. Pt had some difficultly
   oxygenating after EGD, addl barriers are massive volume overload and
   underlying ARDS.
   - maintain current settings until after [**Month/Year (2) 1613**], likely to drop sats during
   [**Last Name (LF) 1613**], [**First Name3 (LF) 178**] recheck ABG in the pm
   - continue CVVH for volume removal
   - continue broad spectrum abx Linezolid, Meropenem, Caspofungin, Flagyl
   - induced sputum cx NGTD (PCP [**Name Initial (PRE) 365**])
   - surgery consulted for trach placement, waiting for pt to be less PEEP
   dependant, will touch base today with surgery
   # Hypotension
continues to be intermittently hypotensive but requiring
   only min amounts of levo, etiology more likely due to intravasc volume
   depletion but pt  was bacteremic with GPCs growing from blood, urine &
   RIJ cath tip. Cultures have been NGTD from [**1-31**], [**2-1**] &  [**2-2**].  Blood
   Cx from [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, but blood species
   sensitive to Tetracycline not urine. D/w ID, unclear if these are
   clearly different species (all sensitive to Linezolid)
   - continue broad spectrum ABx with now Day 5 Linezolid, Meropenem,
   Caspofungin & Flagyl
   - f/u remaining urine, blood & sputum cultures
   - d/c steroids
   - continue Gancyclovir for CMV viremia (CMV count decreased prior to
   first dose)
   .
   # GI - h/o GIB in [**2127**] & pt p/w coffee grounds in OGT,  EGD confirmed
   gastritis, no acute bleed. HCT remains stable.
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   - RUQ U/S negative for cholecystitis
   - continue TF & monitor residuals
   .
   # Elev Alk Phos/LDH: Etiology of elev AP & LDH unclear but T. Bili is
   WNL.  Transaminitis & Alk phos may be due to CMV virus, but unusual
   presentation.  Occult malignancy work up, has been neg to date, AFP of
   3. Perform HIV screen when consentable
   - f/u SPEP & Flow cytometry
   - LFTs suggest diffuse liver process, continue Gangcyclovir
   - AFP negative
   .
   # ARF/CRI - currently in oliguric renal failure, requiring CVVH.
   Etiology unclear, differential includes ATN vs drug toxicity.  Pt with
   massive volume overload likely biggest correctable barrier to
   oxygenation.
   - continue CVVH
   - f/u renal recs
   .
   # HEME/ONC
 Pt with anemia thought [**12-24**] to CKD & profound
   thrombocytopenia noted on OSH with nadir of 20 000. H/o HITT Ab
   positive from OSH.  Plts stable in 180s now. Fibrinogen has been
   trending down, LDH elevated, FDP increased.
   - f/u daily DIC labs
   - smear shows only occais schistocytes
   - maintain active type & screen
   # CV: CAD s/p stenting in
06, ASA & Plavix held in setting of pulm
   hemorrhage. No evidence of ischemia on EKG, +trop likely [**12-24**] ARF.
   Currently in A.Fib with ongoing hypotension, holding BB currently due
   to pressor requirement.
   - CVVH for fluid removal
   - monitor HR, start Metoprolol 12.5mg [**Hospital1 **] when BP can tolerate
   - continue ASA 81mg
   .
   #DM2
 Decent BS control on current regimen, increased glargine,
   continue Insulin SS
   - check FSBS q2hr for now given recent steroid use
   - apprec endocrine recs
   .
   # Hypothyroid
 Pt was not continued on home synthroid dose at OSH &
   TSH elevated, T3/T4 low.
   - continue Levothyroxine 50mcg IV daily
   - f/u endocrine recs
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - wound care consult
   ICU Care
   Nutrition:  TF Nutren Pulm
   Glycemic Control:  Insulin SS
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-02-03 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Endoscopy
   CVVH initiated
   on/off levophed
   Positive 1 liter /24 hrs
   Afeb overnight
                   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2130-2-1**] 12:28 AM
   Gancyclovir - [**2130-2-2**] 06:32 PM
   Meropenem - [**2130-2-3**] 04:21 AM
   Caspofungin - [**2130-2-3**] 05:21 AM
   Vancomycin - [**2130-2-3**] 06:00 AM
   Linezolid - [**2130-2-3**] 06:30 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-2-2**] 12:00 PM
   Pantoprazole (Protonix) - [**2130-2-2**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-3**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 84 (84 - 118) bpm
   BP: 115/57(73) {86/41(54) - 148/70(96)} mmHg
   RR: 24 (6 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,685 mL
                                                                  2,018 mL
   PO:
             TF:
                                                                    783 mL
   IVF:
                                                                  2,662 mL
                                                                  1,928 mL
   Blood products:
   Total out:
                                                                  2,512 mL
                                                                  3,743 mL
   Urine:
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                  1,173 mL
                                                                 -1,725 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   SpO2: 100%
   ABG: 7.35/37/139/21/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   181 K/uL
   113 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   134 mEq/L
   31.2 %
   30.4 K/uL
        [image002.jpg]
                             [**2130-2-2**]  10:46 AM
                             [**2130-2-2**]  03:25 PM
                             [**2130-2-2**]  06:14 PM
                             [**2130-2-2**]  06:21 PM
                             [**2130-2-3**]  12:19 AM
                             [**2130-2-3**]  12:23 AM
                             [**2130-2-3**]  05:28 AM
                             [**2130-2-3**]  05:29 AM
                             [**2130-2-3**]  09:39 AM
                             [**2130-2-3**]  09:58 AM
   WBC
   30.4
   Hct
   31.2
   Plt
   181
   Cr
   1.9
   1.4
   TCO2
   22
   21
   23
   23
   23
   21
   Glucose
   198
   149
   119
   113
   Other labs: PT / PTT / INR:13.8/56.0/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:48/53, Alk Phos / T Bili:1054/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.2 g/dL, LDH:1231 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Fluid analysis / Other labs: AFP normal
   Imaging: CXR improving bilat infiltrates, mild atelect LLL
   Microbiology: Cultures - blood, cath tip, and urine [**1-29**] + [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to
   linezolid
   CMV viral load - [**Numeric Identifier 1539**] down to [**Numeric Identifier 1602**]
   Assessment and Plan
   79 yr old woman [**Numeric Identifier 1591**] sepsis, CMV viremia
   1. [**Numeric Identifier 1591**] sepsis / CMV viremia / other ID issues: likely from line vs
   urinary source, line tip and urine both growing [**Numeric Identifier 1591**], slightly different
   sensitivities, question of two diff organisms.
   On Linezolid, Meropenem, and caspofungin, gancyclovir. CMV viral load
   decreased.  Old lines removed.
   Skin breakdown but unlikely source of infection. Treated with stress
   dose steroids despite neg [**Last Name (un) 45**] stim, tolerating low dose HC, can d/c
   today.
   Sepsis/ hypotension: improving but still requiring low dose levophed.
   Sedation and CVVH playing some role. Leukocytosis somewhat improved,
   afebrile. F/u on all cultures. Appreciate ID recs. Can d/c
   hydrocortisone.
   2. Respiratory failure: not ready to wean. Being sedated for apparent
   vent dyssynchrony. Wean as tolerated once more negative.
   3. Acute renal failure, anuria - severe volume overload and increased
   FiO2 requirements, on CVVH. Baseline creat was ~ 1.6. Dialysed and
   ultrafiltrated. Appreciate renal's input.
   4. AFib -  off dilt drip
   5. Anemia with ? GI Bleed - hct are stable. Hx of GI bleed in [**2127**],
   coffee grounds in OGT. Start tube feeds and watch hct. On PPI and
   sucralfate.
   6. Lines - Old [**Year (4 digits) 1591**] infected line is out. New PICC [**1-30**].
   Other issues
    Elevated troponins
 likely all demand ischemia. Pt is s/p MI [**2127**]
   with stent placement. EF=60-65% [**2130-1-2**], likely has some dCHF (rvsp
   41mmhg). Will start beta blocker. Not candidate for ASA yet.
    DM2 - on glargine insulin and SS. Follow FS closely while on steroids
    Thrombocytopenia - improved, question of voriconazole as cause, hx of
   HIT but negative [**2130-1-27**]. no documented heparin at OSH, citrate with
   dialysis.
    hypothyroid -  TSH 11 with low fT4. Levothyroxine IV. Endocrine's
   input appreciated.
    Hx of RA, gout - no evidence of inflammatory joints presently, per
   family, not on any RA or gout medications.
    Skin breakdown - skin care
    Bilat pleural effusions - left effusion appears loculated
    Alk phos elvation - possible acalculous chole. RUQ ultrasound today
    Elevated LDH
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments: sucralfate and PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min critical care time minutes
   Patient is critically ill

2130-02-04 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-2-3**] 10:24 AM
 BLOOD CULTURED - At [**2130-2-3**] 10:30 AM
 TRANS ESOPHAGEAL ECHO - At [**2130-2-3**] 11:39 AM
   - per gen [**Doctor First Name 458**], will not trach until Peep<10
   - TEE negative for vegetations
   - steroids d/c'd
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2130-2-3**] 06:00 PM
   Gancyclovir - [**2130-2-3**] 07:00 PM
   Meropenem - [**2130-2-4**] 04:05 AM
   Caspofungin - [**2130-2-4**] 05:00 AM
   Vancomycin - [**2130-2-4**] 05:37 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-2-3**] 11:25 AM
   Fentanyl - [**2130-2-3**] 11:25 AM
   Pantoprazole (Protonix) - [**2130-2-3**] 08:45 PM
   Carafate (Sucralfate) - [**2130-2-4**] 05:37 AM
   Other medications:
   Flowsheet Data as of  [**2130-2-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 106 (84 - 116) bpm
   BP: 100/43(60) {86/39(53) - 132/70(88)} mmHg
   RR: 24 (6 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  4,568 mL
                                                                  1,349 mL
   PO:
             TF:
                                                                    500 mL
                                                                    250 mL
   IVF:
                                                                  3,798 mL
                                                                  1,039 mL
   Blood products:
   Total out:
                                                                  5,597 mL
                                                                  1,512 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,029 mL
                                                                   -163 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.31/44/112/21/-4
   Ve: 9.5 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GEN: NAD, not responding to commands
   CV: irreg/irreg no apprec m/r/g
   RESP: CTAB no w/r, [**Month (only) 38**] BS at bases
   ABD: soft, [**Month (only) 38**] BS, obese with abd wall edema
   EXTR: diffuse +3 pitting edema upper & lower extremities, less tense
   Labs / Radiology
   198 K/uL
   10.2 g/dL
   135 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   134 mEq/L
   32.9 %
   34.4 K/uL
        [image002.jpg]
                             [**2130-2-3**]  05:28 AM
                             [**2130-2-3**]  05:29 AM
                             [**2130-2-3**]  09:39 AM
                             [**2130-2-3**]  09:58 AM
                             [**2130-2-3**]  03:58 PM
                             [**2130-2-3**]  04:20 PM
                             [**2130-2-3**]  10:30 PM
                             [**2130-2-3**]  10:52 PM
                             [**2130-2-4**]  05:05 AM
                             [**2130-2-4**]  05:20 AM
   WBC
   30.4
   34.4
   Hct
   31.2
   32.9
   Plt
   181
   198
   Cr
   1.4
   1.1
   0.9
   TCO2
   23
   21
   22
   24
   23
   Glucose
   119
   113
   146
   142
   135
   Other labs: PT / PTT / INR:12.2/56.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:47/54, Alk Phos / T Bili:1059/0.7,
   Amylase / Lipase:20/9, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.2 g/dL, LDH:1110 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.2 mg/dL
   Imaging: ECHO [**2-3**]:
   No thrombus is seen in the left atrial appendage. No atrial septal
   defect is seen by 2D or color Doppler. Overall left ventricular
   systolic function is normal (LVEF>55%). There are complex, nonmobile
   (>4mm) atheroma in the descending thoracic aorta. The aortic valve
   leaflets (3) are moderately thickened. No masses or vegetations are
   seen on the aortic valve. Trace aortic regurgitation is seen. The
   mitral valve leaflets and chorda tendinae are mildly thickened with a
   characteristic rheumatic deformity of the valve. The posterior mitral
   leaflet is thickened and largely immobilized. There is, however, no
   mitral stenosis. No mass or vegetation is seen on the mitral valve.
   Mild-to-moderate ([**11-23**]+) mitral regurgitation is seen. The tricuspid
   valve leaflets are mildly thickened. There is no vegetation of the
   tricuspid valve.
   IMPRESSION: No endocarditis. Mild rheumatic valvular disease. Complex
   and extensive aortic atheroma.
   [**2-3**] Portable:
   The ET tube tip is 4 cm above the carina.  The right PICC line tip is
   in
   distal SVC.  The NG tube tip is in the stomach.The double-lumen
   catheter
   inserted through left jugular approach terminates at the cavoatrial
   junction.
   The cardiomediastinal silhouette is stable.  There is no significant
   change in
   widespread parenchymal opacities compared to the previous study with
   only
   minimal improvement in the perihilar area suggesting resolution of
   underlying
   pulmonary edema.
   Microbiology: CMV : 14,900 copies/ml on [**2-1**] prior to gangcyclovir
   (original 46,000)
   Blood/Urine Cx from [**1-29**] + [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid
   Urine & RIJ Culture tip for [**1-30**] + [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid
   All other repeat Cx NGTD
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure,
   massive volume overload, [**Last Name (un) 1591**] bacteremia & CMV viremia.
   # Hypoxia - Etiology of prolonged hypoxia due ARDS & volume overload,
   no current e/o addl VAP on sputum Cx & CXR not convincing for new
   infiltrate & sputum cultures NGTD. Pt had some difficultly oxygenating
   after EGD, addl barriers are massive volume overload and underlying
   ARDS.  Will attempt to wean PEEP as pO2 112 today
   - continue CVVH for volume removal
   - continue broad spectrum abx Day 6 Linezolid, Meropenem, Caspofungin,
   Flagyl
   - induced sputum cx NGTD (PCP [**Name Initial (PRE) 365**])
   - surgery consulted for trach placement, goal of <10 PEEP
   # Hypotension
continues to be intermittently hypotensive but requiring
   only min amounts of levo, etiology more likely due to intravasc volume
   depletion with CVVH,  Cultures have been NGTD from [**1-31**], [**2-1**] &  [**2-2**].
   Blood Cx from [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, but blood species
   sensitive to Tetracycline not urine. D/w ID, unclear if these are
   clearly different species (all sensitive to Linezolid)
   - continue broad spectrum ABx with now Day 6 Linezolid, Meropenem,
   Caspofungin & Flagyl
   - f/u remaining urine, blood & sputum cultures
   - continue Gancyclovir for CMV viremia
   - steroids d/c
   - continue levothyroxine
   .
   # GI - h/o GIB in [**2127**] & EGD confirmed gastritis, no acute bleed. HCT
   remains stable.
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   .
   # Elev Alk Phos/LDH: Etiology of elev AP & LDH unclear but T. Bili is
   WNL.  Transaminitis & Alk phos may be due to CMV virus, but unusual
   presentation.  Occult malignancy work up, has been neg to date, AFP of
   3. Perform HIV screen when consentable
   Renal papillary necrosis another explanation for LDH 4 times normal &
   ARF.
   - SPEP low at 5.9  & Flow cytometry pending
   - continue Gangcyclovir for CMV viremia
   - AFP negative
   .
   # ARF/CRI - currently in oliguric renal failure, requiring CVVH.
   Etiology unclear, differential includes ATN vs drug toxicity. Renal
   papillary necrosis another explanation & c/w elev LDH & pt known to
   have atheromatous aorta, may have shattered emboli to kidney causing
   necrosis & ARF.  Pt with massive volume overload likely biggest
   correctable barrier to oxygenation.
   - continue CVVH for now, will support BP with pressors prn to get
   volume off
   - f/u renal recs
   .
   # HEME/ONC
 Pt with anemia thought [**12-24**] to CKD & profound
   thrombocytopenia noted on OSH with nadir of 20 000. H/o HIT Ab positive
   from OSH.  Plts stable in 180s now. Fibrinogen has been trending down,
   LDH elevated, FDP increased.
   - f/u daily DIC labs, no acute sign of bleeding & hct stable
   - smear shows only occais schistocytes
   - maintain active type & screen
   # CV: CAD s/p stenting in
06, ASA & Plavix held in setting of pulm
   hemorrhage. No evidence of ischemia on EKG, +trop likely [**12-24**] ARF.
   Currently in A.Fib with ongoing hypotension, holding BB currently due
   to pressor requirement.
   - CVVH for fluid removal
   - monitor HR, start Metoprolol 12.5mg [**Hospital1 **] when BP can tolerate (still
   on pressors)
   - continue ASA 81mg
   #DM2
 Decent BS control on current regimen, increased glargine,
   continue Insulin SS
   - check FSBS q2hr for now given recent steroid use
   - apprec endocrine recs
   .
   # Hypothyroid -continue Levothyroxine 50mcg IV daily
   - f/u endocrine recs
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - apprec wound care recs
   ICU Care
   Nutrition: Nutren Pulm
   Glycemic Control:  Regular insulin sliding scale & Glargine
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI [**Hospital1 **]
   VAP: HOB elevation, Mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   ID/Hypotension: WBC ct elevated today, no new fevers, continued minimal
   pressor requirement for CVVH.
   - will repeat sputum cultures & r/o C.diff.
   - cont current Abx for now
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2130-2-4**] 21:14 ------

2130-02-04 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient with the housestaff team.  I agree with
   their note inncluding assessment and plan
   HPI:
   74 yr old female, 1.5 mo admission to OSH, transferred [**1-29**]. Presented
   to OSH with sob, dx with PNA+COPD but long hospital course notable for
   intubation, multiple infectious complications. On arrival to [**Hospital1 54**],
   septic with enterococcal  line infection.  Possible VAP with new RLL
   consolidation and GPC in sputum. Now with CMV bacteremia.  On CVVH.
   24 Hour Events:
   TEE: no evidence of vegetation
   Steroids D/C's
   Intermittently requirning levophed while on CVVH
 BLOOD CULTURED - At [**2130-2-3**] 10:24 AM
 BLOOD CULTURED - At [**2130-2-3**] 10:30 AM
 TRANS ESOPHAGEAL ECHO - At [**2130-2-3**] 11:39 AM
   History obtained from Medical records, ICU team
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2130-2-3**] 06:00 PM
   Gancyclovir - [**2130-2-3**] 07:00 PM
   Meropenem - [**2130-2-4**] 04:05 AM
   Caspofungin - [**2130-2-4**] 05:00 AM
   Vancomycin - [**2130-2-4**] 05:37 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-2-3**] 11:25 AM
   Fentanyl - [**2130-2-3**] 11:25 AM
   Carafate (Sucralfate) - [**2130-2-4**] 05:37 AM
   Pantoprazole (Protonix) - [**2130-2-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-4**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.2
   HR: 105 (84 - 116) bpm
   BP: 121/58(77) {84/39(53) - 132/67(87)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  4,568 mL
                                                                  1,778 mL
   PO:
             TF:
                                                                    500 mL
                                                                    250 mL
   IVF:
                                                                  3,798 mL
                                                                  1,438 mL
   Blood products:
   Total out:
                                                                  5,597 mL
                                                                  2,344 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,029 mL
                                                                   -566 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.31/44/112/21/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   198 K/uL
   135 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   134 mEq/L
   32.9 %
   34.4 K/uL
        [image002.jpg]
                             [**2130-2-3**]  05:28 AM
                             [**2130-2-3**]  05:29 AM
                             [**2130-2-3**]  09:39 AM
                             [**2130-2-3**]  09:58 AM
                             [**2130-2-3**]  03:58 PM
                             [**2130-2-3**]  04:20 PM
                             [**2130-2-3**]  10:30 PM
                             [**2130-2-3**]  10:52 PM
                             [**2130-2-4**]  05:05 AM
                             [**2130-2-4**]  05:20 AM
   WBC
   30.4
   34.4
   Hct
   31.2
   32.9
   Plt
   181
   198
   Cr
   1.4
   1.1
   0.9
   TCO2
   23
   21
   22
   24
   23
   Glucose
   119
   113
   146
   142
   135
   Other labs: PT / PTT / INR:12.2/56.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:47/54, Alk Phos / T Bili:1059/0.7,
   Amylase / Lipase:20/9, Differential-Neuts:75.0 %, Band:8.0 %, Lymph:4.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.2 g/dL, LDH:1110 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.2 mg/dL
   Assessment and Plan
   74 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
   Hypoxemia: Ongoing volume overload - getting CVVH.  Will resend sputum
   for the possibility of VAP.  Decrease PEEP as toelrated - trach after
   PEEP < 10
   VRE bacteremia: Cont linezolid
   CMV viremia: Cont ganciclovir - no evidence of immunocompromise
   Yeast: cont caspofungin
   Renal Failure: Cont CVVH.
   Elevated alk phos: Down slightly today - no clear etiology
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-02-05 08:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - WBC ct trended up, afebrile, unable to wean from levo on CVVH
   - appears to have bloody secretions coming up from posterior pharynx &
   around ETT, not coming from OG tube to suction
   - weaned to a PEEP of 10 & FiO2 50%
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2130-2-4**] 05:00 AM
   Vancomycin - [**2130-2-4**] 05:37 AM
   Gancyclovir - [**2130-2-4**] 06:50 PM
   Meropenem - [**2130-2-5**] 03:57 AM
   Linezolid - [**2130-2-5**] 06:07 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-2-4**] 12:00 PM
   Pantoprazole (Protonix) - [**2130-2-4**] 08:03 PM
   Other medications:
   Flowsheet Data as of  [**2130-2-5**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 103 (96 - 120) bpm
   BP: 104/51(66) {82/37(50) - 133/58(78)} mmHg
   RR: 33 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  6,385 mL
                                                                  1,292 mL
   PO:
             TF:
                                                                    880 mL
   IVF:
                                                                  5,325 mL
                                                                  1,092 mL
   Blood products:
   Total out:
                                                                  7,790 mL
                                                                  3,580 mL
   Urine:
   NG:
                                                                     20 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,405 mL
                                                                 -2,288 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.41/43/96.[**Numeric Identifier 244**]/25/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 194
   Physical Examination
   GEN: NAD, diffuse scattered facial abrasions
   HEENT: skin breakdown seen on tongue
   CV: irreg/irreg no m/r/g
   RESP: coarse expiratory rhonchi bilaterally, upper airways congestion,
   no w/r
   ABD: BS present, soft, NTTP, mildly distended
   EXTR: [**12-25**]+ pitting edema bilaterally, improved
   Labs / Radiology
   141 K/uL
   8.3 g/dL
   196 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   10 mg/dL
   99 mEq/L
   134 mEq/L
   27.0 %
   26.1 K/uL
        [image002.jpg]
                             [**2130-2-4**]  05:05 AM
                             [**2130-2-4**]  05:20 AM
                             [**2130-2-4**]  11:30 AM
                             [**2130-2-4**]  11:38 AM
                             [**2130-2-4**]  03:30 PM
                             [**2130-2-4**]  03:44 PM
                             [**2130-2-4**]  10:39 PM
                             [**2130-2-4**]  10:50 PM
                             [**2130-2-5**]  05:54 AM
                             [**2130-2-5**]  06:12 AM
   WBC
   34.4
   26.1
   Hct
   32.9
   27.0
   Plt
   198
   141
   Cr
   0.9
   0.8
   0.7
   0.7
   TCO2
   23
   24
   24
   25
   28
   Glucose
   135
   138
   106
   164
   196
   Other labs: PT / PTT / INR:11.9/44.7/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:64.0 %, Band:4.0 %, Lymph:2.0
   %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.2 g/dL, LDH:955 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.1
   mg/dL
   Microbiology: C diff neg x1 from [**2-3**], 2nd pending
   Blood Cx from [**1-30**] on have been NGTD
   Sputum Cx pending from [**1-31**] NGTD
    & [**2-4**] pending
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure,
   massive volume overload, [**Month/Year (2) 1591**] bacteremia & CMV viremia.
   # Hypoxia
 resolving, weaned to PEEP of 8 this am. Etiology of
   prolonged hypoxia thought due to ARDS & volume overload.  Sputum Cx
   NGTD despite [**Month/Year (2) 1591**] bacteremia.  CXR not convincing for new infiltrate.
   Pt weaned PEEP overnight & continues to oxygenate well, likely [**12-24**]
   volume removal. New oral/pharyngeal pink secretions, not coming from
   OG. There is skin breakdown on tongue, possible extending to posterior
   pharynx.  D/w surgery regarding possible trach placement in am.
   - continue CVVH for volume removal
   - continue broad spectrum abx Day [**5-6**] for Linezolid, PO Vanco, will
   d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] today
   - induced sputum cx NGTD (PCP [**Name Initial (PRE) 365**])
   - d/w surgery re trach placement tomorrow, pt has reached goal of <10
   PEEP
   # Hypotension
intermittently hypotensive requiring only min amounts of
   levo, etiology more likely due to intravasc volume depletion with
   CVVH,  Cultures have been NGTD from [**1-31**], [**2-1**] &  [**2-2**].  Blood Cx from
   [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now day 7 of Abx and repeat
   cultures negative since [**1-31**].
   - continue ABx now Day [**5-6**] Linezolid & PO Vancomycin, will d/c
   Meropenem today
   - f/u remaining urine, blood & sputum cultures
   - continue Gancyclovir for CMV viremia
   - continue levothyroxine
   .
   # GI - h/o GIB in [**2127**] & EGD [**2-1**] confirmed gastritis. Hct dropped
   overnight, now guaic + stools, pt also producing bloody oral
   secretions.
   - recheck hct today, no acute indication for transfusion
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   .
   # Elev Alk Phos/LDH: Etiology of elev AP & LDH unclear, trended down
   today.  This may be due to CMV virus, but unusual presentation.  Occult
   malignancy w/u neg to date, AFP of 3. Will perform HIV screen when
   consentable. Renal papillary necrosis another explanation for LDH 4
   times normal in setting of ARF.  Peripheral smear shows many immature
   cells
   - SPEP low at 5.9  & Flow cytometry pending, may need BMBx in future
   - continue Gangcyclovir for CMV viremia, f/u ID recs for course of
   treatment
   - AFP negative
   # ARF/CRI - currently in oliguric renal failure, requiring CVVH.
   Etiology unclear, differential includes ATN, drug toxicity & renal
   papillary necrosis (necrosis c/w elev LDH)  Pt having successful volume
   removal with CVVH, PEEP requiremt [**Month (only) 38**] & [**Month (only) 38**] edema.
   - continue CVVH for now, will support BP with pressors prn to get
   volume off
   - profoundly low Ca & Phos, replacement scales & f/u renal recs
   .
   # HEME/ONC
h/o HIT Ab + from OSH.  Hct drop overnight from 32 to 27 &
   platelets down from 180 to 140. Fibrinogen has been trending down, LDH
   elevated, FDP increased.  Peripheral smear shows many immature cells,
   possible c/w MDS.  F/u flow cytometry, pt may need BMBx as outpt.  Pt
   having some bloody oral secretions & guaic + stools.
   - recheck hct today & hemolysis labs given current CVVH, no acute need
   for transfusion
   - f/u daily DIC labs
   - smear shows only occais schistocytes
   - maintain active type & screen
   # CV: CAD s/p stenting in
06, ASA & Plavix held in setting of pulm
   hemorrhage & guaic + stools. Pt still in A.Fib with hypotension
   requiring low dose levophed with CVVH.  Holding BB due to pressor
   requirement.
   - CVVH for fluid removal
   - holding Metoprolol until BP can tolerated
   - continue ASA 81mg
   #DM2
increased glargine & continue Insulin SS
   - f/u endocrine recs
   .
   # Hypothyroid -continue Levothyroxine 50mcg IV daily
   - f/u endocrine recs
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - apprec wound care recs
   ICU Care
   Nutrition: restart TF today with HOB elevated
   Glycemic Control:  Regular insulin sliding scale, Comments: & Glargine
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:  chlorhex/mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-02-05 11:15:00 Physician Attending Progress Note
Chief Complaint: Resporatory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
   24 Hour Events:
   Weaned to a PEEP of 8 this AM.
   Bloody oral secretions.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2130-2-4**] 05:00 AM
   Vancomycin - [**2130-2-4**] 05:37 AM
   Gancyclovir - [**2130-2-4**] 06:50 PM
   Meropenem - [**2130-2-5**] 03:57 AM
   Linezolid - [**2130-2-5**] 06:07 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-2-4**] 12:00 PM
   Pantoprazole (Protonix) - [**2130-2-4**] 08:03 PM
   Other medications:
   RISS, Synthroid, Peridex, Reglan, ASA, alb/atro, Neutra-Phos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-5**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 107 (96 - 120) bpm
   BP: 123/51(70) {82/37(50) - 133/56(78)} mmHg
   RR: 10 (10 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  6,383 mL
                                                                  3,748 mL
   PO:
             TF:
                                                                    880 mL
                                                                     98 mL
   IVF:
                                                                  5,323 mL
                                                                  3,511 mL
   Blood products:
   Total out:
                                                                  7,790 mL
                                                                  4,232 mL
   Urine:
   NG:
                                                                     20 mL
   Stool:
                                                                    350 mL
                                                                     30 mL
   Drains:
   Balance:
                                                                 -1,407 mL
                                                                   -484 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.41/43/96.[**Numeric Identifier 244**]/25/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   141 K/uL
   196 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   10 mg/dL
   99 mEq/L
   134 mEq/L
   27.0 %
   26.1 K/uL
        [image002.jpg]
                             [**2130-2-4**]  05:05 AM
                             [**2130-2-4**]  05:20 AM
                             [**2130-2-4**]  11:30 AM
                             [**2130-2-4**]  11:38 AM
                             [**2130-2-4**]  03:30 PM
                             [**2130-2-4**]  03:44 PM
                             [**2130-2-4**]  10:39 PM
                             [**2130-2-4**]  10:50 PM
                             [**2130-2-5**]  05:54 AM
                             [**2130-2-5**]  06:12 AM
   WBC
   34.4
   26.1
   Hct
   32.9
   27.0
   Plt
   198
   141
   Cr
   0.9
   0.8
   0.7
   0.7
   TCO2
   23
   24
   24
   25
   28
   Glucose
   135
   138
   106
   164
   196
   Other labs: PT / PTT / INR:11.9/44.7/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:64.0 %, Band:4.0 %, Lymph:2.0
   %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.2 g/dL, LDH:955 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.1
   mg/dL
   Imaging: CXR: Small B?L effusions
   Microbiology: C. diff neg [**2-3**]
   Blood cx NGTD [**1-30**]
   Assessment and Plan
   74 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
   Hypoxemia: Ongoing volume overload - getting CVVH.  Awating sptum cx
   for VAP, no new infiltrate on CXR.  Oxygenation improving with CVVH -
   on lower PEEP.  Now that PEEP < 10, should be ready to go for trach.
   Continues on linezolid/flagyl.  D/C meropenem.
   VRE bacteremia: Cont linezolid ([**6-5**])
   CMV viremia: Cont ganciclovir - no evidence of immunocompromise
   Yeast: cont caspofungin
   Renal Failure: Cont CVVH.
   Elevated alk phos: Down today - no clear etiology
   Bloody oral secretions: Hct down today - recheck later today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-5**] 09:00 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-02-06 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- had decreased PEEP to 8 and patient initially tolerated well.
   General surgery c/s, w/ planned trach in am.  Pt NPO at MN.  PaO2
   decreased to 63, had to increase PEEP to 10.  Will decrease back to 8
   early this morning.
   -- patient developed AF w/ RVR, started on amioderone, w/ noted
   improvedment in HR.
   -- Ran patient positive in setting of AF and boarderline hypotension.
   Started running even then negative, and tolerated well.
   -- SS increased given elevated BS.  Endocrine still pushing for insulin
   gtt, but avoiding due to wish to avoid increase intake of fluids as
   well as no access.  Switched levophed and calcium from D5 solution to
   NS.
   -- d/c'd meropenem
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2130-2-4**] 05:00 AM
   Vancomycin - [**2130-2-4**] 05:37 AM
   Gancyclovir - [**2130-2-4**] 06:50 PM
   Meropenem - [**2130-2-5**] 03:57 AM
   Linezolid - [**2130-2-5**] 06:07 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-5**] 08:19 PM
   Carafate (Sucralfate) - [**2130-2-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-6**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 87 (83 - 134) bpm
   BP: 127/51(72) {94/40(56) - 132/56(78)} mmHg
   RR: 11 (10 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,849 mL
                                                                  2,959 mL
   PO:
             TF:
                                                                    737 mL
   IVF:
                                                                  7,822 mL
                                                                  2,859 mL
   Blood products:
   Total out:
                                                                  9,927 mL
                                                                  4,407 mL
   Urine:
   NG:
   Stool:
                                                                     30 mL
   Drains:
   Balance:
                                                                 -1,078 mL
                                                                 -1,448 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.46/38/78.[**Numeric Identifier 244**]/26/2
   Ve: 10.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   9.1 g/dL
   140 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   8 mg/dL
   100 mEq/L
   137 mEq/L
   28.0 %
   37.7 K/uL
        [image002.jpg]
                             [**2130-2-5**]  11:16 AM
                             [**2130-2-5**]  11:46 AM
                             [**2130-2-5**]  02:11 PM
                             [**2130-2-5**]  04:00 PM
                             [**2130-2-5**]  04:01 PM
                             [**2130-2-5**]  06:20 PM
                             [**2130-2-6**]  12:30 AM
                             [**2130-2-6**]  12:50 AM
                             [**2130-2-6**]  06:09 AM
                             [**2130-2-6**]  06:28 AM
   WBC
   37.7
   Hct
   27.7
   28.0
   Plt
   162
   Cr
   0.5
   0.6
   0.5
   TCO2
   26
   26
   26
   27
   30
   28
   Glucose
   [**Telephone/Fax (3) 1665**]40
   Other labs: PT / PTT / INR:12.0/44.7/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:64.0 %, Band:4.0 %, Lymph:2.0
   %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.2 g/dL, LDH:960 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8
   mg/dL
   Imaging:
   CXR:  No appreciable change since the prior study.
   Microbiology: CMV Viral Load-PENDING
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-PENDING
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PENDING
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure,
   massive volume overload, [**Telephone/Fax (3) 1591**] bacteremia & CMV viremia.
   # Hypoxia
 resolving, weaned to PEEP of 8 this am. Etiology of
   prolonged hypoxia thought due to ARDS & volume overload.  However,
   fluid removal and treatment of bacteremia has not [**Last Name (un) 1667**] any
   improvement in being able to get patient off vent.  Will now be more
   suspicious of pleural effusions as patient remains vent dependent and
   w/ pressor requirment w/ suspcision of VAP.   Sputum Cx NGTD despite
   [**Last Name (un) 1591**] bacteremia.  CXR not convincing for new infiltrate.  Pt weaned PEEP
   overnight & continues to oxygenate well, likely [**12-24**] volume removal. D/w
   surgery regarding possible trach placement in today/tomorrow..
   -CT scan of chest to better evaluate effusions to see if loculated and
   requirng tap.
   - continue CVVH for volume removal.  Per renal, if we need to be more
   aggressive in getting patinet off vent, can increase pressors and
   remove fluid more aggressivly.
   - continue broad spectrum abx Day [**6-5**] for Linezolid, PO Vanco, d/c'd
   [**Last Name (un) 430**] yesterday
   - induced sputum cx NGTD (PCP [**Name Initial (PRE) 365**])
   - d/w surgery re trach placement early this week, currently NPO, pt has
   reached goal of <10 PEEP
   # Hypotension
intermittently hypotensive requiring only min amounts of
   levo, etiology more likely due to intravasc volume depletion with
   CVVH,  Cultures have been NGTD from [**1-31**], [**2-1**] &  [**2-2**].  Blood Cx from
   [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now day 7 of Abx and repeat
   cultures negative since [**1-31**].
   - continue ABx now Day [**6-5**] Linezolid & PO Vancomycin, d/c'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 430**]
   yesterday
   - f/u remaining urine, blood & sputum cultures
   - continue Gancyclovir for CMV viremia
   - continue levothyroxine, new thyroid level studies pending from this
   am
   - concern of new secondary process, possible VAP, and will have CT scan
   today
   # GI - h/o GIB in [**2127**] & EGD [**2-1**] confirmed gastritis. Hct dropped
   overnight, now guaic + stools, pt also producing bloody oral
   secretions.
   - recheck hct today, no acute indication for transfusion
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   # Elev Alk Phos/LDH: Etiology of elev AP & LDH unclear, trended down
   today.  This may be due to CMV virus, but unusual presentation.  Occult
   malignancy w/u neg to date, AFP of 3. Will perform HIV screen when
   consentable. Renal papillary necrosis another explanation for LDH 4
   times normal in setting of ARF.  Peripheral smear shows many immature
   cells
   - SPEP low at 5.9  & Flow cytometry pending, may need BMBx in future
   - continue Gangcyclovir for CMV viremia, f/u ID recs for course of
   treatment
   - AFP negative
   # ARF/CRI - currently in oliguric renal failure, requiring CVVH.
   Etiology unclear, differential includes ATN, drug toxicity & renal
   papillary necrosis (necrosis c/w elev LDH)  Pt having successful volume
   removal with CVVH, PEEP requiremt [**Month (only) 38**] & [**Month (only) 38**] edema.
   - continue CVVH for now, will support BP with pressors prn to get
   volume off
   - profoundly low Ca & Phos, replacement scales & f/u renal recs
   .
   # HEME/ONC
h/o HIT Ab + from OSH.  Hct drop overnight from 32 to 27 &
   platelets down from 180 to 140. Fibrinogen has been trending down, LDH
   elevated, FDP increased.  Peripheral smear shows many immature cells,
   possible c/w MDS.  F/u flow cytometry, pt may need BMBx as outpt.  Pt
   having some bloody oral secretions & guaic + stools.
   - recheck hct today & hemolysis labs given current CVVH, no acute need
   for transfusion
   - f/u daily DIC labs
   - smear shows only occais schistocytes
   - maintain active type & screen
   # CV: CAD s/p stenting in
06, ASA & Plavix held in setting of pulm
   hemorrhage & guaic + stools. Pt still in A.Fib with hypotension
   requiring low dose levophed with CVVH.  Holding BB due to pressor
   requirement.  Pt w/ AF w/ RVR limiting ability to remove fluid.
   Bolused and started on amioderone, w/ adequate affect.
   - CVVH for fluid removal
   - holding Metoprolol until BP can tolerated
   - continue ASA 81mg
   - continue amioderone
   #DM2
increased glargine & continue Insulin SS
   - adjusted imputs to reduce D5, and increased SS\
   - avoiding isulin gtt to avoid
   - f/u endocrine recs
   # Hypothyroid -continue Levothyroxine 50mcg IV daily
   - f/u endocrine recs
   - f/u morning studies
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - apprec wound care recs
   ICU Care
   Nutrition:
   Comments: TC
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-02-06 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday, Afib with RVR.
   CVVH stopped, started on amiodarone, bolused IVF
   Meropenem d/c'd.
                   Patient unable to provide history: Unresponsive, intubated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2130-2-4**] 05:00 AM
   Gancyclovir - [**2130-2-4**] 06:50 PM
   Meropenem - [**2130-2-5**] 03:57 AM
   Linezolid - [**2130-2-5**] 06:07 AM
   Vancomycin - [**2130-2-6**] 08:19 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-6**] 08:18 AM
   Carafate (Sucralfate) - [**2130-2-6**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-6**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 82 (82 - 134) bpm
   BP: 99/44(60) {94/40(56) - 132/55(78)} mmHg
   RR: 24 (11 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,849 mL
                                                                  3,474 mL
   PO:
             TF:
                                                                    737 mL
   IVF:
                                                                  7,822 mL
                                                                  3,324 mL
   Blood products:
   Total out:
                                                                  9,927 mL
                                                                  4,407 mL
   Urine:
   NG:
   Stool:
                                                                     30 mL
   Drains:
   Balance:
                                                                 -1,078 mL
                                                                   -932 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.46/38/78.[**Numeric Identifier 244**]/26/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   162 K/uL
   140 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   8 mg/dL
   100 mEq/L
   137 mEq/L
   28.0 %
   37.7 K/uL
        [image002.jpg]
                             [**2130-2-5**]  11:16 AM
                             [**2130-2-5**]  11:46 AM
                             [**2130-2-5**]  02:11 PM
                             [**2130-2-5**]  04:00 PM
                             [**2130-2-5**]  04:01 PM
                             [**2130-2-5**]  06:20 PM
                             [**2130-2-6**]  12:30 AM
                             [**2130-2-6**]  12:50 AM
                             [**2130-2-6**]  06:09 AM
                             [**2130-2-6**]  06:28 AM
   WBC
   37.7
   Hct
   27.7
   28.0
   Plt
   162
   Cr
   0.5
   0.6
   0.5
   TCO2
   26
   26
   26
   27
   30
   28
   Glucose
   [**Telephone/Fax (3) 1665**]40
   Other labs: PT / PTT / INR:12.0/44.7/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:64.0 %, Band:4.0 %, Lymph:2.0
   %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.2 g/dL, LDH:960 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8
   mg/dL
   Fluid analysis / Other labs: WBC increaase noted. Yesterday was 26
   Imaging: CXR - slight improvement in aeration, otherwise unchanged. ETT
   ok.
   Assessment and Plan
   74 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
   RESP
   Acute respiratory failure: ongoing volume overload - getting CVVH.
   Awating sptum cx for VAP, no new infiltrate on CXR.  Oxygenation
   improving with CVVH - on lower PEEP.  Now that PEEP < 10, should be
   ready to go for trach.  Continues on linezolid/flagyl.  D/C meropenem.
   ID issues
   Leukocytosis - remains pressor dependent intermittently. c diff
   pending, empirically being treated. CMV and VRE bacteremia, on
   treatment. Small but complicated appearing pleural effusions, question
   of empyema. Repeat CT chest.
   Sepsis / VRE bacteremia: Cont linezolid ([**6-5**])
   CMV viremia: cont ganciclovir - no evidence of immunocompromise
   OTHER
   Afib with RVR - on amio
   Renal Failure: cont CVVH as tolerated.
   Elevated alk phos:  no clear etiology
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: PPI and sucralfate
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 min of critical care time
   Patient is critically ill

2130-02-07 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per gen [**Doctor First Name 458**], trach at bedside today
   - levothyroxine increased to 75mg qd
   - chest CT performed, report below
   - flow cytometry prelim negative
   - continues to require low dose levo
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2130-2-5**] 03:57 AM
   Gancyclovir - [**2130-2-6**] 08:33 PM
   Linezolid - [**2130-2-7**] 06:06 AM
   Vancomycin - [**2130-2-7**] 06:06 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-6**] 08:00 PM
   Carafate (Sucralfate) - [**2130-2-7**] 06:06 AM
   Other medications:
   Flowsheet Data as of  [**2130-2-7**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 108 (82 - 108) bpm
   BP: 105/49(68) {91/40(53) - 138/60(81)} mmHg
   RR: 19 (6 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  7,825 mL
                                                                  2,664 mL
   PO:
             TF:
                                                                    121 mL
                                                                    224 mL
   IVF:
                                                                  7,155 mL
                                                                  2,189 mL
   Blood products:
   Total out:
                                                                 10,875 mL
                                                                  3,571 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,050 mL
                                                                   -907 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.47/37/85.[**Numeric Identifier 128**]/25/3
   Ve: 9.6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: NAD, does not respond to commands
   HEENT: face abrasions scabbed over, skin breakdown on tongue
   CV: irreg/irreg
   RESP: coarse BS bilaterally, rhoncherous BS over upper airways
   ABD: soft, NT/ND, NABS
   EXTR: 2+pitting edema, overall improved
   Labs / Radiology
   153 K/uL
   8.6 g/dL
   142 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.6 %
   32.6 K/uL
        [image002.jpg]
                             [**2130-2-5**]  06:20 PM
                             [**2130-2-6**]  12:30 AM
                             [**2130-2-6**]  12:50 AM
                             [**2130-2-6**]  06:09 AM
                             [**2130-2-6**]  06:28 AM
                             [**2130-2-6**]  09:31 AM
                             [**2130-2-6**]  04:29 PM
                             [**2130-2-6**]  06:34 PM
                             [**2130-2-7**]  03:54 AM
                             [**2130-2-7**]  04:05 AM
   WBC
   37.7
   32.6
   Hct
   28.0
   25.6
   Plt
   162
   153
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   27
   30
   28
   27
   28
   Glucose
   116
   140
   136
   75
   142
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:55.0 %, Band:20.0 %,
   Lymph:10.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:960 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: Flow Cytometry Pathology: Non-specific
   T-cell dominant lymphoid profile; diagnostic immunophenotypic features
   of involvement by B-cell lymphoma are not seen in specimen. Correlation
   with clinical findings is recommended. Flow cytometry immunophenotyping
   may not detect all lymphomas due to topography, sampling or artifacts
   of sample preparation
   Imaging: CT Chest:
   1.  Widespread ground-glass opacities with dependent consolidation.
   The
   findings are consistent with the given history of ARDS.  Given
   additional
   septal thickening and pleural effusions, an element of superimposed
   hydrostatic edema is suspected.  A superimposed infection can also not
   be
   excluded in the setting of widespread parenchymal abnormality.
   2.  Colon wall thickening at the splenic flexure suggestive of colitis
   as
   previously described on the CT of [**2130-1-30**].
   3.  Appropriate position of endotracheal tube.
   4.  Stable right adrenal adenoma.
   5.  Diffuse enlargement of the thyroid gland.  Correlate with
   biochemical
   markers.
   Microbiology: C Diff neg x 4
   [**2130-1-31**] 7:45 pm SPUTUM
      GRAM STAIN (Final [**2130-1-31**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2130-2-2**]):
         OROPHARYNGEAL FLORA ABSENT.
         YEAST.    SPARSE GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):
         YEAST.
      ACID FAST SMEAR (Final [**2130-2-1**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   All Blood Cx since [**1-31**] NGTD
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure on CVVH
   for volume removal, [**Month/Year (2) 1591**] bacteremia & CMV viremia.
   # Hypoxia
 resolving, weaned to PEEP of 5 this am. Etiology of
   prolonged hypoxia thought due to ARDS & volume overload.  Successfully
   weaning PEEP with progressive volume removal  Remains pressor dependant
   with CVVH but no culture e/o VAP. Sputum Cx NGTD despite [**Month/Year (2) 1591**]
   bacteremia.  CT showed ground glass opacities & dependant consolidation
   c/w ARDS
   - continue CVVH for volume removal, continue pressors prn to remove
   fluid more aggressively
   - continue broad spectrum abx Day [**7-6**] for Linezolid, PO Vanco, d/c'd
   [**Last Name (un) 430**] yesterday
   - per [**Doctor First Name **], will have trach placed today, holding TF
   # Hypotension
intermittently hypotensive requiring only minimal
   amounts of levo, etiology more likely due to intravasc volume depletion
   with CVVH,  Cultures have been NGTD from [**1-31**], [**2-1**] &  [**2-2**].  Blood Cx
   from [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now day 8 of Abx and
   repeat cultures negative since [**1-31**]. CT scan c/w colitis & ARDS, no e/o
   loculated effusions. Cdiff neg x 4.  Per attending, will d/c po Vanc
   today.
   - continue ABx now Day [**7-6**] Linezolid
   - f/u remaining urine, blood & sputum cultures
   - continue Gancyclovir for CMV viremia
   - continue levothyroxine 75mcg IV daily
   # GI - h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Hct essentially
   stable with guaic + stools.  Bloody oral secretions improved.
   - transfuse for goal hct >23
   - plan for trach placement today, [**Month (only) 38**] oral mucosa breakdown
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   # Elev Alk Phos/LDH: Etiology unclear, trended down today.  Occult
   malignancy w/u neg to date, AFP of 3. CMV possible etiology, thought
   atypical presentation.  Will perform HIV screen when consentable. Renal
   papillary necrosis another explanation for LDH 4 times normal in
   setting of ARF.  Peripheral smear shows many immature cells
   - may need BMBx in future
   - continue Gangcyclovir for CMV viremia
   # ARF/CRI - oliguric renal failure, requiring CVVH.  Etiology unclear,
   differential includes ATN, drug toxicity & renal papillary necrosis
   (necrosis c/w elev LDH)  Pt having successful volume removal with CVVH,
   [**Month (only) 38**] PEEP requiremt & [**Month (only) 38**] edema.
   - continue CVVH for now, will support BP with pressors prn to get
   volume off
   - profoundly low Ca & Phos, replacement scales & f/u renal recs
   - will straight cath today to establish if any urine being produced
   # HEME/ONC: h/o HIT Ab + .Peripheral smear shows many immature cells,
   possible c/w MDS, may need BMBx when medical stable. Flow cytometry
   shows lymphoid predominance, no e/o B cell lymphoma. Pt has been having
   bloody oral secretions & guaic + stools. Hct has trended down to 25.6,
   labs shows dropping haptoglobin but Tbili 0.8 & no schistocytes seen on
   smear.  (likely extravascular hemolysis [**12-24**] CVVH)
   - no acute need for transfusion, goal hct >23
   - maintain active type & screen
   # CV: CAD s/p stenting in
06, pt currently A.Fib with hypotension
   requiring low dose levophed with CVVH. On [**2-5**], pt went into AF w/ RVR
   c/b hypotension limiting ability to remove fluid.  Bolused with
   amiodarone, still having break through rates of >130.
   Start amiodarone 200mg TID today and titrate up for approp 9gram load.
   - CVVH for fluid removal, holding BB while using levo to maintain BP
   - continue ASA 81mg
   - continue amiodarone
   #DM2
increased glargine & continue Insulin SS, adjusted meds to avoid
   D5
   - f/u endocrine recs
   # Hypothyroid - continue Levothyroxine 75mcg IV daily
   - f/u endocrine recs
   # SKIN - multiple areas of skin breakdown, though no frank ulcers.
   - apprec wound care recs
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2130-2-7**] 04:08 AM 40 mL/hour
   Glycemic Control:  Glargine & ISS
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:  DVT: pneumoboots
   Stress ulcer: ppi [**Hospital1 **]
   VAP:  chlorhex
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2130-02-07 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Synthroid dose increased.
   CVVH continued.
   Remains on low dose levophed for BP support
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2130-2-5**] 03:57 AM
   Gancyclovir - [**2130-2-6**] 08:33 PM
   Linezolid - [**2130-2-7**] 06:06 AM
   Vancomycin - [**2130-2-7**] 06:06 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-2-7**] 06:06 AM
   Pantoprazole (Protonix) - [**2130-2-7**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-7**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 113 (83 - 113) bpm
   BP: 105/45(63) {91/40(53) - 138/60(81)} mmHg
   RR: 26 (6 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  7,825 mL
                                                                  3,851 mL
   PO:
             TF:
                                                                    121 mL
                                                                    369 mL
   IVF:
                                                                  7,155 mL
                                                                  3,197 mL
   Blood products:
   Total out:
                                                                 10,875 mL
                                                                  5,311 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,050 mL
                                                                 -1,460 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.47/37/85.[**Numeric Identifier 128**]/25/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   153 K/uL
   142 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.6 %
   32.6 K/uL
        [image002.jpg]
                             [**2130-2-5**]  06:20 PM
                             [**2130-2-6**]  12:30 AM
                             [**2130-2-6**]  12:50 AM
                             [**2130-2-6**]  06:09 AM
                             [**2130-2-6**]  06:28 AM
                             [**2130-2-6**]  09:31 AM
                             [**2130-2-6**]  04:29 PM
                             [**2130-2-6**]  06:34 PM
                             [**2130-2-7**]  03:54 AM
                             [**2130-2-7**]  04:05 AM
   WBC
   37.7
   32.6
   Hct
   28.0
   25.6
   Plt
   162
   153
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   27
   30
   28
   27
   28
   Glucose
   116
   140
   136
   75
   142
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:55.0 %, Band:20.0 %,
   Lymph:10.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:960 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR reviewed
   Thickening of colon on CT
   Microbiology: Cdiff neg x 4
   Assessment and Plan
   74 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
   RESP
   Acute respiratory failure: ongoing volume overload - tolerating CVVH
   with negative daily balances. Bibasilar infiltrates with small
   effusions on CT.  Oxygenation (PEEP and FiO2) improving with CVVH. Will
   likely get trach this week. Continues on linezolid/flagyl. Off
   meropenem.
   ID issues
   Leukocytosis - remains pressor dependent intermittently. c diff neg x4,
   empirically being treated - can d/c PO vanco. CMV and VRE bacteremia,
   on treatment. Small but complicated appearing pleural effusions,
   question of empyema but small and likely due to volume overload in
   setting of hypoalbuminemia.
   Sepsis / VRE bacteremia: Cont linezolid ([**6-5**])
   CMV viremia: cont ganciclovir - no evidence of immunocompromise
   Leukocytosis but slightly improved. [**2-6**] diff showed 20% bands and
   myelocytes.
   OTHER
   Afib with RVR - on amio
   Renal Failure: cont CVVH as tolerated.
   Elevated alk phos:  no clear etiology
   Possible hematologic malignancy vs MDS - will involve hematology for BM
   bx though not urgent.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-7**] 04:08 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes of critical care time
   Patient is critically ill

2130-02-08 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned to PEEP of 5, FiO2 of 40%
   - s/p trach placement at bedside, NG tube placed
   - PO Vanc d/c'd
   - plan for SBT in am
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-2-7**] 06:06 AM
   Gancyclovir - [**2130-2-7**] 08:28 PM
   Linezolid - [**2130-2-8**] 05:51 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-7**] 08:27 PM
   Carafate (Sucralfate) - [**2130-2-8**] 05:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-8**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 104 (104 - 137) bpm
   BP: 112/44(64) {101/39(57) - 158/67(96)} mmHg
   RR: 21 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,151 mL
                                                                  2,477 mL
   PO:
             TF:
                                                                    452 mL
                                                                    299 mL
   IVF:
                                                                  7,278 mL
                                                                  1,998 mL
   Blood products:
   Total out:
                                                                 10,101 mL
                                                                  2,957 mL
   Urine:
                                                                     50 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,950 mL
                                                                   -480 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 484 (459 - 484) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   RSBI Deferred: Hemodynamic Instability
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.47/35/80.[**Numeric Identifier 248**]/25/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Eyes open,
   dried blood on face
   Head, Ears, Nose, Throat: Tached
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, 2+ UE
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   8.1 g/dL
   71 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.5 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   23.9 %
   32.2 K/uL
        [image002.jpg]
                             [**2130-2-6**]  06:34 PM
                             [**2130-2-7**]  03:54 AM
                             [**2130-2-7**]  04:05 AM
                             [**2130-2-7**]  10:00 AM
                             [**2130-2-7**]  10:20 AM
                             [**2130-2-7**]  03:15 PM
                             [**2130-2-7**]  03:37 PM
                             [**2130-2-7**]  10:25 PM
                             [**2130-2-8**]  04:06 AM
                             [**2130-2-8**]  04:45 AM
   WBC
   32.6
   32.9
   32.2
   Hct
   25.6
   26.4
   23.9
   Plt
   153
   188
   143
   Cr
   0.5
   0.5
   0.4
   TCO2
   27
   28
   27
   27
   29
   26
   Glucose
   142
   93
   111
   71
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:960 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.1 mg/dL
   Imaging: In comparison with study of [**2-6**], the area of apical
   opacification
   on the right is less prominent.  The extensive opacification at the
   right base
   persists.  Does this patient have any history consistent with pulmonary
   embolism and infarction?
   Microbiology: CMV Viral Load-PENDING
   BCX Pending x 6
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure on CVVH
   for volume removal, [**Date Range 1591**] bacteremia & CMV viremia.
   # Hypoxia
 resolving, weaned to PEEP of 5 and tolerating well.
   Etiology of prolonged hypoxia thought due to ARDS & volume overload.
   Successfully weaning PEEP with progressive volume removal . Only Cx
   positive to date is for [**Date Range 1591**] bacteremia believed to be secondary to line
   sepsis, and no positive sputum cultures.  CT showed ground glass
   opacities & dependant consolidation c/w ARDS.  Patient trached [**2-7**] w/o
   complication.  CXR has shown smalller lung volumes w/ likely
   derecruitment.  Attempts at trach [**Last Name (un) 1696**] today showed lower PaO2, and
   patient restarted on CPAP.
   - continue CVVH for volume removal, continue pressors prn to remove
   fluid more aggressively
   - continue broad spectrum abx Day [**8-6**] for Linezolid, PO Vanco, d/c'd
   [**Last Name (un) 430**]
   # Hypotension
intermittently hypotensive requiring only minimal
   amounts of levo, etiology more likely due to intravasc volume depletion
   with CVVH despite total body volume overlaod,  Cultures have been NGTD
   from [**1-31**], [**2-1**] &  [**2-2**].  Blood Cx from [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to
   Linezolid, now day 9 of Abx and repeat cultures negative since [**1-31**]. CT
   scan c/w colitis & ARDS, no e/o loculated effusions. Cdiff neg x 4.
   - continue ABx now Day [**8-6**] Linezolid
   - f/u remaining urine, blood & sputum cultures
   - continue Gancyclovir for CMV viremia
   - continue levothyroxine 75mcg IV daily
   # GI - h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Hct essentially
   stable with guaic + stools.  Bloody oral secretions improved.  Some
   degree of anemai may be from marrow suppression for possible
   hemotologic malignancy.
   - transfuse for goal hct >23
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   # Elev Alk Phos/LDH: Etiology unclear..  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Will perform HIV screen when consentable. Peripheral smear shows many
   immature cells, possible c/w MDS, may need BMBx when medical stable.
   Flow cytometry shows lymphoid predominance, no evidence of B cell
   lymphoma.
   - may need BMBx in future, will discuss w/ BMT
   - continue Gangcyclovir for CMV viremia
   # ARF/CRI - oliguric renal failure, requiring CVVH.  Etiology unclear,
   differential includes ATN or drug toxicity.  Pt having successful
   volume removal with CVVH, [**Month (only) 38**] PEEP requiremt & [**Month (only) 38**] edema.  50cc of
   urine on straight cath yesterday
   - continue CVVH for now, will support BP with pressors prn to get
   volume off
   - profoundly low Ca & Phos, replacement scales & f/u renal recs
   # Anemia: h/o HIT Ab + . Pt has been having bloody oral secretions &
   guaic + stools. Hct has trended down to 25.6, labs shows dropping
   haptoglobin but Tbili 0.8 & no schistocytes seen on smear.  (likely
   extravascular hemolysis [**12-24**] CVVH)
   - no acute need for transfusion, goal hct >23
   - maintain active type & screen
   - consider hem/onc once other issues stabilized
   # CV: CAD s/p stenting in
06, pt currently A.Fib with hypotension
   requiring low dose levophed with CVVH. On [**2-5**], pt went into AF w/ RVR
   c/b hypotension limiting ability to remove fluid.  Bolused with
   amiodarone, still having break through rates of >130.
   Start amiodarone 200mg TID today and titrate up for approp 9gram load.
   - CVVH for fluid removal, holding BB while using levo to maintain BP
   - continue ASA 81mg
   - continue amiodarone
   #DM2
increased glargine & continue Insulin SS, adjusted meds to avoid
   D5
   - f/u endocrine recs
   # Hypothyroid - continue Levothyroxine 75mcg IV daily
   - f/u endocrine recs
   # General care
   Wound manemgent
    - multiple areas of skin breakdown, though no frank ulcers.
   - apprec wound care recs
   Feeding:  Currently w/ NG tube for TF.  Will need to discuss PEG w/
   HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-7**] 10:28 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-08 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Bedside trach yesterday
   Tolerating trach collar 70% O2, with sats 100%.
   Net negative 2L/24 hrs
   Off levophed
   Patient unable to provide history: Sedated, Not interactive
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-2-7**] 06:06 AM
   Gancyclovir - [**2130-2-7**] 08:28 PM
   Linezolid - [**2130-2-8**] 05:51 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) -[**2130-2-7**] 8PM
   Carafate (Sucralfate) - [**2130-2-8**] 5 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-8**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 104 (104 - 137) bpm
   BP: 112/44(64) {101/39(57) - 158/67(96)} mmHg
   RR: 21 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,151 mL
                                                                  3,429 mL
   PO:
             TF:
                                                                    452 mL
                                                                    435 mL
   IVF:
                                                                  7,278 mL
                                                                  2,674 mL
   Blood products:
   Total out:
                                                                 10,101 mL
                                                                  4,263 mL
   Urine:
                                                                     50 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,950 mL
                                                                   -834 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 484 (459 - 484) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.46/34/61/25/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach collar
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed, opens eyes,
   not responding
   Labs / Radiology
   8.1 g/dL
   143 K/uL
   71 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.5 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   23.9 %
   32.2 K/uL
        [image002.jpg]
                             [**2130-2-7**]  03:54 AM
                             [**2130-2-7**]  04:05 AM
                             [**2130-2-7**]  10:00 AM
                             [**2130-2-7**]  10:20 AM
                             [**2130-2-7**]  03:15 PM
                             [**2130-2-7**]  03:37 PM
                             [**2130-2-7**]  10:25 PM
                             [**2130-2-8**]  04:06 AM
                             [**2130-2-8**]  04:45 AM
                             [**2130-2-8**]  10:17 AM
   WBC
   32.6
   32.9
   32.2
   Hct
   25.6
   26.4
   23.9
   Plt
   153
   188
   143
   Cr
   0.5
   0.5
   0.4
   TCO2
   28
   27
   27
   29
   26
   25
   Glucose
   142
   93
   111
   71
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.1 mg/dL
   Microbiology: Blood cultures neg x 6
   Assessment and Plan
   79 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
   1. Acute respiratory failure s/p trach [**2-7**]: significant improvement,
   now on trach collar. Ongoing volume overload, tolerating CVVH with
   negative balances. Bibasilar infiltrates with small effusions on CT.
   Continues on linezolid/flagyl. Off meropenem.
   2. Leukocytosis - remains pressor dependent intermittently. c diff neg
   x4, empirically being treated - off PO vanc and meropenem. CMV and VRE
   bacteremia, on treatment. Complicated appearing pleural effusions,
   possibility of empyema but small and likely due to volume overload in
   setting of hypoalbuminemia.
   3. Sepsis / VRE bacteremia: Cont linezolid ([**7-6**])
   4. CMV viremia: cont ganciclovir - no evidence of immunocompromise
   5. Leukocytosis but slightly improved. [**2-6**] diff showed 20% bands and
   immature cells.
   6. Afib with RVR - on amio, suboptimal rate control
   7. Oliguric renal failure: cont CVVH.
   8. Elevated alk phos:  no clear etiology
   9. Possible hematologic malignancy vs MDS - will involve hematology for
   BM bx though not urgent.
   10. Hypothyroidism: on IV levothyroxine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-7**] 10:28 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 min critical care time
   Patient is critically ill

2130-02-09 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2130-2-8**] 11:47 AM
   -- decruited on trach collar by CXR and PaO2 of 61.  Restarted on CPAP
   and showed improved ABG
   -- patient negative 3.2 L yesterday
   -- Heme/Onc curbsided, they spoke to heme pathologist who felt that was
   simply reaction to infection.
   -- Did not have opportunity to discuss PEG w/ family
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-2-7**] 06:06 AM
   Gancyclovir - [**2130-2-8**] 07:42 PM
   Linezolid - [**2130-2-9**] 05:46 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-8**] 07:42 PM
   Other medications:
   Flowsheet Data as of  [**2130-2-9**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 120 (107 - 129) bpm
   BP: 128/54(79) {109/42(63) - 155/66(95)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  7,506 mL
                                                                  2,288 mL
   PO:
             TF:
                                                                  1,102 mL
                                                                    336 mL
   IVF:
                                                                  5,904 mL
                                                                  1,852 mL
   Blood products:
   Total out:
                                                                 10,733 mL
                                                                  2,224 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,227 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 645 (426 - 645) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/37/95.[**Numeric Identifier 607**]/24/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Labs / Radiology
   149 K/uL
   7.9 g/dL
   95 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   8 mg/dL
   105 mEq/L
   138 mEq/L
   24.1 %
   36.0 K/uL
        [image002.jpg]
                             [**2130-2-8**]  09:48 AM
                             [**2130-2-8**]  10:17 AM
                             [**2130-2-8**]  12:49 PM
                             [**2130-2-8**]  04:25 PM
                             [**2130-2-8**]  06:00 PM
                             [**2130-2-8**]  08:09 PM
                             [**2130-2-8**]  11:38 PM
                             [**2130-2-9**]  12:18 AM
                             [**2130-2-9**]  05:25 AM
                             [**2130-2-9**]  05:45 AM
   WBC
   31.7
   36.0
   Hct
   26.0
   24.1
   Plt
   167
   149
   Cr
   0.4
   0.5
   0.4
   TCO2
   25
   25
   25
   25
   26
   Glucose
   189
   214
   279
   90
   95
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.4 mg/dL
   CMV Viral Load [**2130-2-6**]--652 copies
   Sputum [**2-4**] NGTD
   Assessment and Plan
   79F h/o F with respiratory failure/ARDS, oliguric renal failure on CVVH
   for volume removal, [**Month/Year (2) 1591**] bacteremia & CMV viremia.
   # Hypoxia
 resolving, weaned to CPAP 5/5 and tolerating well. Etiology
   of prolonged hypoxia thought due to ARDS & volume overload, CT showed
   ground glass opacities & dependant consolidation c/w ARDS. Pt
   continuing to wean with progressive volume removal . Only Cx positive
   to date is for [**Month/Year (2) 1591**] bacteremia believed to be secondary to line sepsis.
   s/p trached on [**2-7**].  CXR has shown smalller lung volumes w/ likely
   derecruitment.  Attempts at trach [**Last Name (un) 1696**] today dropped PaO2, restarted
   CPAP.
   - continue CVVH for volume removal, continue pressors prn to remove
   fluid more aggressively
   - continue abx Day [**9-5**] for Linezolid
   - sending C. diff given rise in WBC since stopping PO Vanc
   # Hypotension
intermittently hypotensive requiring only minimal
   amounts of levo, etiology more likely due to intravasc volume depletion
   with CVVH despite total body volume overlaod,  Blood Cx from [**1-29**] both
   growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now day 10 of Abx and repeat cultures
   negative since [**1-31**]. CT scan c/w colitis & ARDS, no e/o loculated
   effusions. Cdiff neg x 4, but WBC ct rising since stopping po Vanco
   - continue ABx now Day [**9-5**] Linezolid
   - f/u remaining urine, blood & sputum cultures (will sent c.diff today)
   - continue Gancyclovir for CMV viremia (last viral count from [**2-6**]
   trended down to 652)
   - continue levothyroxine 75mcg IV daily
   # ARF/CRI - oliguric renal failure, requiring CVVH.  Etiology unclear,
   differential includes ATN or drug toxicity.  Pt having successful
   volume removal with CVVH, [**Month (only) 38**] PEEP requiremt & [**Month (only) 38**] edema.
   - continue CVVH for now, will support BP with pressors prn to get
   volume off
   - profoundly low Ca & Phos, replacement scales & f/u renal recs
   # GI - h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Hct essentially
   stable with guaic + stools.
   - transfuse for goal hct >23
   - continue PPI iv bid & sucralfate.
   - maintain active T& S, guaic all stools
   # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Will perform HIV screen when consentable. Peripheral smear shows many
   immature cells, per hem/onc c/w reaction to infection, no need for
   BMBx. Flow cytometry shows lymphoid predominance, no evidence of B cell
   lymphoma.
   - continue Gangcyclovir for CMV viremia
   # Anemia: h/o HIT Ab + . Pt has been having bloody oral secretions &
   guaic + stools. Hct has trended down to 24, labs shows dropping
   haptoglobin but Tbili 0.8 & no schistocytes seen on smear.
   - no acute need for transfusion, goal hct >23
   - maintain active type & screen
   # CV: CAD s/p stenting in
06, pt currently A.Fib with hypotension
   requiring low dose levophed with CVVH. On [**2-5**], pt went into AF w/ RVR
   c/b hypotension limiting ability to remove fluid.  Bolused with
   amiodarone,
   - CVVH for fluid removal, holding BB while using levo to maintain BP
   - continue ASA 81mg
   - continue amiodarone 200mg TID
   #DM2
increased glargine & continue Insulin SS, adjusted meds to avoid
   D5
   - f/u endocrine recs
   # Hypothyroid - continue Levothyroxine 75mcg IV daily
   - f/u endocrine recs
   # Wound manemgent
    - multiple areas of skin breakdown, though no frank ulcers.
   - apprec wound care recs
   #Feeding:  Currently w/ NG tube for TF.  Will need to discuss PEG w/
   HCP.
   ICU [**Name2 (NI) **]
   Nutrition: Nutren Pulmonary (Full) - [**2130-2-9**] 05:59 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, glargine
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-02-09 12:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Put on trach [**Last Name (un) 1696**] but required to go back on vent due to desaturation.
   Remains off levophed > 24 hrs
                   Patient unable to provide history: trached
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-2-7**] 06:06 AM
   Gancyclovir - [**2130-2-8**] 07:42 PM
   Linezolid - [**2130-2-9**] 05:46 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-8**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-9**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 126 (109 - 129) bpm
   BP: 108/47(67) {108/42(63) - 155/66(95)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  7,506 mL
                                                                  3,510 mL
   PO:
             TF:
                                                                  1,102 mL
                                                                    590 mL
   IVF:
                                                                  5,904 mL
                                                                  2,670 mL
   Blood products:
   Total out:
                                                                 10,733 mL
                                                                  4,098 mL
   Urine:
   NG:
   Stool:
   270 mL
   Drains:
   Balance:
                                                                 -3,227 mL
                                                                   -588 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 304 (304 - 645) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/37/95.[**Numeric Identifier 607**]/24/0
   Ve: 13.8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trached
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Extremities: Right: 2+, Left: 2+, anasarca improving
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, more alert, opens eyes, mouths words
   Labs / Radiology
   7.9 g/dL
   149 K/uL
   95 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   8 mg/dL
   105 mEq/L
   138 mEq/L
   24.1 %
   36.0 K/uL
        [image002.jpg]
                             [**2130-2-8**]  09:48 AM
                             [**2130-2-8**]  10:17 AM
                             [**2130-2-8**]  12:49 PM
                             [**2130-2-8**]  04:25 PM
                             [**2130-2-8**]  06:00 PM
                             [**2130-2-8**]  08:09 PM
                             [**2130-2-8**]  11:38 PM
                             [**2130-2-9**]  12:18 AM
                             [**2130-2-9**]  05:25 AM
                             [**2130-2-9**]  05:45 AM
   WBC
   31.7
   36.0
   Hct
   26.0
   24.1
   Plt
   167
   149
   Cr
   0.4
   0.5
   0.4
   TCO2
   25
   25
   25
   25
   26
   Glucose
   189
   214
   279
   90
   95
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:41/47, Alk Phos / T Bili:842/0.8,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:0.9 mg/dL
   Microbiology:
   Assessment and Plan
   79 yo woman with extended respiratory failure, renal failure on CVVH,
   VRE bacteremia, CMV viremia.
    1. Acute respiratory failure s/p trach [**2-7**], significant improvement:
   didn't tolerate TC yesterday but this will problably improve with
   ongoing volume removal.
   Bibasilar infiltrates with small effusions on CT.
   2. Leukocytosis - remains pressor dependent intermittently. c diff neg
   x4, empirically being treated - off PO vanc and meropenem. CMV and VRE
   bacteremia, on treatment. Complicated appearing pleural effusions,
   possibility of empyema but small and likely due to volume overload in
   setting of hypoalbuminemia.
   3. Sepsis / VRE bacteremia: Cont linezolid ([**8-6**])
   4. CMV viremia: cont ganciclovir - no evidence of immunocompromise.
   Recheck viral load
   5. Leukocytosis: [**2-6**] diff showed 20% bands and immature cells.
   6. Afib with RVR - on amio, suboptimal rate control on amio 400mg TID
   7. Anuric renal failure: Tolerating CVVH with negative balances but
   agree with renal's plan to transition back to HD.
   8. Elevated alk phos:  no clear etiology
   9. Possible hematologic malignancy vs MDS - will involve hematology
   with this question.
   10. Hypothyroidism: on IV levothyroxine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-9**] 05:59 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: D/c carafate
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2130-02-10 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pre renal, will continue CVVH for now but likely transition to HD
   over the weekend
   - doing very well on trach collar trial
   - seen by BMT - LAP pending
   - started on lopressor 12.5 tid
   - peg discussed with family- would like to proceed with placement
   Linezolid day [**10-6**]
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-9**] 08:08 PM
   Linezolid - [**2130-2-10**] 06:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-9**] 08:08 PM
   Other medications:
   Flowsheet Data as of  [**2130-2-10**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 111 (105 - 127) bpm
   BP: 128/52(76) {99/39(58) - 133/53(78)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,279 mL
                                                                  1,993 mL
   PO:
             TF:
                                                                  1,198 mL
                                                                    336 mL
   IVF:
                                                                  6,781 mL
                                                                  1,657 mL
   Blood products:
   Total out:
                                                                  9,805 mL
                                                                  2,377 mL
   Urine:
   NG:
   Stool:
                                                                    770 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,526 mL
                                                                   -384 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 86 (86 - 304) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.40/40/98.[**Numeric Identifier 248**]/23/0
   Ve: 13.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   GEN: NAD, more alert
   CV: irreg/irreg no m/r/g
   RESP: LLL coarse BS no w/r apprec
   ABD: soft, NT/ND, BS present
   EXTR: [**11-23**]+ pitting edema all four extremities
   Sacral wounds: superficial ulcer granulating by 2ndary intention, no
   purulence
   Labs / Radiology
   152 K/uL
   7.4 g/dL
   58 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.6 mEq/L
   8 mg/dL
   106 mEq/L
   138 mEq/L
   23.5 %
   33.5 K/uL
        [image002.jpg]
                             [**2130-2-9**]  12:18 AM
                             [**2130-2-9**]  05:25 AM
                             [**2130-2-9**]  05:45 AM
                             [**2130-2-9**]  01:00 PM
                             [**2130-2-9**]  04:09 PM
                             [**2130-2-9**]  04:36 PM
                             [**2130-2-9**]  10:41 PM
                             [**2130-2-9**]  10:51 PM
                             [**2130-2-10**]  04:05 AM
                             [**2130-2-10**]  05:03 AM
   WBC
   36.0
   33.5
   Hct
   24.1
   23.5
   Plt
   149
   152
   Cr
   0.4
   0.5
   0.5
   TCO2
   25
   26
   26
   25
   25
   26
   Glucose
   95
   57
   137
   58
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:42/47, Alk Phos / T Bili:755/0.6,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.6 mg/dL
   ESR 96    LDH 755
   C. Diff Neg from [**2-9**]
   CMV VL pending
   HSV oral swab DFA pending
   Sputum from [**2-4**] NGTD
   LAP pending
   Assessment and Plan
   79F h/o F with resolving respiratory failure, oliguric renal failure on
   CVVH for volume removal, [**Month/Year (2) 1591**] bacteremia & CMV viremia.
   S/p trach on [**2-7**], tolerating trach collar well.
   # Hypoxia
 resolving, etiology of prolonged hypoxia thought due to
   ARDS & volume overload, pt has been  successfully weaned to trach
   collar for >24hrs now with progressive volume removal . Only Cx
   positive to date is for [**Month/Year (2) 1591**] bacteremia believed [**12-24**] to line sepsis, WBC
   ct remains elevated but all infectious work up neg since [**1-31**].
   - continue CVVH for volume removal, plan to transition to HD over wkd
   - continue abx Day [**10-6**] for Linezolid
   - consult s/s for passy muir valve today
   # Hypotension
resolving, off pressors over 48hrs now. Blood Cx from
   [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now day 11 of Abx and repeat
   cultures negative since [**1-31**]. CT scan showed continued colitis. Cdiff
   neg x 5 now, WBC ct still >30, afebrile
   - consider changing out lines if spikes temp
   - continue ABx now Day [**10-6**] Linezolid
   - continue Gancyclovir for CMV viremia (last viral count from [**2-6**]
   trended down to 652)
   - continue levothyroxine 75mcg IV daily
   # ARF/CRI - oliguric renal failure, with improved BPs now off pressors
   >48 hrs, plan to transition to HD on Sat per renal.  Etiology unclear,
   differential includes ATN, drug toxicity, renal papillary necrosis
   - continue CVVH for now with goal neg 1-2L/day, plan for HD after the
   wkd
   - profoundly low Ca & Phos, will continue aggressive replacement
   scales, f/u 4pm lytes
   - f/u renal recs
   # CV: CAD s/p stenting in
06, currently in A.Fib with HR much better
   controlled after addition of low dose BB. Continue CVVH for fluid
   removal, transition to HD over wkd.  D/c Amiodarone today
   - continue ASA 81mg & Metoprolol 12.5mg TID with hold parameters
   # GI - h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Hct trending down
   slowly with guaic + stools, currently 23.5
   - transfuse for goal hct >23
   - continue PPI iv bid
   - plan for PEG placement early next week
   # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Will perform HIV screen when consentable. Peripheral smear shows many
   immature cells, hem onc consulted and feel likely c/w infectious
   response
   - f/u Hem/Onc recs  (LAP pending)
   - continue Gangcyclovir for CMV viremia
   # Anemia: h/o HIT Ab + . Pt has been having bloody oral secretions &
   guaic + stools. Hct has trended down to 23.5, labs shows dropping
   haptoglobin but Tbili 0.8 & no schistocytes seen on smear.
   - no acute need for transfusion, goal hct >23
   - started Epo 10,000u 3x/wk per renal
   #DM2
increased glargine & continue Insulin SS, adjusted meds to avoid
   D5
   - f/u endocrine recs
   # Hypothyroid - continue Levothyroxine 75mcg IV daily
   - f/u endocrine recs
   # Wounds: multiple areas of sacral & facial skin breakdown, apprec
   wound care recs
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2130-2-10**] 01:51 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-02-10 12:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Heme consult pending - LAP pending
   Lopressor started
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-9**] 08:08 PM
   Linezolid - [**2130-2-10**] 06:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-9**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-10**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 94 (91 - 127) bpm
   BP: 110/47(67) {93/38(54) - 136/54(80)} mmHg
   RR: 21 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,279 mL
                                                                  3,265 mL
   PO:
             TF:
                                                                  1,198 mL
                                                                    350 mL
   IVF:
                                                                  6,781 mL
                                                                  2,825 mL
   Blood products:
   Total out:
                                                                  9,805 mL
                                                                  4,217 mL
   Urine:
   NG:
   Stool:
                                                                    770 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,526 mL
                                                                   -952 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 86 (86 - 86) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.42/38/104/22/0
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube, trached, trach collar
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant/lat)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   152 K/uL
   161 mg/dL
   0.5 mg/dL
   22 mEq/L
   5.1 mEq/L
   8 mg/dL
   107 mEq/L
   138 mEq/L
   23.5 %
   33.5 K/uL
        [image002.jpg]
                             [**2130-2-9**]  05:45 AM
                             [**2130-2-9**]  01:00 PM
                             [**2130-2-9**]  04:09 PM
                             [**2130-2-9**]  04:36 PM
                             [**2130-2-9**]  10:41 PM
                             [**2130-2-9**]  10:51 PM
                             [**2130-2-10**]  04:05 AM
                             [**2130-2-10**]  05:03 AM
                             [**2130-2-10**]  09:47 AM
                             [**2130-2-10**]  10:14 AM
   WBC
   33.5
   Hct
   23.5
   Plt
   152
   Cr
   0.5
   0.5
   TCO2
   26
   26
   25
   25
   26
   25
   Glucose
   57
   137
   58
   161
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:42/47, Alk Phos / T Bili:755/0.6,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.6 mg/dL
   Fluid analysis / Other labs: ESR 96
   LDH 755 - decreased
   Wbc 36 to 32 today
   Assessment and Plan
   79 yo woman with extended hospital stay at OSH transferred for ongoing
   respiratory failure, renal failure, volume overload, VRE bacteremia,
   CMV viremia.
   1. Acute respiratory failure s/p trach [**2-7**], significant improvement:
   tolerating TC. Bibasilar infiltrates with small effusions on CT.
   2. Leukocytosis - c diff neg x 4, off PO vanc. Off meropenem. CMV and
   VRE bacteremia, on treatment.
   Complicated appearing pleural effusions but small and likely due to
   volume overload in setting of hypoalbuminemia.
   3. Sepsis / VRE bacteremia: cont linezolid ([**10-6**])
   4. CMV viremia: cont ganciclovir - no apparent evidence of
   immunocompromise. Recheck viral load. Heme consult appreciated. Likely
   a 3 wk course. Day 9
   5. Leukocytosis: [**2-6**] diff showed 20% bands and immature cells.
   6. Afib with RVR - on amio, better rate control with addition of
   metoprolol and reducing fluid removal. Agree, we can d/c amio and
   titrate up the beta blocker.
   7. Anuric renal failure: Tolerating CVVH with negative balances but
   agree with renal's plan to transition back to HD on Monday.
   8. Elevated alk phos:  no clear etiology
   9. Possible hematologic malignancy vs MDS - will involve hematology
   with this question.
   10. Hypothyroidism: on IV levothyroxine
   11. FEN - PEG to be placed early next week
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-02-11 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 WOUND CULTURE - At [**2130-2-10**] 09:44 AM
   - weaned to trach collar, tolerating it well
   - plan for transition to HD over weekend
   - low dose BB getting good HR control, d/c'd Amiodarone
   - will need resizing of trach & PEG [**Name (NI) 570**]
   - pt spike temp of 100.1 axillary under bair hugger this am, cultured
   - blood transfusion postponed
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Day [**11-5**] Linezolid
   Day 11 Gancyclovir
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-10**] 07:54 PM
   Metoprolol - [**2130-2-11**] 12:11 AM
   Other medications:
   Flowsheet Data as of  [**2130-2-11**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 106 (90 - 111) bpm
   BP: 113/43(64) {93/37(54) - 136/54(80)} mmHg
   RR: 31 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  6,863 mL
                                                                  1,463 mL
   PO:
             TF:
                                                                    937 mL
                                                                    258 mL
   IVF:
                                                                  5,836 mL
                                                                  1,205 mL
   Blood products:
   Total out:
                                                                  6,938 mL
                                                                  1,961 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    -75 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 86 (86 - 86) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.40/39/117/24/0
   PaO2 / FiO2: 234
   Physical Examination
   GEN: NAD, comfortable
   HEENT: crusted over facial lesions
   CV: irreg/irreg no m/r/g
   RESP: coarse inspiratory sounds bilaterally, no w/r
   ABD: soft, NT, obese, ND, BS present
   Extr: +[**11-23**] pitting edema all four extremities
   Labs / Radiology
   145 K/uL
   6.9 g/dL
   66 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   9 mg/dL
   109 mEq/L
   142 mEq/L
   21.0 %
   28.9 K/uL
        [image002.jpg]
                             [**2130-2-9**]  10:41 PM
                             [**2130-2-9**]  10:51 PM
                             [**2130-2-10**]  04:05 AM
                             [**2130-2-10**]  05:03 AM
                             [**2130-2-10**]  09:47 AM
                             [**2130-2-10**]  10:14 AM
                             [**2130-2-10**]  04:00 PM
                             [**2130-2-10**]  04:29 PM
                             [**2130-2-11**]  04:03 AM
                             [**2130-2-11**]  04:19 AM
   WBC
   33.5
   28.9
   Hct
   23.5
   21.0
   Plt
   152
   145
   Cr
   0.5
   0.4
   0.4
   TCO2
   25
   26
   25
   25
   25
   Glucose
   137
   58
   161
   65
   66
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:42/47, Alk Phos / T Bili:755/0.6,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.3 mg/dL
   Microbiology: CMV Pending [**2-9**]
   HSV swab pending [**2-9**]
   C. Diff neg x 5
   [**2-4**] sputum NGTD
   Assessment and Plan
   79F h/o F with resolving respiratory failure, oliguric renal failure on
   CVVH for volume removal, [**Month/Year (2) 1591**] bacteremia & CMV viremia.
   Pt is s/p trach on [**2-7**], tolerating trach collar well, had a low grade
   temp this am.
   # Hypoxia
 resolving, etiology of prolonged hypoxia thought due to
   ARDS & volume overload, pt has been  successfully weaned to trach
   collar for >24hrs now with progressive volume removal. Only Cx positive
   to date is for [**Month/Year (2) 1591**] bacteremia believed [**12-24**] to line sepsis, WBC ct
   trended down o/n thought pt had low grade temp this am, blood & sputum
   Cx sent.
   - continue CVVH for goal neg 1L/day, plan to transition to HD [**Month/Day (2) **]
   - continue abx Day [**11-5**] for Linezolid
   - f/u blood & sputum Cx
   - trach needs to be resized for passy muir valve, will d/w surgery re
   plan for PEG & resizing
   # Hypotension
resolving, off pressors over 48hrs now. Blood Cx from
   [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now day 12 of Abx and repeat
   cultures negative since [**1-31**]. CT scan showed continued colitis. Cdiff
   neg x 5 now, WBC ct trended down o/n but pt had low grade temp this am.
   - would change out PICC line if recurrent fever
   - f/u cultures and CMV VL
   - continue ABx now Day [**11-5**] Linezolid
   - continue Gancyclovir for CMV viremia  Day 11 (touch base with ID
   regarding length of course)
   - will switch levothyroxine to 150mg po today
   # ARF/CRI
Etiology of oliguric renal failure unclear, plan to
   transition to HD on Sat per renal.  Differential includes ATN, drug
   toxicity, renal papillary necrosis
   - continue CVVH for now with goal neg 1-2L/day, plan for HD [**Month/Year (2) **]
   - profoundly low Ca & Phos, will continue aggressive replacement scales
   - f/u renal recs
   # CV: CAD s/p stenting in
06, currently in A.Fib with HR much better
   controlled after addition of low dose BB. Continue CVVH for fluid
   removal, transition to HD over wkd.
   - continue ASA 81mg & Metoprolol 25mg TID with hold parameters, titrate
   prn
   # ANEMIA
 Pt with anemia of chronic dz started on epoeitin per renal,
   +h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Hct  has trended down to
   21 with guaic + stools, currently 21.   Pt also loosing blood from
   phlebotomy & hemolysis in CVVH.
   - give 1upRBCs today, f/u post tranfusion hct with goal hct >23
   - started Epo 10,000u 3x/wk per renal
   - continue PPI [**Hospital1 **]
    # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Would perform HIV screen if pt consentable. Peripheral smear shows many
   immature cells, hem onc consulted and feel this is likely c/w
   infectious response
   - f/u Hem/Onc recs, LAP pending
   - continue Gangcyclovir for CMV viremia, f/u VL from [**2-9**]
   #DM2
Pt having low BS, standing regular insulin has been held.  Will
   review BS & adjust sliding scale today
   - continue glargine qhs
   - f/u endocrine recs
   # Hypothyroid
 switch to po Levothyroxine 150mg po daily
   - f/u endocrine recs
   # Wounds: multiple areas of sacral & facial skin breakdown, apprec
   wound care recs
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2130-2-10**] 10:16 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale & Glargine
   Lines: Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-02-11 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated trach collar yesterday
   Sats 100% on 50% O2 by TC.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-10**] 07:54 PM
   Linezolid - [**2130-2-11**] 05:58 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2130-2-11**] 12:11 AM
   Pantoprazole (Protonix) - [**2130-2-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-11**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 103 (90 - 109) bpm
   BP: 104/41(59) {96/37(57) - 123/51(73)} mmHg
   RR: 26 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  6,864 mL
                                                                  3,486 mL
   PO:
             TF:
                                                                    937 mL
                                                                    548 mL
   IVF:
                                                                  5,837 mL
                                                                  2,908 mL
   Blood products:
   Total out:
                                                                  6,938 mL
                                                                  4,281 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    -74 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 86 (86 - 86) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.40/36/128/24/-1
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t) Wheezes :
   ), coarse sounds bilat
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, eyes open, tracks
   Labs / Radiology
   6.9 g/dL
   145 K/uL
   66 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   9 mg/dL
   109 mEq/L
   142 mEq/L
   21.0 %
   28.9 K/uL
        [image002.jpg]
                             [**2130-2-9**]  10:51 PM
                             [**2130-2-10**]  04:05 AM
                             [**2130-2-10**]  05:03 AM
                             [**2130-2-10**]  09:47 AM
                             [**2130-2-10**]  10:14 AM
                             [**2130-2-10**]  04:00 PM
                             [**2130-2-10**]  04:29 PM
                             [**2130-2-11**]  04:03 AM
                             [**2130-2-11**]  04:19 AM
                             [**2130-2-11**]  10:33 AM
   WBC
   33.5
   28.9
   Hct
   23.5
   21.0
   Plt
   152
   145
   Cr
   0.5
   0.4
   0.4
   TCO2
   25
   26
   25
   25
   25
   23
   Glucose
   58
   161
   65
   66
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:42/47, Alk Phos / T Bili:755/0.6,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.3 mg/dL
   Assessment and Plan
   79 yo woman with extended hospital stay at OSH transferred for ongoing
   respiratory failure, renal failure, volume overload, VRE bacteremia,
   CMV viremia.
   1. Acute respiratory failure s/p trach on [**2-7**] with significant
   improvement: now tolerating TC but ongoing O2 needs.
   Bibasilar infiltrates with small effusions on CT.  [**Month (only) 60**] need trach
   change to cuffless, fenestrated to allow for PMV, etc.
   2. Leukocytosis - improving.
   Other ID issues: c diff neg x 4, off PO vanc. Off meropenem. CMV and
   VRE bacteremia, on treatment.
   Complicated appearing pleural effusions but small and likely due to
   volume overload in setting of hypoalbuminemia.
   3. Sepsis / VRE bacteremia: cont linezolid (day [**11-5**])
   4. CMV viremia: cont ganciclovir - no apparent evidence of
   immunocompromise. Recheck viral load. Heme consult appreciated. Likely
   a 3 wk course. Day [**9-12**]
   5. Afib with RVR - suboptimal rate control on metoprolol and reducing
   fluid removal. Off amio.
   6. Anuric renal failure: Tolerating CVVH with negative balances but
   agree with renal's plan to transition back to HD on Monday.
   7. Elevated alk phos:  no clear etiology
   8. Possible hematologic malignancy vs MDS - appreciate hematology
   consult. LAP pending. [**Month (only) 60**] been bone marrow bx.
   9. Hypothyroidism: on IV levothyroxine, will switch to PO
   10. FEN - PEG to be placed early next week
   11. Anemia - likely due to chronic disease, phlebotomies, mild
   gastritis. Agree with transfusion to keep Hct >21
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-11**] 08:14 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: Glargine
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-02-12 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- surgery called conerning resizing trach [**Last Name (un) 1696**]
   -- to begin HD monday, CVVH clotted off and will give holiday until
   then
   -- changed to PO sythroid
   --transfused 1 U PRBC
   -- started in insulin gtt per endocrine
   -- increased BB for rate control
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-11**] 08:06 PM
   Linezolid - [**2130-2-12**] 05:30 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-12**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.2
   HR: 102 (88 - 109) bpm
   BP: 98/38(58) {89/35(53) - 121/49(72)} mmHg
   RR: 27 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,408 mL
                                                                  1,051 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    338 mL
   IVF:
                                                                  6,748 mL
                                                                    649 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  9,193 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -785 mL
                                                                  1,051 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.44/43/104/27/0
   PaO2 / FiO2: 260
   Physical Examination
   Head, Ears, Nose, Throat: Trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, improved
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   157 K/uL
   8.1 g/dL
   58 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.7 mEq/L
   19 mg/dL
   106 mEq/L
   141 mEq/L
   24.1 %
   27.7 K/uL
        [image002.jpg]
                             [**2130-2-10**]  10:14 AM
                             [**2130-2-10**]  04:00 PM
                             [**2130-2-10**]  04:29 PM
                             [**2130-2-11**]  04:03 AM
                             [**2130-2-11**]  04:19 AM
                             [**2130-2-11**]  10:33 AM
                             [**2130-2-11**]  05:03 PM
                             [**2130-2-11**]  05:15 PM
                             [**2130-2-12**]  12:15 AM
                             [**2130-2-12**]  05:31 AM
   WBC
   28.9
   27.7
   Hct
   21.0
   24.1
   Plt
   145
   157
   Cr
   0.4
   0.4
   0.6
   0.7
   TCO2
   25
   25
   25
   23
   26
   28
   Glucose
   65
   66
   139
   58
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:42/47, Alk Phos / T Bili:755/0.6,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Fluid analysis / Other labs: LAP-pending
   Assessment and Plan
   79F h/o F with resolving respiratory failure, oliguric renal failure on
   CVVH for volume removal, [**Year (4 digits) 1591**] bacteremia & CMV viremia.
   Pt is s/p trach on [**2-7**], tolerating trach collar well.
   # Hypoxia
 resolving, etiology of prolonged hypoxia thought due to
   ARDS & volume overload, pt has been  successfully weaned to trach
   collar for >48hrs now with progressive volume removal. Only Cx positive
   to date is for [**Month/Year (2) 1591**] bacteremia believed [**12-24**] to line sepsis.  Patient w/
   low grade temp two nights ago, blood & sputum Cx sent. Increased thick
   secretions.  No change on CXR.
   - CVVH down, will not restart. Plan to transition to HD monday.
   - continue abx Day 13/14 for Linezolid
   - f/u blood & sputum Cx
   - surgery called about resizing trach, will look to resize wed/[**Last Name (un) 1762**]
   - family agrees to PEG, should discuss w/ surgery if can be done w/
   trach re-sizing.
   # Hypotension
had been off pressors over 72hrs, had to restart this
   morning.  . Blood Cx from [**1-29**] both growing [**First Name9 (NamePattern2) 1591**] [**Last Name (un) **] to Linezolid, now
   day 12 of Abx and repeat cultures negative since [**1-31**]. CT scan showed
   continued colitis. Cdiff neg x 5 now, WBC ct trended down.  No notable
   temperature.  Had restarted low dose levo.
   - will continue on levo, with goal for today to taper off.  Imagine as
   fluid collects w/o CVVH will not be as necessary
   - will reassess  ability to tolerate HD tomorrow.
   - unclear reason for new hypotension, no evidence of new infection
   - would change out PICC line if recurrent fever
   - f/u cultures and CMV VL
   - continue ABx now Day 13/14 Linezolid
   - continue Gancyclovir for CMV viremia  Day 12 (touch base with ID
   regarding length of course on monday)
   - switched levothyroxine to 150mg po today
   # ARF/CRI
Etiology of oliguric renal failure unclear, plan to
   transition to HD on Mon per renal.  Differential includes ATN, drug
   toxicity,
   - off CVVH, plan for HD monday
   - profoundly low Ca & Phos, will continue aggressive replacement scales
   - f/u renal recs
   # CV: CAD s/p stenting in
06, currently in A.Fib with HR much better
   controlled after addition of low dose BB. Continue CVVH for fluid
   removal, transition to HD.
   -          continue ASA 81mg & Metoprolol 25mg TID with hold parameters
   -
   # ANEMIA
 Pt with anemia of chronic dz started on epoeitin per renal,
   +h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Hct  has trended down to
   21 with guaic + stools, currently 21.   Pt also loosing blood from
   phlebotomy & hemolysis in CVVH.
   - gave 1upRBCs yesterday, will check PM hct, hct with goal >23,
   - started Epo 10,000u 3x/wk per renal
   - continue PPI [**Hospital1 **]
    # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Would perform HIV screen if pt consentable to evaluate why
   immunosupressed for CMV. Peripheral smear shows many immature cells,
   hem onc consulted and feel this is likely c/w infectious response
   - f/u Hem/Onc recs, LAP pending
   - continue Gangcyclovir for CMV viremia, f/u VL from [**2-9**]
   #DM2
Pt having low BS, started insuling gtt per endocrine, will try to
   d/c today to facilitate c/o to floor
   - f/u endocrine recs
   # Hypothyroid
 switch to po Levothyroxine 150mg po daily
   - f/u endocrine recs
    # Wounds: multiple areas of sacral & facial skin breakdown, apprec
   wound care recs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-12**] 04:08 AM 50 mL/hour
   Comments: Will need to address question of PEG tube w/ family
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Comments:
   OOB to Chair? Once off pressors
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-12 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH clotted off at 2am.
   Synthroid dose changed to PO.
   Remained afebrile.
   Transfused 1 unit PRBC
   Started on inuslin infusion.
   Back on low dose levophed.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-11**] 08:06 PM
   Linezolid - [**2130-2-12**] 05:30 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-12**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 98 (88 - 110) bpm
   BP: 107/41(61) {82/34(48) - 121/49(72)} mmHg
   RR: 31 (19 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,408 mL
                                                                  1,317 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    504 mL
   IVF:
                                                                  6,748 mL
                                                                    714 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  9,193 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -785 mL
                                                                  1,317 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.44/43/104/27/0
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bronchial breath sounds
   left base, No(t) Wheezes : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, eyes open, squeezes hands, not otherwise responsive
   Labs / Radiology
   8.1 g/dL
   157 K/uL
   58 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.7 mEq/L
   19 mg/dL
   106 mEq/L
   141 mEq/L
   24.1 %
   27.7 K/uL
        [image002.jpg]
                             [**2130-2-10**]  10:14 AM
                             [**2130-2-10**]  04:00 PM
                             [**2130-2-10**]  04:29 PM
                             [**2130-2-11**]  04:03 AM
                             [**2130-2-11**]  04:19 AM
                             [**2130-2-11**]  10:33 AM
                             [**2130-2-11**]  05:03 PM
                             [**2130-2-11**]  05:15 PM
                             [**2130-2-12**]  12:15 AM
                             [**2130-2-12**]  05:31 AM
   WBC
   28.9
   27.7
   Hct
   21.0
   24.1
   Plt
   145
   157
   Cr
   0.4
   0.4
   0.6
   0.7
   TCO2
   25
   25
   25
   23
   26
   28
   Glucose
   65
   66
   139
   58
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:42/47, Alk Phos / T Bili:755/0.6,
   Amylase / Lipase:20/9, Differential-Neuts:65.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:949 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Fluid analysis / Other labs: LAP pending
   Assessment and Plan
   79 yo woman with extended hospital stay at OSH transferred for ongoing
   respiratory failure, renal failure, volume overload, VRE bacteremia,
   CMV viremia.
   1. Acute respiratory failure s/p trach on [**2-7**] with significant
   improvement: now tolerating TC but ongoing O2 needs.
   Bibasilar infiltrates with small effusions on CT.  Will benefit from
   trach downsize to cuffless to allow for PMV. To be done next week.
   2. Leukocytosis - stable at ~ 27.
   Other ID issues: c diff neg x 4, off PO vanc. Off meropenem. CMV and
   VRE bacteremia, on treatment.
   Complicated appearing pleural effusions but small and likely due to
   volume overload in setting of hypoalbuminemia.
   3. Sepsis / VRE bacteremia: cont linezolid (day 13/14)
   4. CMV viremia: cont ganciclovir - question of malignancy. Recheck
   viral load. Heme consult appreciated. Likely a 3 wk course. Day [**10-13**]
   5. Afib with RVR - suboptimal rate control on metoprolol and reducing
   fluid removal. Off amio.
   6. Anuric renal failure: tolerated CVVH with negative balances. To
   transition to HD Monday.
   7. Elevated alk phos:  no clear etiology
   8. Possible hematologic malignancy vs MDS - appreciate hematology
   consult. LAP pending. [**Month (only) 60**] been bone marrow bx.
   9. Hypothyroidism: on IV levothyroxine, will switch to PO
   10. FEN - PEG to be placed next week
   11. Anemia - likely due to chronic disease, phlebotomies, mild
   gastritis. Agree with transfusion to keep Hct >21. Last transfusion
   [**2-11**].
   12. Code status - full but should be readdressed with family.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-12**] 04:08 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2130-02-13 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per family, pt complaining of RUQ pain though patient has not
   conveyed any pain or demonstrated pain on exam per nursing, LFTs
   trending down
   - weaned pressors but had to be restarted at 4am due to MAPs in the 60s
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-12**] 08:27 PM
   Linezolid - [**2130-2-13**] 05:50 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-12**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-13**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 91 (91 - 109) bpm
   BP: 117/42(66) {82/33(48) - 134/57(80)} mmHg
   RR: 28 (24 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,869 mL
                                                                    476 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                      3 mL
   IVF:
                                                                  1,475 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,869 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.36/47/86.[**Numeric Identifier 96**]/25/0
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   8.0 g/dL
   47 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.4 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   23.4 %
   28.3 K/uL
        [image002.jpg]
                             [**2130-2-11**]  04:03 AM
                             [**2130-2-11**]  04:19 AM
                             [**2130-2-11**]  10:33 AM
                             [**2130-2-11**]  05:03 PM
                             [**2130-2-11**]  05:15 PM
                             [**2130-2-12**]  12:15 AM
                             [**2130-2-12**]  05:31 AM
                             [**2130-2-12**]  03:12 PM
                             [**2130-2-13**]  05:40 AM
                             [**2130-2-13**]  05:52 AM
   WBC
   28.9
   27.7
   28.3
   Hct
   21.0
   24.1
   24.9
   23.4
   Plt
   145
   157
   164
   Cr
   0.4
   0.6
   0.7
   1.3
   TCO2
   25
   23
   26
   28
   28
   Glucose
   66
   139
   58
   47
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:38/38, Alk Phos / T Bili:631/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:69.0 %, Band:7.0 %, Lymph:3.0
   %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:657 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.6 mg/dL
   Micro:
   [**2130-2-11**] Blood Cx pending
   [**2130-2-11**] Sputum Cx
 1+ GPC in pairs with 2+ yeast
   CXR: team read
 increased pulmonary edema with increased vascular
   markings
   Assessment and Plan
   79F h/o F with resolving respiratory failure, oliguric renal failure on
   CVVH for volume removal, VRE bacteremia & CMV viremia.
   Pt is s/p trach on [**2-7**], tolerating trach collar well.
    # Hypoxia
 Resolving, etiology of prolonged hypoxia thought due to
   ARDS & volume overload, pt has been  successfully weaned to trach
   collar for >72hrs now with progressive volume removal; however, recent
   CXR was concerning for increased pulmonary edema in the setting of
   stopping CVVH.
   - CVVH discontinued; will follow-up with renal regarding starting CVVH
   or starting HD
   - will likely need to aim for net 1L negative today
   - continue abx Day 14/14 for Linezolid
   - f/u blood & sputum Cx
   - will follow-up with surgery regarding trach resizing for Wednesday or
   Thursday and whether this can be accomplished with PEG tube
   # Hypotension  had been off pressors over 72hrs, had to restart this
   morning. Etiology of her recurrent hypotension is unclear. Differential
   includes infection, although no new etiology, complaint, or source at
   this time. Additional possibility include cardiogenic etiology. Patient
   would likely not be able to complain about chest pain or additional
   symptoms. Plan is the following:
   - follow-up cultures
   - aim to wean off levo
   - check echo to check for new wall motion abnormality
   - will reassess  ability to tolerate HD today given that patient has
   required pressors overnight
   - would change out PICC line if recurrent fever
   - f/u cultures and CMV VL
   - continue ABx now Day 14/14 Linezolid
   - continue Gancyclovir for CMV viremia  Day 13 (touch base with ID
   regarding length of course)
   - continue levothyroxine 150mg PO daily
   # ARF/CRI
Etiology of oliguric renal failure unclear, plan to
   transition to HD on Mon per renal, although may not be able to tolerate
   given decreased BPs.  Differential includes ATN, drug toxicity,
   - off CVVH, plan for HD monday
   - profoundly low Ca & Phos, will continue aggressive replacement scales
   - appreciate renal recs
   # CV: CAD s/p stenting in
06, currently in A.Fib.
   - continue ASA 81mg & Metoprolol 25mg TID with hold parameters
   # ANEMIA
 Pt with anemia of chronic dz started on epoeitin per renal,
   +h/o GIB in 06 & EGD [**2-1**] confirmed gastritis.
   - hct with goal >23,
   - continue Epo 10,000u 3x/wk per renal
   - continue PPI [**Hospital1 **]
    # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Would perform HIV screen if pt consentable to evaluate why
   immunosupressed for CMV. Peripheral smear shows many immature cells,
   hem onc consulted and feel this is likely c/w infectious response
   - f/u Hem/Onc recs, LAP pending
   - continue Gangcyclovir for CMV viremia, f/u VL from [**2-9**]
   #DM2
Pt having low BS, started insulin gtt per endocrine
   - f/u endocrine recs
   # Hypothyroid
 switch to po Levothyroxine 150mg po daily
   - f/u endocrine recs
    # Wounds: multiple areas of sacral & facial skin breakdown, apprec
   wound care recs
   # Afib with RVR
   Patient  afib with RVR improved on amiodarone but has not tolerated
   beta blocker.
   - continue amiodarone
   - beta blocker as tolerated
   - may need to decrease output to improve volume status and improve
   heart rate
   ICU Care
   Nutrition:
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2130-02-13 09:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On and off pressors.
   Transitioned off CVVHD.
   Patient unable to provide history: Language barrier
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-12**] 08:27 PM
   Linezolid - [**2130-2-13**] 05:50 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-13**] 08:08 AM
   Other medications:
   ganciclovir, asa, reglan, linezolid, MDIs, PPI, insulin, lopressor
   (held)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-13**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (96.9
   HR: 92 (91 - 109) bpm
   BP: 126/46(72) {84/33(49) - 134/57(80)} mmHg
   RR: 36 (25 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,869 mL
                                                                    534 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                      3 mL
   IVF:
                                                                  1,475 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,869 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.36/47/86.[**Numeric Identifier 96**]/25/0
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : basilar and
   lateral)
   Abdominal: Soft, No(t) Tender: , Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, some areas of wounds
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   164 K/uL
   47 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.4 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   23.4 %
   28.3 K/uL
        [image002.jpg]
                             [**2130-2-11**]  04:03 AM
                             [**2130-2-11**]  04:19 AM
                             [**2130-2-11**]  10:33 AM
                             [**2130-2-11**]  05:03 PM
                             [**2130-2-11**]  05:15 PM
                             [**2130-2-12**]  12:15 AM
                             [**2130-2-12**]  05:31 AM
                             [**2130-2-12**]  03:12 PM
                             [**2130-2-13**]  05:40 AM
                             [**2130-2-13**]  05:52 AM
   WBC
   28.9
   27.7
   28.3
   Hct
   21.0
   24.1
   24.9
   23.4
   Plt
   145
   157
   164
   Cr
   0.4
   0.6
   0.7
   1.3
   TCO2
   25
   23
   26
   28
   28
   Glucose
   66
   139
   58
   47
   Other labs: PT / PTT / INR:12.4/52.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:38/38, Alk Phos / T Bili:631/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:69.0 %, Band:7.0 %, Lymph:3.0
   %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:657 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.6 mg/dL
   Imaging: CXR: bilateral infiltrates and effusions, essentially stable
   c/w yesterday.
   Assessment and Plan
   79-year-old woman with a complicated recent history transferred here
   for ongoing respiratory failure, renal failure, volume overload, VRE
   bacteremia, CMV viremia.  She has made some progress following
   tracheostomy and is now tolerating trach collar.  Although we had hoped
   to transition to hemodialysis, her current obligate ins and
   intermittent need for vasopressors has caused renal to recommend CVVH.
   Acute respiratory failure
   - s/p trach on [**2-7**]
   - now tolerating trach collar
   - resumed CVVH for volume removal today
   - may be reasonable to change trach to permit possible PMV, although
   this is not feasible until a week or two after trach placement.
   Hypotension
   - etiology uncertain; at present she is off pressors
   - repeat echocardiogram
   Leukocytosis - stable at ~ 28
   - follow up hematology consult recommendations
   - given myelophthisic picture of [**Last Name (LF) 1774**], [**First Name3 (LF) **] require bone marrow
   biopsy if peripheral studies are non-diagnostic.
   CMV viremia
   - cont ganciclovir (Likely a 3 wk course. Day XX/21)
   - question of malignancy. Recheck viral load.
   - Heme consult appreciated.
   Sepsis / VRE bacteremia: cont linezolid (day XX/14)
   Other ID issues: c diff neg x 4, off PO vanc. Off meropenem. CMV and
   VRE bacteremia, on treatment.
   Complicated appearing pleural effusions but small and likely due to
   volume overload in setting of hypoalbuminemia.
   5. Afib with RVR - suboptimal rate control on metoprolol and reducing
   fluid removal. Off amio.
   6. Anuric renal failure: tolerated CVVH with negative balances. To
   transition to HD Monday.
   7. Elevated alk phos:  no clear etiology
   8. Possible hematologic malignancy vs MDS - appreciate hematology
   consult. LAP pending. [**Month (only) 60**] been bone marrow bx.
   9. Hypothyroidism: on IV levothyroxine, will switch to PO
   10. FEN - PEG to be placed next week
   11. Anemia - likely due to chronic disease, phlebotomies, mild
   gastritis. Agree with transfusion to keep Hct >21. Last transfusion
   [**2-11**].
   12. Code status - full but should be readdressed with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots(HIT(+) so not on heparin.)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Will try to get Portuguese interpreter
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2130-02-14 07:40:00 Physician Resident Progress Note
Chief Complaint: Pt nonresponsive
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-2-13**] 12:50 PM
   - restarted CVVH due to relative hypotension
   - Completed course of Linezolid (14 days) per ID
   - transfused 1u pRBCs for HCT of 20
   Patient unable to provide history: Unresponsive
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2130-2-13**] 05:50 AM
   Gancyclovir - [**2130-2-13**] 08:13 PM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-13**] 08:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-14**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 98 (88 - 110) bpm
   BP: 149/57(86) {92/37(56) - 149/59(89)} mmHg
   RR: 25 (22 - 36) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
           Total In:
                                                                  3,932 mL
                                                                  2,749 mL
   PO:
           TF:
                                                                    487 mL
                                                                    368 mL
   IVF:
                                                                  3,145 mL
                                                                  1,956 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,781 mL
                                                                  2,937 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    151 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.41/42/106/24/1
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Not assessed, excoriation on face
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   124 K/uL
   8.9 g/dL
   83 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.4 mEq/L
   21 mg/dL
   101 mEq/L
   139 mEq/L
   26.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2130-2-12**]  03:12 PM
                             [**2130-2-13**]  05:40 AM
                             [**2130-2-13**]  05:52 AM
                             [**2130-2-13**]  11:06 AM
                             [**2130-2-13**]  05:58 PM
                             [**2130-2-13**]  06:09 PM
                             [**2130-2-13**]  11:10 PM
                             [**2130-2-13**]  11:34 PM
                             [**2130-2-14**]  04:36 AM
                             [**2130-2-14**]  04:59 AM
   WBC
   28.3
   20.2
   Hct
   24.9
   23.4
   20
   26.2
   Plt
   164
   124
   Cr
   1.3
   1.1
   0.7
   TCO2
   28
   24
   24
   28
   28
   Glucose
   47
   108
   106
   87
   83
   Other labs: PT / PTT / INR:12.0/28.1/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:33/34, Alk Phos / T Bili:653/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.4 g/dL, LDH:619 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   79F h/o F with resolving respiratory failure, oliguric renal failure on
   CVVH for volume removal, VRE bacteremia & CMV viremia.
   # Hypoxia
 Pt is s/p trach on [**2-7**], tolerating trach collar well.
   Resolving, etiology of prolonged hypoxia thought due to ARDS & volume
   overload, pt has been successfully weaned to trach collar for several
   days now with progressive volume removal; however, recent CXR was
   concerning for increased pulmonary edema [**2-13**] after stopping CVVH. Has
   been on 50% FiO2 since trach collar placed.
   - CVVH reinitiated yesterday, fluid balance approx even since yesterday
   morning
   - will likely need to aim for net 1L negative today
   - Completed Linezolid [**2-13**]
   - f/u blood & sputum Cx
 no new growth today
   - will follow-up with surgery regarding trach resizing for Wednesday or
   Thursday and whether this can be accomplished with PEG tube
   - decrease FiO2 to 40%, recheck ABG
   # Hypotension : Off pressors since 8am [**2-13**], initiated CVVH. SBP
   maintaining >120. Echo performed showed nl LV size and wall motion with
   LVEF >55% (no pericardial effusion) and mild-mod MR and 2+TR
   - follow-up cultures to r/o persistent or new infection
 no new growth
   to date
   - will reassess for possible transition to HD tomorrow
   - would change out PICC line if recurrent fever
   - Completed Linezolid [**2-13**]
   - continue Gancyclovir for CMV viremia  Day 14 (touch base with ID
   regarding length of course)
   - recheck CMV viral load on [**2-15**] (viral load [**2-9**]
 not detectable)
   - continue levothyroxine 150mg PO daily
   # ARF/CRI
Etiology of oliguric renal failure unclear, differential
   includes ATN, drug toxicity. Now on CVVH
   - If BP stable off pressors, would retry HD possibly tomorrow
   - profoundly low Ca & Phos, will continue aggressive replacement scales
   - appreciate renal recs
   # CV: CAD s/p stenting in
06, currently in A.Fib.
   - continue ASA 81mg & Metoprolol 25mg TID with hold parameters
 would
   not increase dose to leave room in BP for potential HD
   # ANEMIA
 Pt with anemia of chronic dz started on epoeitin per renal,
   +h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Transfused 1u pRBCs on
   [**2-13**] for HCT of 20 with good response.
   - maintain hct with goal >23
   - continue Epo 10,000u 3x/wk per renal
   - continue PPI [**Hospital1 **]
    # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Would perform HIV screen if pt consentable to evaluate why
   immunosupressed for CMV. Peripheral smear shows many immature cells,
   hem onc consulted and feel this is likely c/w infectious response
   - f/u Hem/Onc recs, LAP elevated 195
   - continue Gangcyclovir for CMV viremia
 [**2-9**] VL not detectable
   #DM2
Pt having low BS, started insulin gtt per endocrine, now that
   patient stabilized would transition off of drip to Lantus +SSI,
   requiring approx 36units of insulin daily
   - appreciate endocrine recs
   - recheck T4 and THBR (T3 uptake) approx [**2-21**]
   # Hypothyroid
po Levothyroxine 150mg po daily
   # Wounds: multiple areas of sacral & facial skin breakdown, apprec
   wound care recs
   # Afib with RVR: HR has remained in moderate control with metoprolol at
   current rate with HR <110
   - cont at current dose of metoprolol 25mg po tid
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-14**] 05:56 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-14 09:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, shock, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-2-13**] 12:50 PM -- preserved LVEF,
   [**11-23**]+MR, 2+TR
   CVVH resumed.  Pressors remained off.
   Patient unable to provide history: Language barrier, trach
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2130-2-13**] 05:50 AM
   Gancyclovir - [**2130-2-13**] 08:13 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-13**] 08:13 PM
   Other medications:
   epo, ganciclovir, asa, reglan, albuterol, atrovent, PPI, levothyroxine,
   metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-14**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 99 (88 - 110) bpm
   BP: 136/59(83) {92/41(56) - 149/59(89)} mmHg
   RR: 29 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
           Total In:
                                                                  3,973 mL
                                                                  4,037 mL
   PO:
           TF:
                                                                    487 mL
                                                                    481 mL
   IVF:
                                                                  3,186 mL
                                                                  3,081 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,781 mL
                                                                  4,019 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    192 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.41/42/106/24/1
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Overweight / Obese, frail
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   124 K/uL
   83 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.4 mEq/L
   21 mg/dL
   101 mEq/L
   139 mEq/L
   26.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2130-2-12**]  03:12 PM
                             [**2130-2-13**]  05:40 AM
                             [**2130-2-13**]  05:52 AM
                             [**2130-2-13**]  11:06 AM
                             [**2130-2-13**]  05:58 PM
                             [**2130-2-13**]  06:09 PM
                             [**2130-2-13**]  11:10 PM
                             [**2130-2-13**]  11:34 PM
                             [**2130-2-14**]  04:36 AM
                             [**2130-2-14**]  04:59 AM
   WBC
   28.3
   20.2
   Hct
   24.9
   23.4
   20
   26.2
   Plt
   164
   124
   Cr
   1.3
   1.1
   0.7
   TCO2
   28
   24
   24
   28
   28
   Glucose
   47
   108
   106
   87
   83
   Other labs: PT / PTT / INR:12.0/28.1/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:33/34, Alk Phos / T Bili:653/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.4 g/dL, LDH:619 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR pending
   Assessment and Plan
   79-year-old woman with a complicated recent history transferred here
   for ongoing respiratory failure, renal failure, volume overload, VRE
   bacteremia, CMV viremia.  She has made some progress following
   tracheostomy and is now tolerating trach collar.  Although we had hoped
   to transition to hemodialysis, her current obligate ins and
   intermittent need for vasopressors has caused renal to recommend CVVH.
   Acute respiratory failure
   s/p trach on [**2-7**]
   now tolerating trach collar
   resumed CVVH for volume removal yesterday
   may be reasonable to change trach to permit possible PMV, although this
   is not feasible until a week or two after trach placement.
   wean FiO2
   Hypotension
   - etiology uncertain; at present she is off pressors
   Leukocytosis - stable at ~ 28
   - follow up hematology consult recommendations
   - given myelophthisic picture of [**Last Name (LF) 1774**], [**First Name3 (LF) **] require bone marrow
   biopsy if peripheral studies are non-diagnostic.
   CMV viremia
   - cont ganciclovir (Likely a 3 wk course)
   - Heme consult appreciated given perplexing lack of known
   immunosuppression
   Sepsis / VRE bacteremia
   - cont linezolid for 14d course
   Complicated appearing pleural effusions
   - are small and (per prior notes) felt likely due to volume overload in
   setting of hypoalbuminemia.
    Afib with RVR
   - rate control adequate
   Anuric renal failure
   - on CVVH per renal
   - try to transition to HD
   Possible hematologic malignancy vs MDS
    - appreciate hematology consult. LAP pending. [**Month (only) 60**] require bone marrow
   bx.
   Hypothyroidism
   - on levothyroxine
   Diabetes
   - discuss with endo.  Favor considering transition to SQ, although may
   wait for HD to do so.
   FEN
    - likely PEG soon
   Anemia
   - Transfusion to keep Hct >21. Last transfusion [**2-11**].
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-14**] 05:56 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: Decrease
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Talk with interpreter services -- try to get Portuguese interpreter to
   bedside.  If unable, try to use language line.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2130-02-15 07:04:00 Physician Resident Progress Note
Chief Complaint: CMV viremia, VRE bacteremia
   24 Hour Events:
   1 unit prbcs on [**2-14**]
   endocrine recc keep insulin gtts ; requirement increasing unclear why
   no word on PEG from [**Doctor First Name 458**]
   FiO2 weaned
   HD planned [**2-15**]
   HR goal < 110
   BP decreased overnight sbp 80s --> 500 cc NS, no pressors, returned ok
   thus, fluid balance not net neg
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2130-2-13**] 05:50 AM
   Gancyclovir - [**2130-2-14**] 08:02 PM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-15**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 117 (93 - 123) bpm
   BP: 131/51(79) {72/30(44) - 153/66(95)} mmHg
   RR: 37 (24 - 38) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  8,591 mL
                                                                    547 mL
   PO:
             TF:
                                                                  1,199 mL
                                                                    354 mL
   IVF:
                                                                  6,836 mL
                                                                    133 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,587 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,004 mL
                                                                    547 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.39/47/105/26/2
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal), Irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Excoriations
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   130 K/uL
   8.5 g/dL
   81 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   15 mg/dL
   102 mEq/L
   140 mEq/L
   25.1 %
   23.6 K/uL
        [image002.jpg]
                             [**2130-2-13**]  11:10 PM
                             [**2130-2-13**]  11:34 PM
                             [**2130-2-14**]  04:36 AM
                             [**2130-2-14**]  04:59 AM
                             [**2130-2-14**]  09:52 AM
                             [**2130-2-14**]  10:40 AM
                             [**2130-2-14**]  03:58 PM
                             [**2130-2-14**]  04:16 PM
                             [**2130-2-14**]  05:30 PM
                             [**2130-2-15**]  05:32 AM
   WBC
   20.2
   23.6
   Hct
   26.2
   25.1
   Plt
   124
   130
   Cr
   0.7
   0.6
   TCO2
   28
   28
   27
   28
   30
   Glucose
   87
   83
   105
   81
   Other labs: PT / PTT / INR:12.0/28.1/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:33/34, Alk Phos / T Bili:653/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.4 g/dL, LDH:619 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.5 mg/dL
   Assessment and Plan
   79F h/o F with resolving respiratory failure (ARDS [**12-24**] PNA), oliguric
   renal failure (had been on CVVH for volume removal), VRE bacteremia &
   CMV viremia, on trach collar/off vent.
   # Hypoxia
 Pt is s/p trach on [**2-7**], tolerating trach collar well.
   Resolving, etiology of prolonged hypoxia thought due to ARDS & volume
   overload, pt has been successfully weaned to trach collar for several
   days now with progressive volume removal; however, recent CXR was
   concerning for increased pulmonary edema [**2-13**] after stopping CVVH. Has
   been on 50% FiO2 since trach collar placed.
   - CVVH reinitiated yesterday, fluid balance approx even since yesterday
   morning
   - will likely need to aim for net 1L negative today
   - Completed Linezolid [**2-13**]
   - f/u blood & sputum Cx
 no new growth today
   - will follow-up with surgery regarding trach resizing for Wednesday or
   Thursday and whether this can be accomplished with PEG tube
   - decrease FiO2 to 40%, recheck ABG
   # Hypotension : Off pressors since 8am [**2-13**], initiated CVVH. SBP
   maintaining >120. Echo performed showed nl LV size and wall motion with
   LVEF >55% (no pericardial effusion) and mild-mod MR and 2+TR
   - follow-up cultures to r/o persistent or new infection
 no new growth
   to date
   - will reassess for possible transition to HD tomorrow
   - would change out PICC line if recurrent fever
   - Completed Linezolid [**2-13**]
   - continue Gancyclovir for CMV viremia  Day 14 (touch base with ID
   regarding length of course)
   - recheck CMV viral load on [**2-15**] (viral load [**2-9**]
 not detectable)
   - continue levothyroxine 150mg PO daily
   # ARF/CRI
Etiology of oliguric renal failure unclear, differential
   includes ATN, drug toxicity. Now on CVVH
   - If BP stable off pressors, would retry HD possibly tomorrow
   - profoundly low Ca & Phos, will continue aggressive replacement scales
   - appreciate renal recs
   # CV: CAD s/p stenting in
06, currently in A.Fib.
   - continue ASA 81mg & Metoprolol 25mg TID with hold parameters
 would
   not increase dose to leave room in BP for potential HD
   # ANEMIA
 Pt with anemia of chronic dz started on epoeitin per renal,
   +h/o GIB in 06 & EGD [**2-1**] confirmed gastritis. Transfused 1u pRBCs on
   [**2-13**] for HCT of 20 with good response.
   - maintain hct with goal >23
   - continue Epo 10,000u 3x/wk per renal
   - continue PPI [**Hospital1 **]
    # Elev Alk Phos/LDH: Etiology unclear.  Occult malignancy w/u neg to
   date, AFP of 3. CMV possible etiology, thought atypical presentation.
   Would perform HIV screen if pt consentable to evaluate why
   immunosupressed for CMV. Peripheral smear shows many immature cells,
   hem onc consulted and feel this is likely c/w infectious response
   - f/u Hem/Onc recs, LAP elevated 195
   - continue Gangcyclovir for CMV viremia
 [**2-9**] VL not detectable
   #DM2
Pt having low BS, started insulin gtt per endocrine, now that
   patient stabilized would transition off of drip to Lantus +SSI,
   requiring approx 36units of insulin daily
   - appreciate endocrine recs
   - recheck T4 and THBR (T3 uptake) approx [**2-21**]
   # Hypothyroid
po Levothyroxine 150mg po daily
   # Wounds: multiple areas of sacral & facial skin breakdown, apprec
   wound care recs
   # Afib with RVR: HR has remained in moderate control with metoprolol at
   current rate with HR <110
   - cont at current dose of metoprolol 25mg po tid
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-15**] 04:53 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-16 07:50:00 Physician Resident Progress Note
Chief Complaint: 79F s/p ARDS [**12-24**] PNA, CMV viremia on ganciclovir
   pending f/u CMV viral load, s/p completed linezolid treatment for VRE
   bacteremia, on HD, s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] collar awaiting refitting and PEG.
   24 Hour Events:
   - Metoprolol changed to [**Hospital1 **] given correlation with decreased BP on TID
   - HD tunnelled line for Friday
   - ID recs: Gancyclovir can be discontinued if CMV [**2-15**] is negative
   - Insulin: Started NPH with Q6H ISS, to transition to standing regular
   - PEG pending, surgery emailed [**2-15**]
   - Onc recs: Hold bone marrow given elevated LAP nonspecific
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-15**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 100 (100 - 119) bpm
   BP: 99/33(53) {99/33(53) - 157/62(96)} mmHg
   RR: 34 (30 - 44) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,893 mL
                                                                    565 mL
   PO:
             TF:
                                                                  1,209 mL
                                                                    388 mL
   IVF:
                                                                    575 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: 7.42/43/78.[**Numeric Identifier 244**]/29/2
   PaO2 / FiO2: 132
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   8.2 g/dL
   188 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.5 mEq/L
   26 mg/dL
   104 mEq/L
   140 mEq/L
   25.3 %
   27.3 K/uL
        [image002.jpg]
                             [**2130-2-14**]  04:36 AM
                             [**2130-2-14**]  04:59 AM
                             [**2130-2-14**]  09:52 AM
                             [**2130-2-14**]  10:40 AM
                             [**2130-2-14**]  03:58 PM
                             [**2130-2-14**]  04:16 PM
                             [**2130-2-14**]  05:30 PM
                             [**2130-2-15**]  05:32 AM
                             [**2130-2-15**]  09:47 PM
                             [**2130-2-16**]  04:05 AM
   WBC
   20.2
   23.6
   27.3
   Hct
   26.2
   25.1
   25.3
   Plt
   124
   130
   151
   Cr
   0.7
   0.6
   0.9
   1.0
   TCO2
   28
   27
   28
   30
   29
   Glucose
   83
   105
   81
   48
   188
   Other labs: PT / PTT / INR:12.1/25.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:30/33, Alk Phos / T Bili:650/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.4 g/dL, LDH:512 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, oliguric renal failure (on CVVH, transitioning to
   HD), finished linezolid for VRE bacteremia, continuing on ganciclovir
   for CMV viremia (awaiting CMV viral load), on trach collar/off vent.
   # Fever/leukocytosis/tachypnea/tachycardia: WBC increased to 27.3,
   fever curve flat at 100.  Continuing gancyclovir for CMV viremia (day
   [**11-5**]), pending d/c if CMV viral load returns as negative.
   -          ?Infection: Possible source may be lines (PICC, art,
   temporary dialysis line); remove/resite arterial line today, temporary
   HD line will be changed on Friday, leave PICC in pending rehab needs.
   Follow surveillance blood cx, urine cx, Cdiff stool, CXR.
   -          ?PE: h/o HIT, on pneumoboots only, concern for PE.  CTA to
   r/o PE.
   # Mental status: Interviewed with Portugese interpreter, pt appears to
   understand although not highly interactive.  Continue to monitor.
   # Hypoxia:  Original etiology [**12-24**] ARDS [**12-24**] PNA & volume overload.  Now
   s/p trach on [**2-7**].  Volume management with HD starting [**2-15**].  Daily
   goal net 1L negative, wean FiO2 as tolerated (monitor ABG).  Sputum cx
   [**2-11**] demonstrated sparse yeast growth, likely contaminant.
   -          Pending surgery rec re: resizing trach
   -          Pending surgery rec re: PEG placement
   # Hypotension: Metoprolol changed to [**Hospital1 **] as hypotension related to TID
   dosing.
   # CV: CAD s/p stenting in
06, Afib.
   - Rhythm: Afib with RVR.  Rate controlled on metoprolol 25mg TID;
   consider decreasing dose if SBP drops again
   - Risk: ASA 81mg
   # ARF/CRI: Etiology ATN v drug toxicity.  On HD, placing tunneled HD
   catheter on Friday.
   # DM2: NPH Q6H ISS, Insulin  Regular 5 units SC Q6H.   Review endocrine
   recs
   # Elevated alk phos/LDH v. elevated leukocyte alkaline phosphatase:
   STABLE.  Question occult malignancy v. inflammation (low leukocyte
   alkaline phosphatase would be more specific for CML, MDS in setting of
   elevated alk phos/LDH).  Heme/onc holding on further w/u as elevated
   LAP nonspecific.
   # Anemia: STABLE.  Anemia of chronic disease, epoeitin per renal.
   Transfuse for hct >23.  Epo 10,000u 3x/wk per renal.  Given h/o
   gastritis and GIB [**2127**], PPI [**Hospital1 **]
   # Hypothyroid:  STABLE.  Continued on home regimen of levothyroxine
   150mg PO daily
   # Wounds:  STABLE.  Continued on wound care recs
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-16**] 12:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Pneumoboots (h/o HIT)
   Stress ulcer: Pantoprazole PO BID
   VAP:  Trach collar
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Physical Exam:
   GEN: NAD
   HEENT: Multiple abrasions, well-healed
   CV: RRR, S1S2, no m/r/g noted
   Chest: Minimal scattered rhonchi bilaterally, relatively clear
   Abd: Soft, obese, [**Name (NI) 1847**], BS+
   Ext: 2+ BLE edema at feet, in pneumoboots
   ------ Protected Section Addendum Entered By:[**Name (NI) 783**] [**Name (NI) 352**]
   on:[**2130-2-16**] 15:20 ------

2130-02-17 07:12:00 Physician Resident Progress Note
Chief Complaint: 79F s/p ARDS [**12-24**] PNA, CMV viremia on ganciclovir
   pending f/u CMV viral load, s/p completed linezolid treatment for VRE
   bacteremia, on HD, s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] collar awaiting refitting and PEG.
   24 Hour Events:
   - Portuguese translator: Pt minimally responsive but seems to
   understand, nods head
   - CTA to r/o PE: Negative for PE
   - To r/o fluid overload as etiology of tachycardia/tachypnea, placed on
   PS 5 /PEEP 5, but dropped SBP by 50 pts, raising concern for PE, but
   CTA negative, although demonstrated L B pleural effusions.  After
   repositioning s/p CTA, became tachycardic, desatting, SBP dropping from
   150s to 80s quickly, leading to concern for (1) hypovolemia, and (2)
   derecruitment [**12-24**] atelectasis.  Received albumin and 500cc NS (hct
   stable, no hemorrhagic shock).  Recruitment manuevers: PEEP increased
   to 20 to recruit more lung briefly, but SBP decreased again even after
   fluids.  Changed to pressure control initially with PEEP 10, then
   decreased to PEEP 8 with driving pressure 28.
   - T 100.2 axillary, failed RSBI
   - Vent management: A/C now as pressure control lead to gradually
   decreasing tidal volumes
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-15**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 107 (100 - 125) bpm
   BP: 129/58(80) {87/38(54) - 162/73(107)} mmHg
   RR: 29 (16 - 46) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
           Total In:
                                                                  3,150 mL
                                                                    781 mL
   PO:
           TF:
                                                                  1,190 mL
                                                                    347 mL
   IVF:
                                                                  1,608 mL
                                                                     71 mL
   Blood products:
                                                                    102 mL
                                                                    323 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,150 mL
                                                                    781 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (350 - 400) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 163
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.36/46/91.[**Numeric Identifier 96**]/24/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Gen: NAD
   HEENT: Healed abrasions
   CV: Irreg irreg, S1S2, no m/r/g
   Chest: Diffuse rhonchi
   Abd: Soft NT ND BS+
   Ext: 2+ pitting edema at BLE
   Labs / Radiology
   138 K/uL
   8.4 g/dL
   163 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   24.3 %
   26.0 K/uL
        [image002.jpg]
                             [**2130-2-14**]  03:58 PM
                             [**2130-2-14**]  04:16 PM
                             [**2130-2-14**]  05:30 PM
                             [**2130-2-15**]  05:32 AM
                             [**2130-2-15**]  09:47 PM
                             [**2130-2-16**]  04:05 AM
                             [**2130-2-16**]  06:48 PM
                             [**2130-2-16**]  06:54 PM
                             [**2130-2-16**]  11:35 PM
                             [**2130-2-17**]  04:52 AM
   WBC
   23.6
   27.3
   26.0
   Hct
   25.1
   25.3
   24.4
   24.3
   Plt
   130
   151
   138
   Cr
   0.6
   0.9
   1.0
   1.5
   TCO2
   28
   30
   29
   30
   27
   Glucose
   81
   48
   188
   206
   292
   163
   Other labs: PT / PTT / INR:12.1/25.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:30/33, Alk Phos / T Bili:650/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:68.8 %, Band:2.1 %, Lymph:2.1
   %, Mono:9.4 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:512 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.3
   mg/dL
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, oliguric renal failure (on CVVH, transitioning to
   HD), finished linezolid for VRE bacteremia, continuing on ganciclovir
   for CMV viremia (awaiting CMV viral load), on trach collar/off vent.
   # Hypoxia:  Original etiology [**12-24**] ARDS [**12-24**] PNA & volume overload.
   Recent hypoxia likely [**12-24**] derecruitment related to atelectasis worsened
   with repositioning and B effusions per CT scan (no PE); also concern
   for pulmonary infection given copious thick secretions
   -          Attempt to move off AC back to PS/PEEP today, wean down
   FiO2.  Pending IP re: resizing trach, PEG placement
   -          Supportive care: Nebs, suction
   # Hypotension:  Rapid drops in SBP likely [**12-24**] hypovolemia given recent
   aggressive diuresis and HD (hct stable but no bump in setting of fluid
   administration), but also possible contribution from infection.
   Initial concern also for anaphylaxis [**12-24**] IV contrast but SBP responded
   to fluid and albumin.
   -          Continue metoprolol 25mg [**Hospital1 **].
   -          Trend hct to r/o hemorrhage given hemoccult positive
   -          HD today; may need CVVH.  Goal even fluid balance.
   # Fever/leukocytosis/tachypnea/tachycardia: WBC 26, fever curve
   increasing.  Continuing gancyclovir for CMV viremia (day 13/14),
   pending d/c if CMV viral load returns as negative.
   -          ?Infection: Possible source may be lines (PICC, art,
   temporary dialysis line); remove/resite arterial line today, leave PICC
   pending rehab needs, consider changing temporary HD catheter over
   wire.  Follow surveillance blood cx, urine cx, Cdiff stool, CXR; send
   sputum for cx.
   -          Abx: Start ceftazidime, ciprofloxacin (double coverage for
   gram negatives), vancomycin (for HAP)
   # CV: CAD s/p stenting in
06, Afib.
   - Rhythm: Afib with RVR.  Rate controlled on metoprolol 25mg [**Hospital1 **];
   consider decreasing dose if SBP drops again
   - Risk: ASA 81mg
   # ARF/CRI: STABLE.  Etiology ATN v drug toxicity.  On HD, consider
   CVVH; hold on placing tunneled catheter given fever, leukocytosis.
   # DM2: STABLE.  NPH Q6H ISS, Insulin  Regular 5 units SC Q6H.   Review
   endocrine recs
   # Mental status: STABLE.  Interviewed with Portugese interpreter, pt
   appears to understand although not highly interactive.  Continue to
   monitor.  Daily sessions with interpreter.
   # Elevated alk phos/LDH v. elevated leukocyte alkaline phosphatase:
   STABLE.  Question occult malignancy v. inflammation (low leukocyte
   alkaline phosphatase would be more specific for CML, MDS in setting of
   elevated alk phos/LDH).  Heme/onc holding on further w/u as elevated
   LAP nonspecific.
   # Anemia: STABLE.  Anemia of chronic disease, epoeitin per renal.
   Transfuse for hct >23.  Epo 10,000u 3x/wk per renal.  Given h/o
   gastritis and GIB [**2127**], PPI [**Hospital1 **]
   # Hypothyroid:  STABLE.  Continued on home regimen of levothyroxine
   150mg PO daily
   # Wounds:  STABLE.  Continued on wound care recs
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-2-17**] 12:10 AM 50 mL/hour
   Glycemic Control:  NPH [**Hospital1 **] and standing regular Q6H
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Trach collar
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   This addendum clarifies the assessment and plan:
   # Fevers/leukocytosis/tachycardia/tachypnea: Given persistently
   elevated LFTs, consider also possibility of acalculous cholecystitis;
   gallbladder u/s ordered.
   ------ Protected Section Addendum Entered By:[**Name (NI) 783**] [**Name (NI) 352**]
   on:[**2130-2-17**] 11:47 ------

2130-02-17 08:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Developed tachypnea and tachycardia yesterday -- no large PE on
   imaging.  When placed on positive pressure, she developed hypotension.
   Responded to fluids and albumin.  No evidence of bleeding.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Language barrier
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-15**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   CHG, reglan, asa, epo, synthroid, ganciclovir, PPI, SQI, metoprolol,
   MDIs/nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-17**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 107 (100 - 117) bpm
   BP: 129/58(80) {87/38(54) - 161/67(99)} mmHg
   RR: 29 (16 - 46) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
           Total In:
                                                                  3,150 mL
                                                                    925 mL
   PO:
           TF:
                                                                  1,190 mL
                                                                    425 mL
   IVF:
                                                                  1,608 mL
                                                                     87 mL
   Blood products:
                                                                    102 mL
                                                                    323 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,150 mL
                                                                    925 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 400) mL
   Vt (Spontaneous): 260 (225 - 360) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 163
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.36/46/91.[**Numeric Identifier 96**]/24/0
   Ve: 12 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : inspiratory and
   expiratory high-pitched sounds, but Peak-Plat difference is small)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   8.4 g/dL
   138 K/uL
   163 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   24.3 %
   26.0 K/uL
        [image002.jpg]
                             [**2130-2-14**]  03:58 PM
                             [**2130-2-14**]  04:16 PM
                             [**2130-2-14**]  05:30 PM
                             [**2130-2-15**]  05:32 AM
                             [**2130-2-15**]  09:47 PM
                             [**2130-2-16**]  04:05 AM
                             [**2130-2-16**]  06:48 PM
                             [**2130-2-16**]  06:54 PM
                             [**2130-2-16**]  11:35 PM
                             [**2130-2-17**]  04:52 AM
   WBC
   23.6
   27.3
   26.0
   Hct
   25.1
   25.3
   24.4
   24.3
   Plt
   130
   151
   138
   Cr
   0.6
   0.9
   1.0
   1.5
   TCO2
   28
   30
   29
   30
   27
   Glucose
   81
   48
   188
   206
   292
   163
   Other labs: PT / PTT / INR:12.1/25.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:30/33, Alk Phos / T Bili:650/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:68.8 %, Band:2.1 %, Lymph:2.1
   %, Mono:9.4 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:512 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.3
   mg/dL
   Imaging: CXR: substantial apparent improvement in bilateral opacities
   Assessment and Plan
   79F h/o ARDS secondary to pneumonia, oliguric renal failure (now
   transitioned to HD), VRE bacteremia (off linezolid [**2-13**]) & CMV
   viremia.  The major recent event is her decompensation yesterday; she
   had substantial signs of intravascular volume depletion but other
   things are certainly in the differential.
   # Hypoxia:  Original etiology [**12-24**] ARDS [**12-24**] PNA, volume overload.  Now
   s/p trach on [**2-7**].  Volume management with HD starting [**2-15**].  Daily
   goal net 1L negative, wean FiO2 as tolerated (monitor ABG).  Sputum cx
   [**2-11**] demonstrated sparse yeast growth, likely contaminant.
   -          Pending surgery rec re: resizing trach
   -          Pending surgery rec re: PEG placement
   -          Volume status: Manage with HD, decrease IVF input, decrease
   NS input, change as many meds to PO as possible
   # Hypotension: Off pressors since 8am [**2-13**], volume managed via CVVH and
   now HD.  LVEF >55%, no pericardial effusion, no WMA, mild-mod MR and
   2+TR.  On [**2-15**], dropped pressure to 79, responded to 500cc ND bolus
   without pressors.  Question whether BP drop 2/2 metoprolol
   administration v. new infectious process.
   -          Follow cultures to r/o persistent or new infection:  NGTD
   from [**2-11**].
   -          Monitor to assess if BB dropping pressure
   # Fever/leukocytosis: WBC 23.6, roughly stable, down from high of
   37.7.  Low-grade fever to 100.  Completed linezolid [**2-13**] for VRE
   bacteremia, still on gancyclovir for CMV viremia (day [**11-5**]).
   - Possible source: PICC, art, temporary dialysis line; hold on resiting
   unless persistently febrile or decompensates clinically
   - Continue gancyclovir dosed for HD 1.25 mg/kg post HD 3xweekly until
   CMV viral load negative
   # Elevated alk phos/LDH v. elevated leukocyte alkaline phosphatase:
   Question occult malignancy v. inflammation (low leukocyte alkaline
   phosphatase would be more specific for CML, MDS in setting of elevated
   alk phos/LDH).
   -          Consider obtaining HCP consent for HIV
   -          Heme/onc consult to assess need for further occult
   malignancy w/u
   # ARF/CRI: Etiology ATN v drug toxicity.  Starting HD today.  Review
   renal recs, place tunneled HD catheter later this week.
   # CV: CAD s/p stenting in
06, Afib.
   - Rhythm: Afib with RVR.  Rate controlled on metoprolol 25mg TID;
   consider decreasing dose if SBP drops again
   - Risk: ASA 81mg
   # Anemia: Anemia of chronic disease, epoeitin per renal. Transfuse for
   hct >23.  Epo 10,000u 3x/wk per renal.  Given h/o gastritis and GIB
   [**2127**], PPI [**Hospital1 **]
   # DM2: Insulin gtt per endocrine, attempt to transition to long-acting
   insulin with sliding scale.  Review endocrine recs
   # Hypothyroid:  Continued on home regimen of levothyroxine 150mg PO
   daily
   # Wounds:  Continued on wound care recs
   replete Phos
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-2-17**] 12:10 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots(She is HIT(+).  Investigate non-heparin DVT prophylaxis with
   pharmacy today (c/b HD-requiring renal failure))
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2130-02-18 07:03:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   ABD ULTRASOUND - At [**2130-2-17**] 03:00 PM
   CVVH resumed, neg approx 2.2 L
   GNR in sputum -> treatment for VAP started
   Xoponex added instead of albuterol
   DVT ppx; asked pharmacy, can do fondaparinaux potentially although on
   HD; can consider lipirudin / argatroban
   Holding on tunneled line change w/ vap management.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-15**] 06:00 PM
   Ceftazidime - [**2130-2-17**] 10:20 AM
   Vancomycin - [**2130-2-17**] 11:30 AM
   Ciprofloxacin - [**2130-2-17**] 03:00 PM
   Infusions:
   NPH + REG insulin
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 112 (98 - 129) bpm
   BP: 137/63(90) {77/37(49) - 147/65(94)} mmHg
   RR: 28 (16 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,534 mL
                                                                    310 mL
   PO:
             TF:
                                                                    371 mL
                                                                    240 mL
   IVF:
                                                                    690 mL
                                                                     70 mL
   Blood products:
                                                                    323 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,534 mL
                                                                    310 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.42/36/102/21/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   157 K/uL
   8.3 g/dL
   259
   2.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   57 mg/dL
   102 mEq/L
   137 mEq/L
   25.1 %
   27.2 K/uL
        [image002.jpg]
                             [**2130-2-16**]  06:48 PM
                             [**2130-2-16**]  06:54 PM
                             [**2130-2-16**]  11:35 PM
                             [**2130-2-17**]  04:52 AM
                             [**2130-2-17**]  09:43 AM
                             [**2130-2-17**]  06:59 PM
                             [**2130-2-17**]  07:13 PM
                             [**2130-2-18**]  05:02 AM
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
   WBC
   26.0
   25.9
   25.5
   27.2
   Hct
   24.4
   24.3
   23.7
   24.3
   25.1
   Plt
   138
   143
   140
   157
   Cr
   1.5
   2.1
   TCO2
   30
   27
   26
   24
   Glucose
   [**Telephone/Fax (3) 1869**]97
   259
   Other labs: PT / PTT / INR:12.1/25.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:30/36, Alk Phos / T Bili:559/0.4,
   Amylase / Lipase:20/9, Differential-Neuts:68.8 %, Band:2.1 %, Lymph:2.1
   %, Mono:9.4 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:512 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.4
   mg/dL
   Imaging: Abd US
   PORTABLE GALLBLADDER ULTRASOUND:  Sludge is seen within a distended
   gallbladder.  The gallbladder wall is not thickened.  The appearance of
   the
   gallbladder is overall similar to that seen on the ultrasound of
   [**2130-2-1**] and
   the CT of [**2130-1-30**].  A small amount of fluid is seen around the
   gallbladder,
   consistent with the ascites that was seen on the CT.  The common duct
   measures
   9 mm.
   IMPRESSION:  Sludge within distended gallbladder without wall
   thickening.
   Cannot rule out cholecystitis based on the current study.
   Assessment and Plan
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, oliguric renal failure (on CVVH, transitioning to
   HD), finished linezolid for VRE bacteremia, continuing on ganciclovir
   for CMV viremia (awaiting CMV viral load), on trach collar/off vent.
   # Hypoxia \ Resp Failure
   Original etiology [**12-24**] ARDS [**12-24**] PNA & volume overload.
   Now w/ VAP, GNR, culture, S&S pending.
   Started ceftazadime, vanco, cipro yesterday, now day 2 of likely
   treatment duration 8 days.
   Despite VAP, appearing to do well from respiratory persective,
   oxygenating well.
   Will hold off on vent changes given recent vap diagnosis, and can
   consider weaning fi02 and peep later today or tomorrow.
   -          Ceftazadime, vanco, cipro d 2 // ? 8
   -          Keep at most
 1L w/ HD for ongoing insensible losses w
   infection
   -          Hold on vent wean, can reconsider in pm
   # Fevers / ID
   **VAP
   Cont antibiotics as above
   **CMV
   Can consider d/c gancyclovir now that VL undetectable.  Check w/ ID.
   # Hypotension:
   Transient hypotension post CVVH.  [**Month (only) 60**] be related to overall
   inflammatory / infectious perspective, however volume shifts likely
   causative.  Will go w/ HD today, goal
 1L  at most.
   # CV:
   CAD s/p stenting in
06, Afib.
   - Rhythm: Afib with RVR.  Rate controlled on metoprolol 25mg [**Hospital1 **]
   - Risk: ASA 81mg
   # ARF/CRI: STABLE.  Etiology ATN v drug toxicity.
   Restarting HD today.  Goal
 1 L.
   Hold on placing tunneled catheter given fever, leukocytosis.
   Appreciate renal input.
   # ENDOCRINE
   ** DM2: NPH standing, Regulat standing, + SSI.
   Appreciate endo input.  F/u reccs
   ** Hypothyroid:  STABLE.  Continued on home regimen of levothyroxine
   150mg PO daily
   F/u testing T4, T3R next week.
   # Mental status: STABLE.  Interviewed with Portugese interpreter, pt
   appears to understand although not highly interactive.  Continue to
   monitor.  Daily sessions with interpreter.
   # GI
   Elevated alk phos
   Doubt acalculous cholecystitis, as stable since [**2-1**].  Can cont monitor
   periodic LFTs, and consider re-imaging / intervention if cont to have
   fevers, change in abdominal exam.
   #HEME STABLE
   LDH v. elevated leukocyte alkaline phosphatase
   Question occult malignancy v. inflammation (low leukocyte alkaline
   phosphatase would be more specific for CML, MDS in setting of elevated
   alk phos/LDH).  Heme/onc holding on further w/u as elevated LAP
   nonspecific.
   # Anemia: STABLE.  Anemia of chronic disease, epoeitin per renal.
   Transfuse for hct >23.  Epo 10,000u 3x/wk per renal w/ HD per
   protocol.  Given h/o gastritis and GIB [**2127**], PPI [**Hospital1 **]
   # Wounds:  STABLE.  Continued on wound care recs
   #FEN
   Replete lytes as necessary
   ICU Care
   Nutrition:
   Tube feeds at goal
   Glycemic Control:  Sliding scale insulin + fixed
   Lines:
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: boots; have discussed further anticoag w/ fondaparinaux, however
   given renal failure and HD, and potential of future line changes,
   discussed that this is less safe and risk benefit such that will hold
   off on this therapy now.
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine / mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: icu

2130-02-18 10:07:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
    I saw and examined the patient, and was physically present with the
   ICU Resident for key portions of the services provided.  I agree with
   his / her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2130-2-17**] 03:00 PM - for fevers and elevated LFTS
   CVVH for 2.2 L yesterday
   GNR in sputum, concerning for VAP  Vanco Ceftaz and Cipro
   D/c albuterol for Xopenex
   Holding on tunneled line change
                                       History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Gancyclovir - [**2130-2-15**] 06:00 PM
   Ceftazidime - [**2130-2-17**] 10:20 AM
   Vancomycin - [**2130-2-17**] 11:30 AM
   Ciprofloxacin - [**2130-2-17**] 03:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-18**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 102 (102 - 129) bpm
   BP: 117/48(68) {95/47(61) - 147/65(94)} mmHg
   RR: 20 (20 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,534 mL
                                                                    573 mL
   PO:
             TF:
                                                                    371 mL
                                                                    473 mL
   IVF:
                                                                    690 mL
                                                                    100 mL
   Blood products:
                                                                    323 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,534 mL
                                                                    573 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.42/36/102/21/0
   Ve: 16.3 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Gen: lying in bed, on HD
   Chest: [**Month (only) 38**] BS bilat with occ exp wheezes
   CV:rr
   Abd: obese soft +BS
   Ext: 3+ edema pitting throughout
   Neurologic: Responds to voice and tactile but not following commands or
   tracking
   Labs / Radiology
   8.3 g/dL
   157 K/uL
   259
   2.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   57 mg/dL
   102 mEq/L
   137 mEq/L
   25.1 %
   27.2 K/uL
        [image002.jpg]
                             [**2130-2-16**]  06:48 PM
                             [**2130-2-16**]  06:54 PM
                             [**2130-2-16**]  11:35 PM
                             [**2130-2-17**]  04:52 AM
                             [**2130-2-17**]  09:43 AM
                             [**2130-2-17**]  06:59 PM
                             [**2130-2-17**]  07:13 PM
                             [**2130-2-18**]  05:02 AM
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
   WBC
   26.0
   25.9
   25.5
   27.2
   Hct
   24.4
   24.3
   23.7
   24.3
   25.1
   Plt
   138
   143
   140
   157
   Cr
   1.5
   2.1
   TCO2
   30
   27
   26
   24
   Glucose
   [**Telephone/Fax (3) 1869**]97
   259
   Other labs: PT / PTT / INR:12.1/25.0/1.0, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:30/36, Alk Phos / T Bili:559/0.4,
   Amylase / Lipase:20/9, Differential-Neuts:68.8 %, Band:2.1 %, Lymph:2.1
   %, Mono:9.4 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:512 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.4
   mg/dL
   Imaging: ABD US- sludge and a distended GB but unchanged from [**2-1**] and
   from CT on [**1-30**]. Small amt ascities.
   CXR: evolving RLL infiltrate
   Microbiology: Sputum:[**2-17**] 4 + GNR
   CMV neg.
   Assessment and Plan
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but yesterday
   decompensated attributable to VAP
   Acute respiratory failure
   s/p trach on [**2-7**]
   Fever, increased sputum, and respiratory decompensation yesterday
   suggests new HCAP.  Sputum GNR on gram stain are worrisome as well and
   new RLL infil on CXR this AM
   -          vanco
   -          Zosyn
   -          Cipro
   -          Follow cultures
   -          Continue current vent settings
 may be able to wean again
   by tomm AM
   CMV viremia
   - cont ganciclovir (three week course)
 most recent VL is neg so check
   with if can DC
   Sepsis / VRE bacteremia
   -          completed linezolid 14d course
   -          follow cultures since her recent decompensation could
   represent recrudescence
    Afib with RVR
   - rate control adequate at present
   Anuric renal failure
   -          now on HD
   -          would defer tunneled line placement given recent
   decompensation
   Possible hematologic malignancy vs MDS
    - appreciate hematology consult.
   Hypothyroidism
   - on levothyroxine
   Diabetes
   - on SQ regimen and working with endocrine to maximize glycemic control
   FEN
    - hold on PEG given recent decompensation
 re eval Monday
   Anemia
   -          concerning that she did not appear to increase Hct to
   transfuse
   -          Follow twice a day for now, but no clear sign of bleeding
   right now
   ICU Care
   Nutrition: TFs at goal
   Glycemic Control:  insulin
   Lines: aline, PICC HD catheter
 for change next week.
   Arterial Line - [**2130-1-29**] 06:00 PM
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: chlorhex, elevate HOB
   Comments:
   Communication:  Comments: with son
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40

2130-02-20 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Rec'd vancomycin 1g x1 as she was subtherapeutic
   - Endo recs: TFTs for Monday
   - Tachy to 140s, SBP to 160s --> Metoprolol
   - Vent: Breathing to 40s; gave lorazepam 0.5mg IV once MR1
   - Pseudomonas pansensitive except to quinolones: Ciprofloxacin
   stopped.  Stop vanc (although she had received 1 dose earlier in day)
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-18**] 10:30 AM
   Ciprofloxacin - [**2130-2-18**] 02:13 PM
   Vancomycin - [**2130-2-19**] 05:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-20**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 110 (106 - 130) bpm
   BP: 90/44(58) {90/40(-13) - 156/152(220)} mmHg
   RR: 19 (19 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,099 mL
                                                                    305 mL
   PO:
             TF:
                                                                    839 mL
                                                                    237 mL
   IVF:
                                                                    890 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,099 mL
                                                                    305 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 435 (435 - 435) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 124
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.39/41/78.[**Numeric Identifier 244**]/26/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: upper airway sounds referred. lots of mucous from
   trach and mouth
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: rt hand contracted
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   8.5 g/dL
   91 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   48 mg/dL
   107 mEq/L
   142 mEq/L
   25.9 %
   23.8 K/uL
        [image002.jpg]
                             [**2130-2-17**]  09:43 AM
                             [**2130-2-17**]  06:59 PM
                             [**2130-2-17**]  07:13 PM
                             [**2130-2-18**]  05:02 AM
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
   WBC
   25.9
   25.5
   27.2
   23.3
   23.8
   Hct
   23.7
   24.3
   25.1
   23.5
   25.9
   Plt
   143
   140
   157
   191
   281
   Cr
   2.1
   1.4
   1.9
   TCO2
   26
   24
   28
   26
   Glucose
   197
   259
   159
   91
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:78.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: TSH 10
   T4: 7.2
   calcTBG: 1.13
   TUptake: 0.88
   T4Index: 6.3
   Microbiology: [**2-17**] Sputum: PSEUDOMONAS AERUGINOSA
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------     4 S
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     8 I
   MEROPENEM-------------     2 S
   PIPERACILLIN----------    64 S
   PIPERACILLIN/TAZO-----     8 S
   TOBRAMYCIN------------     4 S
   [**2-16**], [**2-17**], [**2-19**] Blood cultures negative to date
   C diff negative x3 from [**2-17**] and [**2-18**]
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with Pseudomonas in
   sputum, on ceftazidime
   Respiratory failure: Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, now
   with Pseudomonas VAP.
   - Abx: Ceftazidime.  Day 1: [**2-17**], goal 8 days.
   - Vent goal: Decrease FiO2, maintain PEEP
   - ciprofloxacin and vancomycin discontinued [**2-19**]
   Hypotension: Transient, responsive to fluid bolus, likely [**12-24**] HD,
   although possible contribution from infection.
   - HD: Attempt to maintain 1L negative per session
   CV: CAD s/p stent [**2127**]. Patient had episode of a fib with RVR, required
   metoprolol push 5mg IV
   - Rhythm: Afib/RVR. Metoprolol 12.5mg TID (changed from 25mg [**Hospital1 **])
   - Risk: ASA 81mg
   ARF/CRI: STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD
   - IR-guided tunneled HD catheter scheduled for Monday
   - renal recs appreciated
   Glucose control: Humalin 7units QID, NPH 6units [**Hospital1 **], with regular
   insulin sliding scale
   - Review endo recs
   Mental status: STABLE.  Per family, responds to them, selectively does
   not respond to [**Hospital Unit Name 44**] team.
   - Daily sessions with interpreter
   Hypothyroidism: STABLE.  Levothyroxine 150mg PO daily.
   Elevated alk phos, ?acalculous cholecystitis: LFTs stable, reimage
   abdomen/gallbladder if clinical change.
   ?Occult malignancy: STABLE.  Per heme/onc, hold further w/u given
   nonspecific elevated LAP.
   Anemia: STABLE.  ACD, receiving epoeitin at HD, transufse for hct >23.
   Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-2-20**] 04:20 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-20 11:45:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-2-19**] 10:57 AM
 ARTERIAL LINE - STOP [**2130-2-19**] 12:19 PM
 ARTERIAL LINE - START [**2130-2-19**] 08:10 PM
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-2-18**] 02:13 PM
   Vancomycin - [**2130-2-19**] 05:02 PM
   Ceftazidime - [**2130-2-20**] 08:42 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2130-2-20**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 98 (98 - 130) bpm
   BP: 90/36(51) {90/36(51) - 147/68(96)} mmHg
   RR: 17 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,099 mL
                                                                    749 mL
   PO:
             TF:
                                                                    839 mL
                                                                    392 mL
   IVF:
                                                                    890 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,099 mL
                                                                    749 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 124
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.39/41/78.[**Numeric Identifier 244**]/26/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: lying in bed, eyes open, not responding or
   following commands
   Cardiovascular: (S1: Normal), (S2: Normal) irreg irreg
   Chest fair air movement no wheezes [**Month (only) 38**] BS at right base
   Abd: obese soft NT +BS
   Labs / Radiology
   8.5 g/dL
   281 K/uL
   91 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   48 mg/dL
   107 mEq/L
   142 mEq/L
   25.9 %
   23.8 K/uL
        [image002.jpg]
                             [**2130-2-17**]  09:43 AM
                             [**2130-2-17**]  06:59 PM
                             [**2130-2-17**]  07:13 PM
                             [**2130-2-18**]  05:02 AM
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
   WBC
   25.9
   25.5
   27.2
   23.3
   23.8
   Hct
   23.7
   24.3
   25.1
   23.5
   25.9
   Plt
   143
   140
   157
   191
   281
   Cr
   2.1
   1.4
   1.9
   TCO2
   26
   24
   28
   26
   Glucose
   197
   259
   159
   91
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:78.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
    79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but last week
   decompensated attributable to VAP
   Acute respiratory failure
   s/p trach on [**2-7**]
   Fever, increased sputum, and respiratory decompensation due to
   pseudomonas VAP
 sensi to Ceftaz #[**1-28**]
   -          Continue current vent settings
 tried PSV yest AM but
   tachypneic and dysynch. [**Month (only) 60**] be able to try again this afternoon after
   HD.
   Sepsis / VRE bacteremia
   -          completed linezolid 14d course
   -          follow cultures since her recent decompensation could
   represent recrudescence
    Afib with RVR
   - rate control adequate at present
   Anuric renal failure
   -          now on HD
   -          for tunneled line today
   Diabetes
   - on SQ regimen and working with endocrine to maximize glycemic control
   FEN
    - held on PEG given recent decompensation and ?CMV colitis
 plan to
   readdress with surgery today/tomm
   Anemia
   -          Follow twice a day for now, but no clear sign of bleeding
   right now
   ICU Care
   Nutrition: TFs
   Glycemic Control:  humulin and NPH
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-1-31**] 01:00 PM, plan switch to tunneled
   Arterial Line - [**2130-2-19**] 08:10 PM
   Prophylaxis:
   DVT: none, ongoing discussion re Fondapar
   Stress ulcer: PPI
   VAP: ongoing HOB, chlorhex (but she is intermittently refusing)
   Comments:
   Communication:  team discussed with son over weekend
 he may come in
   again tomorrow for update and will try to meet
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-02-21 06:31:00 Physician Resident Progress Note
Chief Complaint: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with
   Pseudomonas in sputum, on ceftazidime
   24 Hour Events:
   Afib to 130s
 metoprolol 5 mg IV x1 with good effect
   Tunneled HD line placed
   No HD received today, so no ventilator PS trial
   Endo: Insulin increased to regular 8 units Q6H
   PEG update: General surgery will defer until discharge; will check w/
   other services
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-2-18**] 02:13 PM
   Vancomycin - [**2130-2-19**] 05:02 PM
   Ceftazidime - [**2130-2-20**] 08:42 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-21**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 123 (98 - 126) bpm
   BP: 141/63(91) {90/36(51) - 152/67(97)} mmHg
   RR: 34 (17 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,538 mL
                                                                    236 mL
   PO:
             TF:
                                                                    813 mL
                                                                    100 mL
   IVF:
                                                                    404 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,538 mL
                                                                    236 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 96
   PIP: 35 cmH2O
   SpO2: 99%
   ABG: Pending this a.m.
   Ve: 12.5 L/min
   Physical Examination
   Gen: NAD
   HEENT: Healing herpetic lesions
   CV: Irreg irreg, S1S2, no m/r/g noted
   Chest: Diffuse mildly coarse BS bilaterally
   Abd: Obese, soft, NTND, BS+
   Ext: 1+ edema BLE
   Labs / Radiology
   Today
s labs drawn late; all pending at the time of this note.
   [**2130-2-17**]  09:43 AM
                             [**2130-2-17**]  06:59 PM
                             [**2130-2-17**]  07:13 PM
                             [**2130-2-18**]  05:02 AM
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
   WBC
   25.9
   25.5
   27.2
   23.3
   23.8
   Hct
   23.7
   24.3
   25.1
   23.5
   25.9
   Plt
   143
   140
   157
   191
   281
   Cr
   2.1
   1.4
   1.9
   TCO2
   26
   24
   28
   26
   Glucose
   197
   259
   159
   91
   Microbiology:
   [**2-21**] CMV viral load pending
   [**2052-2-15**] blood cx pending
   Radiology:
   [**2-21**] CXR
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with Pseudomonas PNA on
   ceftazidime
   Respiratory failure: Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, now
   with Pseudomonas VAP.
   - Abx: Ceftazidime.  Day 1: [**2-17**], goal 8 days.
   - Vent goal: PS/PEEP today
   CV: CAD s/p stent [**2127**]. Again Afib + RVR, requiring metoprolol 5mg IV
   x1
   - Rhythm: Afib/RVR. Metoprolol 12.5mg TID, consider increasing BB or
   another [**Doctor Last Name **] but with less fluid removed during HD to prevent
   hypotension.
   - Risk: ASA 81mg
   Glucose control: Humalin 8units QID, NPH 6units [**Hospital1 **], with regular
   insulin sliding scale
   - Endocrine following
   Hypotension: STABLE.  Likely [**12-24**] HD-related fluid shifts.
   - HD: Attempt to maintain 1L negative per session.
   ARF/CRI: STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD
   - Tunneled HD catheter in place
   - Renal following
   Mental status: STABLE.  Per family, responds to them, selectively does
   not respond to [**Hospital Unit Name 44**] team.
   - Daily sessions with interpreter
   Elevated alk phos, ?acalculous cholecystitis: STABLE.  LFTs trending
   down.  Reimage abdomen/gallbladder if clinical change.
   ?Occult malignancy: STABLE.  Per heme/onc, hold further w/u given
   nonspecific elevated LAP.
   Hypothyroidism: STABLE.  Levothyroxine 150mg PO daily.
   Anemia: STABLE.  ACD, receiving epoeitin at HD, transufse for hct >23.
   Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition: Nutren 2.0
   Glycemic Control:  Standing and ISS
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-21 10:44:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2130-2-20**] 03:18 PM
 DIALYSIS CATHETER - STOP [**2130-2-21**] 12:00 AM
   Did not get HD, did not get PSV
   Brief burst of Afib with RVR
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-2-18**] 02:13 PM
   Vancomycin - [**2130-2-19**] 05:02 PM
   Ceftazidime - [**2130-2-21**] 08:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2130-2-21**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 108 (106 - 126) bpm
   BP: 90/44(58) {90/43(58) - 152/67(97)} mmHg
   RR: 23 (19 - 37) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,538 mL
                                                                    438 mL
   PO:
             TF:
                                                                    813 mL
                                                                    100 mL
   IVF:
                                                                    404 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,538 mL
                                                                    438 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 96
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.41/38/86.[**Numeric Identifier 96**]/23/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: lying in bed, eyes open, not responding or
   following commands
   Cardiovascular: (S1: Normal), (S2: Normal) irreg irreg
   Chest fair air movement no wheezes [**Month (only) 38**] BS at right base
   Abd: obese soft NT +BS
   Eyes open,attends son at bedside but not team, not answering questions
   from either
   Labs / Radiology
   7.2 g/dL
   279 K/uL
   161 mg/dL
   2.4 mg/dL
   23 mEq/L
   5.0 mEq/L
   66 mg/dL
   108 mEq/L
   141 mEq/L
   22.4 %
   14.9 K/uL
        [image002.jpg]
                             [**2130-2-17**]  07:13 PM
                             [**2130-2-18**]  05:02 AM
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
   WBC
   27.2
   23.3
   23.8
   14.9
   Hct
   25.1
   23.5
   25.9
   22.4
   Plt
   157
   191
   281
   279
   Cr
   2.1
   1.4
   1.9
   2.4
   TCO2
   26
   24
   28
   26
   25
   Glucose
   197
   259
   159
   91
   161
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Microbiology: Blood Cx no growth to date
   Assessment and Plan
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but last week
   decompensated attributable to VAP
   Acute respiratory failure
   s/p trach on [**2-7**]
   Fever, increased sputum, and respiratory decompensation due to
   pseudomonas VAP
 sensi to Ceftaz #[**1-28**]
   -          PSV trial again after HD
   Sepsis / VRE bacteremia
   -          completed linezolid 14d course
   -          follow cultures
    Afib with RVR
   - rate control adequate at present
   Anuric renal failure
   -          now on HD
   -           tunneled line placed yesterday
   Diabetes
   - on SQ regimen and working with endocrine to maximize glycemic control
   FEN
    - held on PEG given recent decompensation and ?CMV colitis
 surgical
   team stated will readdress when setting up for rehab- will email with
   Dr [**Last Name (STitle) 1924**] to follow up
   Anemia
   -          stable
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: (none HIT)
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Comments:
   Communication:  spoke with son today
   [**Name2 (NI) 66**] status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40

2130-02-22 06:51:00 Physician Resident Progress Note
Chief Complaint: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with
   Pseudomonas PNA on ceftazidime
   24 Hour Events:
   - Patient tolerated PS [**8-30**] 30%
   - IP called for PEG, NPO just in case it happens tomorrow
   - Decreased BP after receiving pain meds as well as metoprolol
   Responded well to 500cc bolus
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-2-19**] 05:02 PM
   Ceftazidime - [**2130-2-21**] 08:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-22**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 113 (103 - 132) bpm
   BP: 115/57(75) {88/41(55) - 156/71(99)} mmHg
   RR: 27 (22 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,654 mL
                                                                    145 mL
   PO:
             TF:
                                                                  1,002 mL
                                                                     17 mL
   IVF:
                                                                    381 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -346 mL
                                                                    145 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 109
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.46/38/92.[**Numeric Identifier 1176**]/25/2
   Ve: 10.7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Gen: NAD
   HEENT: NCAT
   CV: RRR S1S2, no m/r/g noted
   Chest: Diffuse mild coarse breath sounds bilaterally
   Abd: Obese, soft NTND, BS+
   Ext: 1+ BLE
   Labs / Radiology
   400 K/uL
   7.8 g/dL
   194 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   34 mg/dL
   107 mEq/L
   141 mEq/L
   24.6 %
   16.8 K/uL
        [image002.jpg]
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
   WBC
   23.3
   23.8
   14.9
   16.8
   Hct
   23.5
   25.9
   22.4
   24.6
   Plt
   191
   281
   279
   400
   Cr
   1.4
   1.9
   2.4
   1.6
   TCO2
   24
   28
   26
   25
   28
   Glucose
   259
   159
   91
   161
   194
   Other labs: Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: No CXR logged
   Microbiology: 4/1-2: CMV viral load pending
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with Pseudomonas PNA on
   ceftazidime
   Respiratory failure: Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, now
   with Pseudomonas VAP.
   - Abx: Ceftazidime.  Day 1: [**2-17**], goal 8 days.
   - Fluid mgt via HD
   - Vent goal: PS [**8-30**] 30% yesterday
 Decrease PS today, maintain PEEP
   CV: CAD s/p stent [**2127**].
   - Rhythm: Afib/RVR. Metoprolol 25 mg PO TID on days of HD, metoprolol
   12.5 mg PO TID on days after HD T, Th, Sat
   - Risk: ASA 81mg
   Hypotension: Likely [**12-24**] HD-related fluid shifts, pain meds/sedation,
   and BB.
   - HD: Attempt to maintain 1L negative per session.
   - Metoprolol: Adjusted per above
   Glucose control: Humalin 8units QID, NPH 6units [**Hospital1 **], with tightened
   insulin sliding scale
   - Endocrine following
   ARF/CRI: STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD
   - Tunneled HD catheter in place
   - Renal following
   Mental status: STABLE.  Per family, responds to them, selectively does
   not respond to [**Hospital Unit Name 44**] team.
   - Daily sessions with interpreter
   Elevated alk phos, ?acalculous cholecystitis: STABLE.  LFTs trending
   down.  Reimage abdomen/gallbladder if clinical change.
   ?Occult malignancy: STABLE.  Per heme/onc, hold further w/u given
   nonspecific elevated LAP.
   Hypothyroidism: STABLE.  Levothyroxine 150mg PO daily.
   Anemia: STABLE.  ACD, receiving epoeitin at HD, transufse for hct >23.
   Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: Standing
   insulin
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots ([**12-24**] HIT)
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-22 11:58:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated PSV --> now on TC.
   Hypotension to 80s after metoprolol --> 500cc bolus
   History obtained from Medical records, ICU team
   Patient unable to provide history: Language barrier
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-2-19**] 05:02 PM
   Ceftazidime - [**2130-2-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   CHG, nebs, Reglan, ASA, levothyroxine, PPI, Ceftax ([**2-17**]), xoponex,
   SQI, epo, metoprolol (increased to 25 mg q8h yesterday), oxycodone prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-22**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 103 (96 - 135) bpm
   BP: 113/51(73) {73/33(41) - 165/79(109)} mmHg
   RR: 25 (21 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,654 mL
                                                                    856 mL
   PO:
             TF:
                                                                  1,002 mL
                                                                     17 mL
   IVF:
                                                                    381 mL
                                                                    719 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -346 mL
                                                                    856 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 109
   PIP: 30 cmH2O
   SpO2: 100%
   ABG: 7.46/38/92.[**Numeric Identifier 1176**]/25/2
   Ve: 9.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.8 g/dL
   400 K/uL
   194 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   34 mg/dL
   107 mEq/L
   141 mEq/L
   24.6 %
   16.8 K/uL
        [image002.jpg]
                             [**2130-2-18**]  05:16 AM
                             [**2130-2-18**]  06:00 AM
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
   WBC
   23.3
   23.8
   14.9
   16.8
   Hct
   23.5
   25.9
   22.4
   24.6
   Plt
   191
   281
   279
   400
   Cr
   1.4
   1.9
   2.4
   1.6
   TCO2
   24
   28
   26
   25
   28
   Glucose
   259
   159
   91
   161
   194
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but last week
   decompensated attributable to VAP
   Acute respiratory failure
          s/p trach on [**2-7**]
          Pseudomonas nosocomial pneumonia (acquired while off
   ventilator)
 sensi to Ceftaz #[**1-28**]
          RSBI 109; lower PSV support as tolerated today
   Sepsis / VRE bacteremia / CMV viremia
   -          completed linezolid 14d course
   -          completed course of  ganciclovir, and repeat CMV viral load
   was negative
   -          follow cultures
    Afib with RVR
   - rate control adequate at present.  Will adjust metoprolol to lower
   dose.
   Anuric renal failure
   -          now on HD via tunnelled line
   Diabetes
   - on SQ regimen
   FEN
    - will discuss PEG further with family and procedural teams
   Anemia
   -          stable
   ICU Care
   Nutrition:  TF on hold while PEG issue sorted out.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-02-23 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received PEG
   - Med changes: Metoclopramide d/c'd, metoprolol schedule changed
   - Vent: On PS; RSBI still pending this a.m.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-2-22**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-23**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 124 (91 - 135) bpm
   BP: 146/70(98) {72/33(41) - 165/79(109)} mmHg
   RR: 31 (16 - 37) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.9 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,527 mL
                                                                    109 mL
   PO:
             TF:
                                                                     17 mL
   IVF:
                                                                  1,340 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,527 mL
                                                                    109 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 325 (325 - 360) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.46/36/75/23/1
   Ve: 11.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   566 K/uL
   7.9 g/dL
   81 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.9 mEq/L
   41 mg/dL
   109 mEq/L
   144 mEq/L
   25.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2130-2-19**]  04:57 AM
                             [**2130-2-19**]  05:23 AM
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
   WBC
   23.3
   23.8
   14.9
   16.8
   15.4
   Hct
   23.5
   25.9
   22.4
   24.6
   25.0
   Plt
   191
   281
   279
   400
   566
   Cr
   1.4
   1.9
   2.4
   1.6
   2.0
   TCO2
   28
   26
   25
   28
   26
   Glucose
   159
   91
   161
   194
   81
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: WBC usually above 20's, now lower.
   Microbiology: CMV pending from [**2-22**]
   blood cx x2 [**2-19**] NGTD
   cdiff negative x3 [**2052-2-16**]
   [**2-17**] pseudomonas in sputum
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with Pseudomonas PNA on
   ceftazidime
   Respiratory failure: Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, now
   with Pseudomonas VAP.
   - Abx: Ceftazidime.  Day 1: [**2-17**], goal 8 days. today day 7.
   - Fluid mgt via HD
   - Vent goal: in AM, PS 30% 10/5.  goal down to 5/5 today. try trach
   collar trial
   CV: CAD s/p stent [**2127**].
   - Rhythm: Afib/RVR. Metoprolol 25 mg PO TID on days of HD, metoprolol
   12.5 mg PO TID on days after HD T, Th, Sat
   - Risk: ASA 81mg
   Hypotension: Likely [**12-24**] HD-related fluid shifts, pain meds/sedation,
   and BB.
   - HD: Attempt to maintain 1L negative per session.
   - Metoprolol: Adjusted per above
   Glucose control: Humalin 8units QID, NPH 6units [**Hospital1 **], with tightened
   insulin sliding scale
   - Endocrine following
   ARF/CRI: STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD
   - Tunneled HD catheter in place
   - Renal following
   Mental status: STABLE.  Per family, responds to them, selectively does
   not respond to [**Hospital Unit Name 44**] team.
   - Daily sessions with interpreter
   Elevated alk phos, ?acalculous cholecystitis: STABLE.  LFTs trending
   down.  Reimage abdomen/gallbladder if clinical change.
   ?Occult malignancy: STABLE.  Per heme/onc, hold further w/u given
   nonspecific elevated LAP.
   Hypothyroidism: STABLE.  Levothyroxine 150mg PO daily. Will recheck t4,
   tbg weekly per endo. Appreciate endo recs.
   Anemia: STABLE.  ACD, receiving epoeitin at HD, transufse for hct >23.
   Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition: Nutren Renal Full strength
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-23 10:56:00 Physician Attending Progress Note
CRITICAL CARE STAFF
   I saw and examined Ms. [**Known lastname **] with the ICU team and was physically
   present for the key portions of services provided.  The ICU team
s note
   today reflects my input.  She remains critically ill, and I would
   add/emphasize that:
   She tolerated her PEG without complications.  She had some hypotension
   around metoprolol dosing, and we adjusted the dosing of metoprolol
   based on dialysis days.
   Her exam is stable, except for the PEG site, which looks fine.
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but decompensated
   last week attributable to Pseudomonal nosocomial pneumnonia.
   Acute respiratory failure
     * s/p trach on [**2-7**]; had been on trach collar but back on vent about
       [**2-16**] due to pneumonia
     * Pseudomonas nosocomial pneumonia (acquired while off ventilator)
       sensitive to ceftaz, started on [**2-17**].  Will complete at least 8 day
       course.
     * Still on PSV 10/5.  Lower to [**3-27**] and try to get to TC today
   Sepsis / VRE bacteremia / CMV viremia
   -          completed linezolid 14d course
   -          completed course of  ganciclovir, and repeat CMV viral load
   was negative
   -          follow cultures
    Afib with RVR
   -          rate control is suboptimal today after our metoprolol
   adjustments (done for hypotension).  Will try to gently titrate back
   up.  If unable to get better control, may need to look at other
   pharmacologic therapy.
   Anuric renal failure
   -          now on HD via tunneled line
   Diabetes
   - on SQ regimen
   FEN
   -          s/p PEG without incident
   -          tube feeds
   Anemia
   -          stable
   If she continues on her present course, should be ready for rehab
   screening in next few days.
   Critical Care time: 35 minutes

2130-02-24 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ps trial 5/0: 7.41/35/86
   not dialyzed (needed unit for [**Last Name (un) **]; discussed this w/ son, he was
   upset)
   ? overloaded, not able to tolerate further wean
   HR --> 140s, Iv metoprolol @ 1700 x 1
   CXR: eval position of PICC line, nursing concerned was moved.  ok
   position.
   MUST clarify BP regimen w/ METOPROLOL, since should get LOWER dose on
   HD days, plus HD will be given today!
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2130-2-23**] 05:48 PM
   Lansoprazole (Prevacid) - [**2130-2-23**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-24**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 113 (107 - 135) bpm
   BP: 116/49(73) {102/47(65) - 152/75(103)} mmHg
   RR: 33 (23 - 43) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                    960 mL
                                                                    287 mL
   PO:
             TF:
                                                                    159 mL
                                                                    220 mL
   IVF:
                                                                    461 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                    287 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (288 - 391) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 139
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.39/40/76.[**Numeric Identifier 128**]//0
   Ve: 11.8 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all pulses palpable
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, PEG in place
   Extremities: +++ edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   566 K/uL
   7.9 g/dL
   81 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.9 mEq/L
   41 mg/dL
   109 mEq/L
   144 mEq/L
   25.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2130-2-19**]  09:53 PM
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:31 AM
   WBC
   23.8
   14.9
   16.8
   15.4
   Hct
   25.9
   22.4
   24.6
   25.0
   Plt
   [**Telephone/Fax (3) 1966**]66
   Cr
   1.9
   2.4
   1.6
   2.0
   TCO2
   26
   25
   28
   26
   23
   25
   Glucose
   91
   161
   194
   81
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Imaging: no cxr today
   Microbiology: [**2-22**] CMV: none detected ([**2-15**] also none detected)
   [**2-17**] blood cx final neg
   [**2-19**] blood cx no growth to date
   [**2-17**] sputum to strains, both sensitive to ceftaz
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with Pseudomonas PNA on
   ceftazidime
   Respiratory failure: Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, now
   with Pseudomonas VAP.
   - Abx: Ceftazidime.  Day 1: [**2-17**], goal 8 days. today day 8
   - Fluid mgt via HD
   - Vent goal: tolerated 5/0 30% for several hours yesterday. Will try
   trach collar trial after pt gets HD today
   CV: CAD s/p stent [**2127**].
   - Rhythm: Afib/RVR. Metoprolol 25 mg PO TID on days of HD, metoprolol
   12.5 mg PO TID on days after HD T, Th, Sat
   - Risk: ASA 81mg
   Hypotension: Likely [**12-24**] HD-related fluid shifts, pain meds/sedation,
   and BB.
   - HD: Attempt to maintain 1L negative per session.
   - Metoprolol: Adjusted per above
   Glucose control: Humalin 8units QID, NPH 6units [**Hospital1 **], with tightened
   insulin sliding scale
   - Endocrine following, appreciated recs
   ARF/CRI: STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD
   - Tunneled HD catheter in place
   - Renal following
   Mental status: STABLE.  Per family, responds to them, selectively does
   not respond to [**Hospital Unit Name 44**] team.
   - Daily sessions with interpreter
   Elevated alk phos, ?acalculous cholecystitis: STABLE.  LFTs trending
   down.  Reimage abdomen/gallbladder if clinical change.
   ?Occult malignancy: STABLE.  Per heme/onc, hold further w/u given
   nonspecific elevated LAP.
   Hypothyroidism: STABLE.  Levothyroxine 150mg PO daily. Will recheck t4,
   tbg weekly per endo. Appreciate endo recs.
   Anemia: STABLE.  ACD, receiving epoeitin at HD, transufse for hct >23.
   Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-23**] 04:02 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-24 11:05:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major clinical events; did not get dialyzed yesterday.  Little
   interaction with translator yesterday.
   Patient unable to provide history: Language barrier, trach
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2130-2-23**] 05:48 PM
   Lansoprazole (Prevacid) - [**2130-2-23**] 08:15 PM
   Other medications:
   CHG, nebs, ASA, levothyroxine, PPI, ceftaz, epo, metoprolol, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-24**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 126 (110 - 135) bpm
   BP: 132/61(85) {109/49(71) - 152/75(103)} mmHg
   RR: 36 (29 - 43) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                    960 mL
                                                                    553 mL
   PO:
             TF:
                                                                    159 mL
                                                                    394 mL
   IVF:
                                                                    461 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                    553 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (288 - 391) mL
   PS : 8 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 139
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.39/40/76.[**Numeric Identifier 128**]/20/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, PEG site looks OK
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   632 K/uL
   85 mg/dL
   2.6 mg/dL
   20 mEq/L
   5.1 mEq/L
   49 mg/dL
   109 mEq/L
   142 mEq/L
   24.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
   WBC
   23.8
   14.9
   16.8
   15.4
   14.1
   Hct
   25.9
   22.4
   24.6
   25.0
   24.1
   Plt
   [**Telephone/Fax (3) 1966**]66
   632
   Cr
   1.9
   2.4
   1.6
   2.0
   2.6
   TCO2
   25
   28
   26
   23
   25
   Glucose
   91
   161
   194
   81
   85
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.7
   mg/dL
   Microbiology: CMV - none detected.
   [**2-17**] - BCx NGSF
   [**2-17**] - two strains of CSA
   Assessment and Plan
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but decompensated
   last week attributable to Pseudomonal nosocomial pneumnonia.
   Acute respiratory failure
     * s/p trach on [**2-7**]; had been on trach collar but back on vent about
       [**2-16**] due to pneumonia
     * Pseudomonas nosocomial pneumonia (acquired while off ventilator)
       sensitive to ceftaz, started on [**2-17**].  Finished eight-day course
       today.   Maintain vigilance for recrudescence.
     * Try TC after dialysis today.
   Sepsis / VRE bacteremia / CMV viremia
   -          completed linezolid 14d course
   -          completed course of  ganciclovir, and repeat CMV viral load
   was negative
   -          follow cultures
    Afib with RVR
   -          rate control remains suboptimal.
   -          She has had substantial trouble with post-metoprolol
   hypotension.  We will try gentle diltiazem today.  If unable to get
   better control, may need to look at other pharmacologic therapy.
   Anuric renal failure
   -          now on HD via tunneled line
   Diabetes
   - on SQ regimen
   FEN
   -          s/p PEG
   -          tube feeds
   Anemia
   -          stable
   Main issue limiting potential transfer to rehab at present is stable
   Afib control.  If she continues on her present course, should be ready
   for rehab screening in next few days.
   Critical Care time: 35 minutes
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-24**] 09:19 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots(HIT(+))
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35 min
   Patient is critically ill

2130-02-24 16:44:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34 yo F with htn, cad admitted resp failure
   24 Hour Events:
   febrile cx drawn
   History obtained from Family / Friend, house staff
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2130-2-23**] 05:48 PM
   Lansoprazole (Prevacid) - [**2130-2-23**] 08:15 PM
   Diltiazem - [**2130-2-24**] 12:22 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Cough
   Flowsheet Data as of  [**2130-2-24**] 04:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 111 (99 - 135) bpm
   BP: 144/68(93) {109/49(71) - 152/73(101)} mmHg
   RR: 34 (29 - 43) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                    960 mL
                                                                    853 mL
   PO:
             TF:
                                                                    159 mL
                                                                    589 mL
   IVF:
                                                                    461 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                    853 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (288 - 355) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 139
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.39/40/76.[**Numeric Identifier 128**]/20/0
   Ve: 14.8 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No(t) Well nourished
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   632 K/uL
   85 mg/dL
   2.6 mg/dL
   20 mEq/L
   5.1 mEq/L
   49 mg/dL
   109 mEq/L
   142 mEq/L
   24.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2130-2-20**]  04:22 AM
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
   WBC
   23.8
   14.9
   16.8
   15.4
   14.1
   Hct
   25.9
   22.4
   24.6
   25.0
   24.1
   Plt
   [**Telephone/Fax (3) 1966**]66
   632
   Cr
   1.9
   2.4
   1.6
   2.0
   2.6
   TCO2
   25
   28
   26
   23
   25
   Glucose
   91
   161
   194
   81
   85
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   jjf sv
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-24**] 09:19 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2130-02-25 06:17:00 Physician Resident Progress Note
Chief Complaint: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, now with
   Pseudomonas PNA on ceftazidime
   24 Hour Events:
   - Metoprolol changed to diltiazem 30mg TID, increasing this a.m.
   - Vent: Did not tolerate wean to trach collar, tachypneic to 40s
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2130-2-24**] 12:22 PM
   Lansoprazole (Prevacid) - [**2130-2-24**] 10:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-25**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 130 (99 - 135) bpm
   BP: 137/54(83) {103/42(61) - 163/75(106)} mmHg
   RR: 41 (29 - 41) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,429 mL
                                                                    329 mL
   PO:
             TF:
                                                                    859 mL
                                                                    217 mL
   IVF:
                                                                    340 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,429 mL
                                                                    329 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (300 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 104
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.44/41/81.[**Numeric Identifier 253**]//3
   Ve: 12.6 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   632 K/uL
   7.6 g/dL
   85 mg/dL
   2.6 mg/dL
   20 mEq/L
   5.1 mEq/L
   49 mg/dL
   109 mEq/L
   142 mEq/L
   24.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2130-2-21**]  06:26 AM
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
                             [**2130-2-24**]  05:12 PM
   WBC
   14.9
   16.8
   15.4
   14.1
   Hct
   22.4
   24.6
   25.0
   24.1
   Plt
   279
   400
   566
   632
   Cr
   2.4
   1.6
   2.0
   2.6
   TCO2
   25
   28
   26
   23
   25
   29
   Glucose
   161
   194
   81
   85
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p ceftazidime course for
   Pseudomonas VAP
   Respiratory failure: Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, now
   with Pseudomonas VAP.
   - Fluid mgt via HD
   - Vent goal: to trach collar today after HD. Keep her on this unless
   major change in respiratory status.
   CV: CAD s/p stent [**2127**].
   - Rhythm: Afib/RVR. Metoprolol 25 mg PO TID on days of HD, metoprolol
   12.5 mg PO TID on days after HD
   - try 5mg IV dilt for rate control, start PO dosing if IV works for
   better control of her a fib.
   - Risk: ASA 81mg
   Hypotension: Likely [**12-24**] HD-related fluid shifts, pain meds/sedation,
   and BB.
   - HD: Attempt to maintain 1L negative per session.
   - Diltiazem per above
   Glucose control: Humalin 8units QID, NPH 6units [**Hospital1 **], with tightened
   insulin sliding scale
   - Endocrine following, appreciated recs
   ARF/CRI: STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD
   - Tunneled HD catheter in place
   - Renal following
 HD today
   Mental status: STABLE.  Responding a little more to [**Hospital Unit Name 44**] staff
   recently.
   - Attempt QOD sessions with interpreter
   Elevated alk phos, ?acalculous cholecystitis: STABLE.  LFTs trending
   down.  Reimage abdomen/gallbladder if clinical change.
   ?Occult malignancy: STABLE.  Per heme/onc, hold further w/u given
   nonspecific elevated LAP.
   Hypothyroidism: STABLE.  Levothyroxine 150mg PO daily. Will recheck t4,
   t3 uptake weekly per endo. Appreciate endo recs. Last checked [**2130-2-24**]
   Anemia: STABLE.  ACD, receiving epoeitin at HD, transufse for hct >23.
   Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-24**] 11:29 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-02-25 12:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed TC (tachypnea, tachycardia)
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2130-2-24**] 12:22 PM
   Lansoprazole (Prevacid) - [**2130-2-25**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-25**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 128 (99 - 140) bpm
   BP: 147/60(92) {103/42(61) - 163/75(106)} mmHg
   RR: 43 (29 - 43) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,429 mL
                                                                    648 mL
   PO:
             TF:
                                                                    859 mL
                                                                    426 mL
   IVF:
                                                                    340 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,429 mL
                                                                    648 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (300 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 104
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/41/81.[**Numeric Identifier 253**]/24/3
   Ve: 15.4 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: No acute distress (but she complains of anxiety and
   abd pain when asked)
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely)
   Extremities: Right: 1+, Left: 1+
   Skin:  No change
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Decreased
   Labs / Radiology
   7.3 g/dL
   591 K/uL
   74 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   30 mg/dL
   111 mEq/L
   148 mEq/L
   24.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2130-2-21**]  06:38 AM
                             [**2130-2-21**]  03:07 PM
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
                             [**2130-2-24**]  05:12 PM
                             [**2130-2-25**]  05:36 AM
   WBC
   16.8
   15.4
   14.1
   11.7
   Hct
   24.6
   25.0
   24.1
   24.1
   Plt
   400
   566
   632
   591
   Cr
   1.6
   2.0
   2.6
   1.8
   TCO2
   25
   28
   26
   23
   25
   29
   Glucose
   194
   81
   85
   74
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR: no significant change from previous
   Assessment and Plan
   Assessment and Plan
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but decompensated
   last week attributable to Pseudomonal nosocomial pneumnonia. Her main
   issue currently is the A-fib with inadequate rate control as well as
   vent-dependent respiratory failure, requiring continued adjusting
   Acute respiratory failure
   s/p trach on [**2-7**]; had been on trach collar but back on vent about [**2-16**]
   due to pneumonia
   Pseudomonas nosocomial pneumonia (acquired while off ventilator)
   sensitive to ceftaz, started on [**2-17**].  Finished eight-day course [**2-24**].
   Maintain vigilance for recrudescence.
   Need to get her seated upright and re-trial TC daily (while optimizing
   vol status with HD)
   Sepsis / VRE bacteremia / CMV viremia
   -          completed linezolid 14d course
   -          completed course of  ganciclovir, and repeat CMV viral load
   was negative
   -          susbequet cultures have been neg
    Afib with RVR
   -          rate control remains suboptimal, now on diltiazem with now
   on 60 mg PO qid (will max dilt to 90 mg qid for goal rate ~ 90/min and
   then  add Digoxin possibly dosing QOD with level checks). The concern
   remains for tachy induced CM.
   -          She has had substantial trouble with post-metoprolol
   hypotension (now off metop) and BP OK.
   Anuric renal failure
   -          now on HD via tunneled line
   - Renal OK with digoxin if we need to use it.
   Diabetes
   - on SQ regimen
   FEN
   -          s/p PEG
   -          tube feeds
   Anemia
   -          stable
   Anxiety
   low dose lorazepam prn
   Main issue limiting potential transfer to rehab at present is stable
   Afib control.  If she continues on her present course, should be ready
   for rehab screening in next few days.
   Critical Care time: 35 minutes
   RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-24**] 11:29 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots(Hx of HIT)
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:  Portugese translator QOD
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-02-26 06:59:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - Increased oxycodone to 5mg Q4H PRN
   - Renal: HD held yesterday given tachycardia morning
   - Vent: PS 5/5
   - Anxiety: Lorazepam 1mg Q6H PRN --> very anxious and pulling at PEG
   tube --> will need better anxiety control
   - CV: Maximized diltiazem to 90mg QID and added digoxin 0.125mg PO QOD
   - Hypernatremia: Free water flushes added at 200 ml Q4H
   - PSV increased to thick tan secretions [**8-27**].  then back to PSV 5/5
   this am.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-2-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-26**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 103 (81 - 140) bpm
   BP: 142/98(117) {105/43(61) - 152/98(117)} mmHg
   RR: 40 (26 - 43) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,533 mL
                                                                    814 mL
   PO:
             TF:
                                                                    843 mL
                                                                    244 mL
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,533 mL
                                                                    815 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (300 - 395) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 118
   SpO2: 95%
   ABG: 7.42/38/78.[**Numeric Identifier 244**]/22/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   692 K/uL
   7.4 g/dL
   223 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   40 mg/dL
   110 mEq/L
   145 mEq/L
   24.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
                             [**2130-2-24**]  05:12 PM
                             [**2130-2-25**]  05:36 AM
                             [**2130-2-25**]  08:28 PM
                             [**2130-2-26**]  04:57 AM
   WBC
   16.8
   15.4
   14.1
   11.7
   11.6
   Hct
   24.6
   25.0
   24.1
   24.1
   24.7
   Plt
   400
   566
   632
   591
   692
   Cr
   1.6
   2.0
   2.6
   1.8
   2.4
   TCO2
   26
   23
   25
   29
   25
   Glucose
   194
   81
   85
   74
   91
   223
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p Pseudomonas VAP
   (ceftazidime)
    Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime.
   Likely exacerbated by fluid balance at this point.  Will pursue HD
   tomorrow.
   Also improved w/ HR and BP control, improved w/ prn ativan.
   ? VAP recurrence w/ increased sputum and short (8 d course) of
   antibiotics for pseudomonas.
   -          Trach collar wean tomorrow w/ HD
   -          -sputum culture / gram stain
   CV:
   **CAD s/p stent [**2127**].
   - Rhythm: Afib/RVR. Diltiazem 90mg QID + low-dose digoxin 0.125 mg QOD
   for further control
   - Risk: ASA 81mg
   - check dig level tomorrow am.
   **Hypotension: Likely [**12-24**] HD-related fluid shifts, pain meds/sedation,
   and metoprolol (d/c
   Cont to follow w/ dilt, dig, HD.
   ENDOCRINE
   **Glucose control: Humalin 8units QID, NPH 6units [**Hospital1 **], with tightened
   insulin sliding scale
   - Review endo recs
   **HYPOTHYROID
   STABLE.  Levothyroxine 150mg PO daily. Will recheck t4, t3 uptake
   weekly per endo. Appreciate endo recs. Last checked [**2130-2-24**]
   ARF/CRI:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD.
   - Tunneled HD catheter in place
   - Review renal recs
   - HD tomorrow for fluid balance
    Mental status:
   Somewhat more somnolent this morning on ativan prn.  Will decrease
   ativan to 0.5 mg prn.
   - Attempt QOD sessions with interpreter for orientation
    LFT abnormalities
   Elevated alk phos, LFTs trending down.  Reimage abdomen/gallbladder if
   clinical change.
   ?Occult malignancy:
   STABLE.  Per heme/onc, hold further w/u given nonspecific elevated LAP.
   Anemia: STABLE.  ACD, epoeitin at HD, transufse for hct >23.
    Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-26**] 03:46 AM 35 mL/hour
   Glycemic Control:  ssi + reg/nph
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lansoprazole
   VAP:  chlorhex, mouth care
   Comments:
   Communication:  Comments: sons, family
   [**Name2 (NI) 66**] status: DNR (do not resuscitate)
   Disposition: icu

2130-02-26 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Held HD yesterday (for tachy)
   Trialed benzo for anxiety
   Added digoxin for rate control.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-2-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-26**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 95 (81 - 130) bpm
   BP: 133/51(78) {104/39(59) - 152/98(354)} mmHg
   RR: 38 (26 - 43) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.8 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,533 mL
                                                                  1,225 mL
   PO:
             TF:
                                                                    843 mL
                                                                    386 mL
   IVF:
                                                                    240 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,533 mL
                                                                  1,225 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 260 (260 - 360) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 118
   SpO2: 92%
   ABG: 7.42/38/78.[**Numeric Identifier 244**]/22/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l, Diminished:
   bases)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed, Seems more calm
   Labs / Radiology
   7.4 g/dL
   692 K/uL
   223 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   40 mg/dL
   110 mEq/L
   145 mEq/L
   24.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2130-2-22**]  04:29 AM
                             [**2130-2-23**]  04:44 AM
                             [**2130-2-23**]  05:09 AM
                             [**2130-2-23**]  12:07 PM
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
                             [**2130-2-24**]  05:12 PM
                             [**2130-2-25**]  05:36 AM
                             [**2130-2-25**]  08:28 PM
                             [**2130-2-26**]  04:57 AM
   WBC
   16.8
   15.4
   14.1
   11.7
   11.6
   Hct
   24.6
   25.0
   24.1
   24.1
   24.7
   Plt
   400
   566
   632
   591
   692
   Cr
   1.6
   2.0
   2.6
   1.8
   2.4
   TCO2
   26
   23
   25
   29
   25
   Glucose
   194
   81
   85
   74
   91
   223
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:32/40, Alk Phos / T Bili:582/0.5,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR: increasing interstitial edema
   Assessment and Plan
   79 year old woman with complicated recent course, including ARDS, CMV
   viremia, and VRE bacteremia.  She had been improving but decompensated
   last week attributable to Pseudomonal nosocomial pneumnonia. Her main
   issue currently is the A-fib with inadequate rate control as well as
   vent-dependent respiratory failure, requiring continued adjusting
   Respiratory failure
   s/p trach on [**2-7**]; had been on trach collar but back on vent about [**2-16**]
   due to pneumonia, has been a slow wean since that time.
   Pseudomonas nosocomial pneumonia (acquired while off ventilator)
   sensitive to ceftaz, started on [**2-17**].  Finished eight-day course [**2-24**].
   Maintain vigilance for recrudescence. Had some increased sputum
   yesterday (will send ET aspirate today).
   Hold TC today (vol overloaded and not getting HD today)
   - Her anxiety and pain are significantly better today with a benzo
   titration yesterday
    Sepsis / VRE bacteremia / CMV viremia
   -          completed linezolid 14d course
   -          completed course of  ganciclovir, and repeat CMV viral load
   was negative
   -          susbequent cultures have been neg
   Afib with RVR
   -          rate control remains suboptimal, now on diltiazem with now
   on 90 mg PO qid and digoxin qod. also seems to have improved with some
   anxiety control. Dig level [**2-27**]
   -          She has had substantial trouble with post-metoprolol
   hypotension (now off metop) and BP OK.
   Anuric renal failure
   -          now on HD via tunneled line. held on saturday for tachy.
   Will get HD on Monday
   - Renal OK with digoxin
    Anxiety
   low dose lorazepam prn seems to have significantly improved anxiety. A
   little too sedated this AM, we will decrease the benzo dosing and freq.
   Dispo:
   Main issue limiting potential transfer to rehab at present is stable
   Afib control which has improved as above. We will contact case
   management in the AM for placement in vent rehab.
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-26**] 03:46 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments: Need to begin vent screen for rehab now that
   heart rate is controlled.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2130-02-27 07:14:00 Physician Resident Progress Note
Chief Complaint: h/o ARDS [**12-24**] PNA, renal failure on HD s/p ceftaz for
   pseudomonas pna
   24 Hour Events:
   HD not performed yesterday
   No trach mask trial given volume overload
   Dig dc
d, HR was slower with ativan
   Ativan decreased to 0.5 from 1 given lethargy over the day
   Increased FiO2 with low ABG PaO2
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-2-26**] 08:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2130-2-27**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 92 (74 - 98) bpm
   BP: 143/60(89) {102/36(57) - 143/82(104)} mmHg
   RR: 29 (17 - 41) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,441 mL
                                                                    746 mL
   PO:
             TF:
                                                                    841 mL
                                                                    246 mL
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
                                                               Incontinent
                                                               Incontinent
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,441 mL
                                                                    746 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (260 - 360) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: 7.31/47/57/23/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Gen: Alert, nonverbal
   HEENT: trach in place, NCAT
   CV: Irreg irreg, no m/r/g
   Chest: Diffuse coarse breath sounds bilaterally
   Abd: Soft, NTND, +BS
   Ext: 1+ BLE edema
   Labs / Radiology: CXR [**2-26**] -> No major changes since prior, likely
   bilateral pleural effusions
   741 K/uL
   7.1 g/dL
   106 mg/dL
   2.7 mg/dL
   23 mEq/L
   5.1 mEq/L
   46 mg/dL
   105 mEq/L
   139 mEq/L
   23.7 %
   15.9 K/uL
        [image002.jpg]
                             [**2130-2-24**]  06:07 AM
                             [**2130-2-24**]  06:31 AM
                             [**2130-2-24**]  05:12 PM
                             [**2130-2-25**]  05:36 AM
                             [**2130-2-25**]  08:28 PM
                             [**2130-2-26**]  04:57 AM
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
   WBC
   14.1
   11.7
   11.6
   15.9
   Hct
   24.1
   24.1
   24.7
   23.7
   Plt
   632
   591
   692
   741
   Cr
   2.6
   1.8
   2.4
   2.7
   TCO2
   25
   29
   25
   27
   24
   25
   Glucose
   85
   74
   91
   223
   106
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.1
   mg/dL
   Micro:
[**2130-2-26**] 3:29 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2130-2-26**]):
   [**9-16**] PMNs and <10 epithelial cells/100X field.
   1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Pending):
   FS: MN 90, 6am 200, 12:00 236, 6pm 154, 21:00 125, 2am 106
   Assessment and Plan
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p Pseudomonas VAP
   (ceftazidime)
   #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance at this point. HD not performed yesterday,
   will pursue today.  Also improved w/ HR and BP control (ativan prn).
   Now with GNR in sputum from [**2-26**] and rising WBC.  ? VAP recurrence w/
   increased sputum and short course of antibiotics for pseudomonas.
   Sputum gram stain showing 1+ GNR, cx pending
   - Will restart Ceftaz today for likely recurrence of VAP,
   ceftaz-sensitive in the past.
   - F/u sputum cx
   - Trach collar wean when volume status improved
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Diltiazem 90mg QID, dig dc
d today as ativan
   controlling rate
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: Per endo recs, Humalin 8units QID, NPH 6units [**Hospital1 **]
   (at 8 and 8), with tightened insulin sliding scale
   - Review endo recs
   **HYPOTHYROID
   STABLE.  Levothyroxine 150mg PO daily. Will recheck t4, t3 uptake
   weekly per endo. Appreciate endo recs. Last checked [**2130-2-24**]
   #ARF/CRI:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Review renal recs, will place foley for 24 hours to quantify urine.
   - HD today for fluid balance
   # Hypernatremia: Resolved. - Hypernatremia resolved, will decrease free
   water to 100cc q6H
   # Mental status: Was more somnolent after initiation of ativan.
   Decreased dose to 0.5 mg with improvement in level of alertness.
   - Attempt QOD sessions with interpreter for orientation
   #LFT abnormalities
   Elevated alk phos, LFTs trending down.  Reimage abdomen/gallbladder if
   clinical change.
   ?Occult malignancy:
   STABLE.  Per heme/onc, hold further w/u given nonspecific elevated LAP.
   #Anemia: STABLE.  ACD, epoeitin at HD, transufse for hct >23.
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-26**] 05:56 PM 35 mL/hour
   Glycemic Control:  Insulin standing and sliding scale as per endocrine
   recs.
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Pneumoboots as HIT Ab positive
   Stress ulcer: Lansoprazole
   VAP:  Ceftaz
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU level of care
   ------ Protected Section ------
   Ms. [**Known lastname **] was seen and examined with the ICU team, and I was physically
   present for key portions of the services rendered.  The ICU team
s note
   reflects my input.  I would add/emphasize:
          Recently treated pseudomas VAP
          Clinically recurrent VAP, starting antipseudomonal Abx
          Rate controlled on dilt and ativan
          Multifactorial resp failure with PNA, ARDS, COPD, CAD,
   anxiety, atrophy. Requiring more vent support. Will readdress vent
   independence when acute VAP improves.
   Critically ill. Total time: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2130-2-27**] 18:52 ------

2130-02-28 07:37:00 Physician Resident Progress Note
Chief Complaint: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p
   Pseudomonas VAP (ceftazidime) treated now with GNR in sputum.
   24 Hour Events:
 BLOOD CULTURED - At [**2130-2-27**] 07:31 PM
   -          HD performed with 3L removed
   -          Foley placed with 20cc urine over the day
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-27**] 01:45 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-2-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-28**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 71 (71 - 102) bpm
   BP: 100/39(56) {100/39(56) - 149/76(89)} mmHg
   RR: 23 (22 - 38) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,334 mL
                                                                    436 mL
   PO:
             TF:
                                                                    844 mL
                                                                    261 mL
   IVF:
                                                                    341 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,441 mL
                                                                      0 mL
   Urine:
                                                                     26 mL
   NG:
   Stool:
                                                                     15 mL
   Drains:
   Balance:
                                                                 -1,107 mL
                                                                    436 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (269 - 335) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 104
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.32/58/81.[**Numeric Identifier 607**]/29/1
   Ve: 6.2 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Gen: Alert and interactive
   HEENT: trach in place
   CV: irreg irreg, no murmurs
   Pulm: Coarse BS, poor air movement, diffuse rales
   Abd: Soft, mild distension, some tenderness over LLQ lateral to PEG
   site, +BS
   Ext: BLE edema, unchanged
   Labs / Radiology: No new radiology
   414 K/uL
   6.8 g/dL
   112 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   26 mg/dL
   105 mEq/L
   143 mEq/L
   21.4 %
   13.1 K/uL
        [image002.jpg]
                             [**2130-2-25**]  05:36 AM
                             [**2130-2-25**]  08:28 PM
                             [**2130-2-26**]  04:57 AM
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
   WBC
   11.7
   11.6
   15.9
   13.1
   Hct
   24.1
   24.7
   23.7
   21.4
   Plt
   591
   692
   741
   414
   Cr
   1.8
   2.4
   2.7
   1.8
   TCO2
   25
   27
   24
   25
   25
   31
   Glucose
   74
   91
   223
   106
   112
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Micro: Sputum culture prelim showing GNR
   Assessment and Plan
   Assessment and Plan: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p
   Pseudomonas VAP (ceftazidime) treated now with GNR in sputum.
   #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance. HD performed yesterday with >3L removed.
   Also improved w/ HR and BP control (ativan prn).  Now with 1+ GNR in
   sputum from [**2-26**], rising WBC, restarted on Ceftaz yesterday for ? VAP
   recurrence given increased sputum and short course of antibiotics for
   prior pseudomonas.
   - Continue Ceftaz as likely recurrence of VAP, ceftaz-sensitive in the
   past.  Will give 8 day course of therapy
   - F/u sputum cx
   - Trach collar wean when volume status improved and VAP resolves
   - ABG this am showing increased PaCO2 with no change in pH, likely [**12-24**]
   atelectasis. Will get patient OOB to chair today. No need for routine
   ABGs unless clinically indicated.
   #Anemia: Decreasing over last several days, down to 21 today.  ACD,
   guaiac pos stool, history of chronic GIB s/p EGD early in this
   admission just showing gastritis. Epoeitin at HD, transufse for hct
   >23.
   - Will transfuse one unit prbcs today.
   - Given some mild abdominal pain, will image abdomen if no appropriate
   bump in Hct with tx.
   # Abdominal Pain: Unclear cause. PEG site c/d/i. No exudate. Nontender
   around site.
   - Patient has only had minimal BM for several days which may be
   contributing. No clear indication that PEG is source
   - Small guaiac pos stool today prior to SSE being given, will continue
   to monitor, not grossly bloody
   - Pain control
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Diltiazem 90mg QID, dig dc
d as ativan controlling
   rate
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - Review endo recs
   **HYPOTHYROID
   STABLE.  Levothyroxine 150mg PO daily. TFTs rechecked, will follow endo
   recs.  Will continue to check weekly.
   #ARF/CRI:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Review renal recs, will place foley for 24 hours to quantify urine,
   20cc out over the day yesterday.
   - Continue HD as per renal.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   # Mental status: Was more somnolent after initiation of ativan.
   Decreased dose to 0.5 mg with improvement in level of alertness.
   - Attempt QOD sessions with interpreter for orientation
   #LFT abnormalities
   Elevated alk phos, LFTs trending down.  Reimage abdomen/gallbladder if
   clinical change.
   ?Occult malignancy:
   STABLE.  Per heme/onc, hold further w/u given nonspecific elevated LAP.
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-2-27**] 10:23 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Arterial Line - [**2130-2-19**] 08:10 PM
 will remove today.
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Pneumoboots as HIT positive
   Stress ulcer:  Lansoprazole
   VAP:  Ceftaz
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU LOC

2130-03-01 07:03:00 Physician Resident Progress Note
Chief Complaint: 79 yoF with ARDS [**12-24**] PNA, renal failure on HD, s/p
   pseudomonas VAP treated with ceftaz for 8 days, now with GNR in sputum
   and presumed VAP on ceftaz
   24 Hour Events:
   -Portugese interpreter yesterday, patient unable to speak due to trach
   -A line d/c'd
   -OOB to chair during the day which she did tolerate
   -tx 1 unit PRBCs with appropriate bump in Hct
   -Guaiac positive stool, had EGD in [**Month (only) **] with gastritis, already on
   lansoprazole, added sucralfate
   -Has leak in trach cuff.  TF held. IP to fix today, no trial of trach
   mask.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-28**] 02:41 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-1**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 90 (68 - 90) bpm
   BP: 124/61(76) {92/36(49) - 124/63(76)} mmHg
   RR: 31 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,962 mL
                                                                    255 mL
   PO:
                  TF:
                                                                    859 mL
                                                                     35 mL
   IVF:
                                                                    288 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,510 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,548 mL
                                                                    255 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 217 (217 - 467) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7.3 L/min
   Physical Examination
   Gen:NAD, alert and interactive
   HEENT: trach in place
   CV: irreg irreg, no murmurs
   Pulm: coarse throughout
   Ext: BLE edema, pneumoboots in place
   Labs / Radiology
   381 K/uL
   8.5 g/dL
   87 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.3 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   26.3 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-2-25**]  08:28 PM
                             [**2130-2-26**]  04:57 AM
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
   WBC
   11.6
   15.9
   13.1
   15.1
   Hct
   24.7
   23.7
   21.4
   26.3
   Plt
   692
   741
   414
   381
   Cr
   2.4
   2.7
   1.8
   1.2
   TCO2
   25
   27
   24
   25
   25
   31
   Glucose
   91
   223
   106
   112
   87
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.6
   mg/dL
   Imaging: No new
   Microbiology: Sputum cx [**2-26**]: GNR, ? 3 colonial morphologies
   Bcx [**2-27**] from HD line: NGTD
   Assessment and Plan
   Assessment and Plan: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p
   Pseudomonas VAP (ceftazidime) treated now with GNR in sputum on Ceftaz
   for repeat course for presumed pseudomonas VAP.
   #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance. HD performed yesterday with >3.5L
   removed.  Also improved w/ HR and BP control (ativan prn).  Now with 1+
   GNR in sputum from [**2-26**], rising WBC, restarted on Ceftaz yesterday for ?
   VAP recurrence given increased sputum and short course of antibiotics
   for prior pseudomonas.
   - Continue Ceftaz as likely recurrence of VAP, ceftaz-sensitive in the
   past.  Will give 15 day course of therapy given concern for recurrence
   - F/u sputum cx for speciation and sensitivies as may have resistant
   pathogen after 8 day abx therapy
   - Trach collar wean, has leak in tracheostomy, IP to evaluate and
   repair.  Will attempt trach mask today.
   - Continue OOB as tolerated daily to improve atelectasis
   #Anemia: Decreasing over last several days, down to 21 yesterday,
   increased to 26 with 1uprbcs.   ACD, guaiac pos stool, history of
   chronic GIB s/p EGD early in this admission just showing gastritis.
   Epoeitin at HD, transufse for hct >23.
   - Continue to monitor
   - Given some mild abdominal pain, will image abdomen if HCT continues
   to fall
   # Abdominal Pain: Unclear cause. PEG site c/d/i. No exudate. Nontender
   around site.
   - Patient has only had minimal BM for several days which may be
   contributing. No clear indication that PEG is source
   - Small guaiac pos stool yesterday prior to SSE being given, will
   continue to monitor, not grossly bloody
   - Pain control, bowel regimen
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Diltiazem 90mg QID, dig dc
d as ativan controlling
   rate
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - Review endo recs
   **HYPOTHYROID
   STABLE.  Levothyroxine 150mg PO daily. TFTs rechecked, will follow endo
   recs.  Will continue to check weekly.
   #ARF/CRI:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Review renal recs, will remove foley today to avoid UTI as patient
   with minimal urine (7 cc over the day yesterday).
   - Continue HD as per renal, will return to TRSat schedule now.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   # Mental status: Was more somnolent after initiation of ativan.
   Decreased dose to 0.5 mg with improvement in level of alertness.
   - Attempt QOD sessions with interpreter for orientation, patient unable
   to speak due to trach yesterday
   #LFT abnormalities
   -Elevated alk phos, LFTs trending down.  Reimage abdomen/gallbladder if
   clinical change.
   ?Occult malignancy:
   STABLE.  Per heme/onc, hold further w/u given nonspecific elevated LAP.
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate and lansoprazole
   VAP:  On ceftaz
   Comments: On ceftaz for VAP
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU for now, will start screen for rehab

2130-03-02 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2130-3-1**] 11:30 AM
   - Endo recs: hold regular insulin q6H when TF held
   - Renal recs: HD tomorrow, will try for 4kg as tolerated
   - Trach mask trial - tolerated well during the day- on trach mask
   through the night
   - IP to fix leak in trach in am, no need to be off TF
   - Screening for rehab (LTAC)
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-2-28**] 02:41 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2130-3-1**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-2**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 97 (73 - 97) bpm
   BP: 131/73(85) {92/42(55) - 131/73(85)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                    755 mL
                                                                    344 mL
   PO:
                  TF:
                                                                     95 mL
                                                                    224 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 318 (222 - 318) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   421 K/uL
   8.8 g/dL
   92 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   27.3 %
   16.0 K/uL
        [image002.jpg]
                             [**2130-2-26**]  04:57 AM
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
   WBC
   11.6
   15.9
   13.1
   15.1
   16.0
   Hct
   24.7
   23.7
   21.4
   26.3
   27.3
   Plt
   692
   741
   414
   381
   421
   Cr
   2.4
   2.7
   1.8
   1.2
   1.8
   TCO2
   27
   24
   25
   25
   31
   Glucose
   223
   106
   112
   87
   92
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 HYPOTHYROIDISM
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   pseudomonas
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan: 79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p
   Pseudomonas VAP (ceftazidime) treated now with GNR in sputum on Ceftaz
   for repeat course for presumed pseudomonas VAP.
   #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance. HD performed yesterday with >3.5L
   removed.  Also improved w/ HR and BP control (ativan prn).  Now with 1+
   GNR in sputum from [**2-26**], rising WBC, restarted on Ceftaz yesterday for ?
   VAP recurrence given increased sputum and short course of antibiotics
   for prior pseudomonas.
   - Continue Ceftaz as likely recurrence of VAP, ceftaz-sensitive in the
   past.  Will give 15 day course of therapy given concern for recurrence
   - F/u sputum cx for speciation and sensitivies as may have resistant
   pathogen after 8 day abx therapy
   - Trach collar wean, has leak in tracheostomy, IP to evaluate and
   repair.  Will attempt trach mask today.
   - Continue OOB as tolerated daily to improve atelectasis
   #Anemia: Decreasing over last several days, down to 21 yesterday,
   increased to 26 with 1uprbcs.   ACD, guaiac pos stool, history of
   chronic GIB s/p EGD early in this admission just showing gastritis.
   Epoeitin at HD, transufse for hct >23.
   - Continue to monitor
   - Given some mild abdominal pain, will image abdomen if HCT continues
   to fall
   # Abdominal Pain: Unclear cause. PEG site c/d/i. No exudate. Nontender
   around site.
   - Patient has only had minimal BM for several days which may be
   contributing. No clear indication that PEG is source
   - Small guaiac pos stool yesterday prior to SSE being given, will
   continue to monitor, not grossly bloody
   - Pain control, bowel regimen
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Diltiazem 90mg QID, dig dc
d as ativan controlling
   rate
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - Review endo recs
   **HYPOTHYROID
   STABLE.  Levothyroxine 150mg PO daily. TFTs rechecked, will follow endo
   recs.  Will continue to check weekly.
   #ARF/CRI:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Review renal recs, will remove foley today to avoid UTI as patient
   with minimal urine (7 cc over the day yesterday).
   - Continue HD as per renal, will return to TRSat schedule now.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   # Mental status: Was more somnolent after initiation of ativan.
   Decreased dose to 0.5 mg with improvement in level of alertness.
   - Attempt QOD sessions with interpreter for orientation, patient unable
   to speak due to trach yesterday
   #LFT abnormalities
   -Elevated alk phos, LFTs trending down.  Reimage abdomen/gallbladder if
   clinical change.
   ?Occult malignancy:
   STABLE.  Per heme/onc, hold further w/u given nonspecific elevated LAP.
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren Renal ([**11-25**]) - [**2130-3-1**] 09:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-03-03 07:03:00 Physician Resident Progress Note
Chief Complaint:
   79 yoF with ARDS [**12-24**] PNA, renal failure on HD, s/p pseudomonas VAP
   treated with ceftaz for 8 days, now with pseudomnas again in sputum and
   presumed VAP on ceftaz
   24 Hour Events:
   - did excellent on trach collar.  no change to trach today just in case
   she'd need vent.  plan to place trach without cuff possibly tomorrow
   - p. aureginosa sensitive to ceftaz.  will need full 2 week course
   -several episodes of hypoglycemia, 56, 60
   -Phos low, nutrition recs change to non-renal TF formulation.
   - HD took off 3.3L
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-2**] 08:22 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Atrovent
   Asa
   Levothyroxine
   Lansoprazole
   Tylenol
   Diltiazem
   Sucralfate
   Insulin
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: trached, non-verbal
   Flowsheet Data as of  [**2130-3-3**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 107 (78 - 107) bpm
   BP: 133/43(65) {91/40(54) - 139/91(101)} mmHg
   RR: 24 (20 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,413 mL
                                                                    230 mL
   PO:
                  TF:
                                                                    813 mL
                                                                    230 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,413 mL
                                                                -3.3L (HD)
                                                                 -1.8L Net
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98% 40% Fi02
   ABG: ///27/
   Physical Examination
   Gen:NAD, alert and interactive in bed.
   HEENT: trach in place, attempted trial of deflating cuff, pt not making
   efforts to vocalize.  No obvious cuff leak appreciated.
   CV: irreg irreg, no murmurs, regular rate
   Pulm: coarse throughout, rhoncorous, suctioned white secretions.
   Ext: BLE trace edema, pneumoboots in place
   Labs / Radiology
   424 K/uL
   8.6 g/dL
   115 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   16 mg/dL
   106 mEq/L
   144 mEq/L
   27.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
   WBC
   15.9
   13.1
   15.1
   16.0
   15.1
   Hct
   23.7
   21.4
   26.3
   27.3
   27.1
   Plt
   741
   414
   381
   421
   424
   Cr
   2.7
   1.8
   1.2
   1.8
   1.4
   TCO2
   27
   24
   25
   25
   31
   Glucose
   106
   112
   87
   92
   115
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.3
   mg/dL
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 HYPOTHYROIDISM
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   pseudomonas
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p Pseudomonas VAP
   (ceftazidime) treated now with preliminary pseudomonas in sputum on
   Ceftaz for repeat course fo pseudomonas VAP.
    #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance.
   - new sputum culture with P. aeurginosa-sensitive to ceftazidime.  Will
   need full 2 week course of antibiotics since she has failed the 8 day
   course, currently day [**4-5**]
   - 3.3L removed yesterday, now 1.8L negative
   - cont trach mask- patient tolerating well, decrease Fi02, attempt room
   air trial as is satting 100%
   - Change trach today
   - Continue OOB as tolerated daily to improve atelectasis
   -SPL c/s for PMV trial followed by S&S eval.
   #Anemia: ACD, guaiac pos stool, history of chronic GIB s/p EGD early in
   this admission just showing gastritis. Epoeitin at HD, transufse for
   hct >23.
   - stable today
   - Continue to monitor
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Diltiazem 90mg QID, dig dc
d as diltiazem
   controlling rate
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - several episodes hypoglycemia yesterday
   - Reviewed endo recs, decreased insulin dosing per their recs.
   #[**Last Name (un) **]/CKD:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - foley d/c
ed.  Minimal urine output.
   - Continue HD as per renal. Now on T/Th/Sat schedule, 3.3L removed
   yesterday.  Net negative.
   - Phos low, replace today.
   # Mental status: Was more somnolent after initiation of ativan.
   Decreased dose to 0.5 mg with improvement in level of alertness.
   - Attempt QOD sessions with interpreter for orientation. Son at bedside
   today during rounds, assisting with transplation.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   # HYPOTHYROID
   STABLE.  Levothyroxine 150mg PO daily.  Appreciate endo recs
   #LFT abnormalities. Resolved
   # Abdominal Pain: Resolved
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:  Change from nutren renal to nutren 2.0 per nutrition recs
   for low phos.
   Glycemic Control:  ISS as above
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU for now, contact case management, screen for rehab and
   prepare for possible call out once trach replaced.

2130-03-03 09:45:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo s/p pseudomonas pna, ARDS, now with recurrent pseudomonas VAP.
   24 Hour Events:
   Sputum cx showed sensitive to current abx, ceftazidime
   Approx 1.5 L neg incorporating 3.4L neg with dialysis yesterday.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-2**] 08:22 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per Dr[**Name (NI) 2079**] note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-3**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 93 (78 - 107) bpm
   BP: 130/59(77) {91/40(54) - 134/91(101)} mmHg
   RR: 38 (20 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,413 mL
                                                                    312 mL
   PO:
                  TF:
                                                                    813 mL
                                                                    312 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,413 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese, appears comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach tube. Deflated cough but no phonation.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   424 K/uL
   115 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   16 mg/dL
   106 mEq/L
   144 mEq/L
   27.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
   WBC
   15.9
   13.1
   15.1
   16.0
   15.1
   Hct
   23.7
   21.4
   26.3
   27.3
   27.1
   Plt
   741
   414
   381
   421
   424
   Cr
   2.7
   1.8
   1.2
   1.8
   1.4
   TCO2
   27
   24
   25
   25
   31
   Glucose
   106
   112
   87
   92
   115
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.3
   mg/dL
   Microbiology: pseud sensitivities [**Last Name (un) **] to ceftazidime
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 HYPOTHYROIDISM
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   pseudomonas
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Ms. [**Known lastname **] was seen and examined with the ICU team, and I was physically
   present for key portions of the services rendered.  The ICU team
s note
   reflects my input.  No sig changes to PHM, SH, FH, ROS since admit
   note, which I reviewed. I would add/emphasize:
   Trach collar > 48 hrs
          Pseudomonas VAP, 3 species of pseudomonas, ceftaz sensitive.
   Day [**4-5**].
          Multifactorial resp failure with pseud PNA, recent  ARDS,
   COPD, CAD, pleural effusions, anxiety, deconditioning, obesity.
   Tolerating trach mask with no resp discomfort. Change to uncuffed
   metal.
          Anemia: chronic, hct stable. Has h/o chronic GIB, never
   diagnosed source, on epo and regular PRBC transfusions. On sucralfate
   and PPI.
          Rate controlled on dilt and ativan.
          Volume status: markedly pos overall. Continue increasing
   volume off with dialysis.
          OOB to chair as tolerates. Physical therapy.
          Still requiring frequent trach suctioning for thick
   white/tan secretions.
          Speech/swallow eval, therapy.
   ICU Care
   Nutrition:
   Nutren Renal ([**11-25**]) - [**2130-3-3**] 04:05 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:

2130-03-04 07:03:00 Physician Resident Progress Note
Chief Complaint: 79 yoF with ARDS [**12-24**] PNA, renal failure on HD, s/p
   pseudomonas VAP treated with ceftaz for 8 days, now with pseudomnas
   again in sputum and presumed VAP on ceftaz
   24 Hour Events:
   -no PMV as still some secretions
   -worked with PT, rec rehab
   -pt OOB to chair
   -maintained on trach mask.
   -[**Last Name (un) 276**] rec'd decreasing SS, pt still hypoglycemic during day to 56,
   standing regular insulin held
   -episode of hypoglycemia to 30s overnight
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-2**] 08:22 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-4**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 80 (70 - 102) bpm
   BP: 121/57(74) {97/42(59) - 146/82(101)} mmHg
   RR: 34 (17 - 44) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,171 mL
                                                                    245 mL
   PO:
                  TF:
                                                                    821 mL
                                                                    245 mL
   IVF:
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                         0
                                                                         0
   NG:
   Stool:
                                                                     10 mL
   Drains:
   Balance:
                                                                  1,161 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen:NAD, alert and interactive in bed.
   HEENT: trach in place
   CV: irreg irreg, no murmurs, regular rate
   Pulm: coarse throughout, rhoncorous, suctioned white secretions,
   end-expiratory wheezing.
   Ext: BLE trace edema, pneumoboots in place
   Labs / Radiology
   424 K/uL
   8.6 g/dL
   115 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   16 mg/dL
   106 mEq/L
   144 mEq/L
   27.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
   WBC
   15.9
   13.1
   15.1
   16.0
   15.1
   Hct
   23.7
   21.4
   26.3
   27.3
   27.1
   Plt
   741
   414
   381
   421
   424
   Cr
   2.7
   1.8
   1.2
   1.8
   1.4
   TCO2
   27
   24
   25
   25
   31
   Glucose
   106
   112
   87
   92
   115
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.3
   mg/dL
   Imaging: No new radiology
   Microbiology: Bcx [**2-27**]: NGTD
   Sputum [**2-26**]: Ceftaz sensitive pseudomonas (3 morphologies)
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p Pseudomonas VAP
   (ceftazidime) treated now with preliminary pseudomonas in sputum on
   Ceftaz for repeat course fo pseudomonas VAP (2 weeks).
    #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance.
   - New sputum culture with P. aeurginosa-sensitive to ceftazidime.  Will
   need full 2 week course of antibiotics since she has failed the 8 day
   course, currently day [**5-6**]
   - HD today for volume overload, will ask renal to remove as much as
   possible, concentrate intake as well
   - Cont trach mask- patient tolerating well, decrease Fi02, attempt room
   air trial as is satting 100%
   - PMV trial today followed by S&S eval if tolerated.
   - Continue OOB as tolerated daily to improve atelectasis
   #Anemia: ACD, guaiac pos stool, history of chronic GIB s/p EGD early in
   this admission just showing gastritis. Epoeitin at HD, transufse for
   hct >23.
   - stable today
   - Continue to monitor
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Controlled on Diltiazem 90mg QID and ativan
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - several episodes hypoglycemia yesterday
   - Continue to follow [**Last Name (un) 276**] recs
   **Hypothyroid: Stable, continue levothyroxine 150mcg daily.
   #[**Last Name (un) **]/CKD:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Foley d/c
ed.  Minimal urine output.
   - Continue HD as per renal. Now on T/Th/Sat schedule, goal as much UF
   as possible given volume overload on non-HD days.
   # Mental status: Improving.
   - Attempt QOD sessions with interpreter for orientation.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   #LFT abnormalities. Resolved
   # Abdominal Pain: Resolved
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-3**] 06:54 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, ceftaz
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU, screening for LTAC

2130-03-04 10:39:00 Physician Attending Progress Note
Chief Complaint: pseudomonas VAP
   24 Hour Events:
   Significant secretions, did not get PMV trial
   OOB to chair  and worked with PT
   tolerated trach mask
   [**Last Name (un) 276**] made reccs on sliding scale
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-2**] 08:22 PM
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, PPI, epogen, tylenol, Dilt, SSRI, chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, anxiety, increased dyspnea
   Flowsheet Data as of  [**2130-3-4**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 94 (70 - 102) bpm
   BP: 121/49(66) {97/42(59) - 165/82(94)} mmHg
   RR: 37 (17 - 44) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.4 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,171 mL
                                                                    368 mL
   PO:
                  TF:
                                                                    821 mL
                                                                    368 mL
   IVF:
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                     10 mL
   Drains:
   Balance:
                                                                  1,161 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: lying in bed, alert, intermittently responsive to commands
   HEENT; trach CDI
   CV: irreg irreg NL S1/S2
   Chest: fair air movement with end exo wheezes diffusely
   Abd: g tube, distended +BS
   Ext: pneumoboots in place
   Neuro: awake, responsive to vpice, tryin to phonate
   Labs / Radiology
   8.6 g/dL
   424 K/uL
   115 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   16 mg/dL
   106 mEq/L
   144 mEq/L
   27.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-2-27**]  03:46 AM
                             [**2130-2-27**]  04:18 AM
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
   WBC
   15.9
   13.1
   15.1
   16.0
   15.1
   Hct
   23.7
   21.4
   26.3
   27.3
   27.1
   Plt
   741
   414
   381
   421
   424
   Cr
   2.7
   1.8
   1.2
   1.8
   1.4
   TCO2
   27
   24
   25
   25
   31
   Glucose
   106
   112
   87
   92
   115
   Other labs: PT / PTT / INR:13.0/24.8/1.1, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.3
   mg/dL
   Microbiology: Blood Cx [**2-27**] NGTD
   Sputum from [**2-26**] 3 morphologies of Pseudomonas
   Assessment and Plan
   Ms. [**Known lastname **] was seen and examined with the ICU team, and I was physically
   present for key portions of the services rendered.  The ICU team
s note
   reflects my input.  No sig changes to PHM, SH, FH, ROS since admit
   note, which I reviewed. I would add/emphasize:
   Trach collar ongoing
                Resp Distress:
          Multifactorial resp failure with pseud PNA, recent  ARDS,
   COPD, CAD, pleural effusions, anxiety, deconditioning, obesity.
   Tolerating trach but this AM is slightly more tachypnic which made be
   due to volume overload and she is to be dialyzed this AM
          Pseudomonas VAP, 3 species of pseudomonas, ceftaz sensitive.
   Day [**4-5**]. Follow up sensi
          Still requiring frequent trach suctioning for thick
   white/yellow secretions.
          Anemia: chronic, hct stable. Has h/o chronic GIB, never
   diagnosed source, on epo and regular PRBC transfusions. On sucralfate
   and PPI.
          Afib: Rate controlled on dilt and ativan.
          Volume status: markedly pos overall. Continue increasing
   volume off with dialysis. Will discuss with Renal team this AM to try
   to push negative.
          CRF: reg dialysis Tu/TH/Sa
          Speech/swallow eval, therapy after trach is downsized
          OOB to chair as tolerates. Physical therapy.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-4**] 08:30 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: sucralfate and PPI
   VAP: HOB, mouth care
   Communication:  Comments: sons
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35

2130-03-05 06:22:00 Physician Resident Progress Note
Chief Complaint: 79 yoF with ARDS [**12-24**] PNA, renal failure on HD, s/p
   pseudomonas VAP treated with ceftaz for 8 days, now with pseudomnas
   again in sputum and presumed VAP on ceftaz
   24 Hour Events:
   - Son, [**Name (NI) **], updated
   - HD yesterday, 2.5L only removed as BP dropped to 80s, breathing
   comfortably
   - Unable to get PMV trial bc need S&S to fit her on Monday
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-4**] 07:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-5**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 86 (76 - 97) bpm
   BP: 146/27(60) {100/27(54) - 165/84(94)} mmHg
   RR: 48 (23 - 48) insp/min
   SpO2: 93%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 79.1 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,152 mL
                                                                    314 mL
   PO:
                  TF:
                                                                    842 mL
                                                                    214 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,348 mL
                                                                    314 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach collar
   Cardiovascular: (S1: Normal), (S2: Normal), Irreg irreg
   Respiratory / Chest: (Expansion: Symmetric), coarse, rhonchorus BS
   throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Follows simple commands, Responds to: Verbal stimuli
   Labs / Radiology
   383 K/uL
   8.8 g/dL
   78 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   104 mEq/L
   143 mEq/L
   29.8 %
   18.6 K/uL
        [image002.jpg]
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
                             [**2130-3-4**]  11:22 AM
                             [**2130-3-5**]  02:33 AM
   WBC
   13.1
   15.1
   16.0
   15.1
   15.7
   18.6
   Hct
   21.4
   26.3
   27.3
   27.1
   27.6
   29.8
   Plt
   [**Telephone/Fax (3) 2121**]
   Cr
   1.8
   1.2
   1.8
   1.4
   2.1
   1.5
   TCO2
   24
   25
   25
   31
   Glucose
   112
   87
   92
   115
   71
   78
   Other labs: PT / PTT / INR:13.4/45.9/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-P, Fibrinogen:348 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.0 mg/dL
   Imaging: No new radiology
   Microbiology: [**2-27**] Bcx: NGTD
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p Pseudomonas VAP
   (ceftazidime) treated now with preliminary pseudomonas in sputum on
   Ceftaz for repeat course fo pseudomonas VAP (2 weeks).
   #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance.
   - New sputum culture with P. aeurginosa-sensitive to ceftazidime.  Will
   need full 2 week course of antibiotics since she has failed the 8 day
   course, currently day [**6-5**]
   - HD today for volume overload yesterday, goal was 3-4L removal;
   patient only able to tolerated 2.5 L secondary to hypotension.
   - Cont trach mask- patient tolerating well, decrease Fi02, wean O2 as
   tolerated
   - Plan to downsize trach today, will attempt PMV trial on Monday once
   patient fitted by S&S
   - Continue OOB as tolerated daily to improve atelectasis
   # Leukocytosis: Increased WBC today. Patient is still clincially
   improving, afebrile.  Has had increased WBC throughout hospitalization.
   Has been ? of underlying malignancy given increased and decreased WBC,
   though per heme, no need to agressively pursue at this point.
   - Continuing ceftaz for 14 day course as above
   - Added on Diff this morning
   - Will dc around-the-clock tylenol to follow fever curve to determine
   if this is new infectious process
   - Cx if spikes
   - Will check CXR today for new infiltrate or source as unclear etiology
   for increase in WBC
   #Anemia: ACD, guaiac pos stool, history of chronic GIB s/p EGD early in
   this admission just showing gastritis. Epoeitin at HD, transufse for
   hct >23.
   - Stable, increased today
   - Continue to monitor
   # Hypophosphatemia: Has been low over the last two days.  Likely
   partially due to HD.
   - Repleted with neutraphos 2 packets [**Hospital1 **] today
   - Will recheck later today for goal >1.5
   - Continue to follow with renal
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Controlled on Diltiazem 90mg QID and ativan
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - several episodes hypoglycemia, ISS decreased per recs, still with
   variable FSBG
   - Continue to follow [**Last Name (un) 276**] recs
   **Hypothyroid: Stable, continue levothyroxine 150mcg daily.
   #[**Last Name (un) **]/CKD:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Foley d/c
ed.  Minimal urine output.
   - Continue HD as per renal. Now on T/Th/Sat schedule, goal as much UF
   as possible given volume overload on non-HD days.
   # Mental status: Improving.
   - Attempt QOD sessions with interpreter for orientation.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   #LFT abnormalities. Resolved
   # Abdominal Pain: Resolved
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-4**] 10:09 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate and ppi
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Screening for LTAC

2130-03-05 09:32:00 Physician Attending Progress Note
Chief Complaint: resp failure, VAP pseudomonas
   24 Hour Events:
   HD with 2.5 L off yesterday, transient hypotension so did not push
   further
   Improved resp status after HD
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-4**] 07:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: dyspnea, anxiety, transient hypotension
   Flowsheet Data as of  [**2130-3-5**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 85 (76 - 97) bpm
   BP: 123/51(69) {100/27(54) - 166/84(93)} mmHg
   RR: 27 (23 - 48) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.1 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,152 mL
                                                                    458 mL
   PO:
                  TF:
                                                                    842 mL
                                                                    328 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,348 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Gen: lying in bed, alert, intermittently responsive to commands
   HEENT; trach CDI
   CV: irreg irreg NL S1/S2
   Chest: fair air movement with end exp. wheezes diffusely
   Abd: g tube, distended +BS
   Ext: pneumoboots in place
   Neuro: awake, responsive to voice, trying to phonate
   Labs / Radiology
   8.8 g/dL
   383 K/uL
   78 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   104 mEq/L
   143 mEq/L
   29.8 %
   18.6 K/uL
        [image002.jpg]
                             [**2130-2-27**]  05:32 AM
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
                             [**2130-3-4**]  11:22 AM
                             [**2130-3-5**]  02:33 AM
   WBC
   13.1
   15.1
   16.0
   15.1
   15.7
   18.6
   Hct
   21.4
   26.3
   27.3
   27.1
   27.6
   29.8
   Plt
   [**Telephone/Fax (2) 2121**]
   Cr
   1.8
   1.2
   1.8
   1.4
   2.1
   1.5
   TCO2
   24
   25
   25
   31
   Glucose
   112
   87
   92
   115
   71
   78
   Other labs: PT / PTT / INR:13.4/45.9/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:348 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:1.0
   mg/dL
   Assessment and Plan
                Resp Distress:
          Multifactorial resp failure with pseud VAP, recent  ARDS,
   COPD, CAD, pleural effusions, anxiety, deconditioning, obesity.
   Continues to tolerate trach mask with some improvement after HD
          Pseudomonas VAP, 3 species of pseudomonas, ceftaz sensitive.
   Day [**6-5**].
          Anemia: chronic, hct stable. Has h/o chronic GIB, never
   diagnosed source, on epo and regular PRBC transfusions. On sucralfate
   and PPI.
          Hypophosphatemia: ? etiology- overdialyzed, need to replete
   aggressively  today, recheck tonight and make sure      above 1.5
          Afib: Rate controlled on dilt
          Volume status: pos overall. Continue increasing volume off
   with dialysis. Maybe HD tomm to stay ahead.
          Speech/swallow eval for PMV, therapy after trach is
   downsized
 she still has 8.0 Portex needs bedside trach change.
          OOB to chair as tolerates. Physical therapy.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-4**] 10:09 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: on Rx, chlorhex, HOB
   Comments:
   Communication: son
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent:  35

2130-03-06 06:40:00 Physician Resident Progress Note
Chief Complaint: 79 yoF with ARDS [**12-24**] PNA, renal failure on HD, s/p
   pseudomonas VAP treated with ceftaz for 8 days, now with pseudomnas
   again in sputum and presumed VAP on ceftaz
   24 Hour Events:
   - Family at bedside most of the day, have been updated
   - Will need trach changed today
   - Unable to get PMV trial bc apparently need S&S to fit her, once trach
   changed, will plan for fitting today
   - If staff available, per renal, will attempt UF today
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-4**] 07:15 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-3-5**] 08:00 AM
   Carafate (Sucralfate) - [**2130-3-5**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-6**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96.1
   HR: 98 (72 - 98) bpm
   BP: 121/73(85) {86/37(50) - 166/76(90)} mmHg
   RR: 31 (17 - 40) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.1 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,490 mL
                                                                    307 mL
   PO:
                  TF:
                                                                    840 mL
                                                                    227 mL
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender
   Labs / Radiology
   367 K/uL
   8.8 g/dL
   107 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.3 mEq/L
   36 mg/dL
   101 mEq/L
   142 mEq/L
   28.6 %
   17.6 K/uL
        [image002.jpg]
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
                             [**2130-3-4**]  11:22 AM
                             [**2130-3-5**]  02:33 AM
                             [**2130-3-6**]  03:52 AM
   WBC
   13.1
   15.1
   16.0
   15.1
   15.7
   18.6
   17.6
   Hct
   21.4
   26.3
   27.3
   27.1
   27.6
   29.8
   28.6
   Plt
   [**Telephone/Fax (3) 2121**]
   367
   Cr
   1.8
   1.2
   1.8
   1.4
   2.1
   1.5
   2.2
   TCO2
   25
   25
   31
   Glucose
   112
   87
   92
   115
   71
   78
   107
   Other labs: PT / PTT / INR:13.4/45.9/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:70.0 %, Band:3.0 %,
   Lymph:11.0 %, Mono:11.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR [**3-5**]: Bilateral effusions with probable CHF and bibasilar
   collapse
   and/or consolidation. Differential includes other infectious and
   inflammatory
   processes but these are considered less likely. Please correlate
   clinically
   Microbiology: No new micro
   Assessment and Plan
   79F h/o ARDS [**12-24**] PNA, renal failure on HD, s/p Pseudomonas VAP
   (ceftazidime) treated now with preliminary pseudomonas in sputum on
   Ceftaz for repeat course fo pseudomonas VAP (2 weeks).
   #Respiratory failure:
   Originally [**12-24**] ARDS [**12-24**] PNA + volume overload, s/p Pseudomonas VAP
   treated w/ ceftazadime with 8 day course. Resp failure likely
   exacerbated by fluid balance.
   - New sputum culture with P. aeurginosa-sensitive to ceftazidime.  Will
   need full 2 week course of antibiotics since she has failed the 8 day
   course, currently day [**6-5**]
   - HD today for volume overload yesterday, goal was 3-4L removal;
   patient only able to tolerated 2.5 L secondary to hypotension.
   - Cont trach mask- patient tolerating well, decrease Fi02, wean O2 as
   tolerated
   - Plan to downsize trach today, will attempt PMV trial on Monday once
   patient fitted by S&S
   - Continue OOB as tolerated daily to improve atelectasis
   # Leukocytosis: Increased WBC today. Patient is still clincially
   improving, afebrile.  Has had increased WBC throughout hospitalization.
   Has been ? of underlying malignancy given increased and decreased WBC,
   though per heme, no need to agressively pursue at this point.
   - Continuing ceftaz for 14 day course as above
   - Added on Diff this morning
   - Will dc around-the-clock tylenol to follow fever curve to determine
   if this is new infectious process
   - Cx if spikes
   - Will check CXR today for new infiltrate or source as unclear etiology
   for increase in WBC
   #Anemia: ACD, guaiac pos stool, history of chronic GIB s/p EGD early in
   this admission just showing gastritis. Epoeitin at HD, transufse for
   hct >23.
   - Stable, increased today
   - Continue to monitor
   # Hypophosphatemia: Has been low over the last two days.  Likely
   partially due to HD.
   - Repleted with neutraphos 2 packets [**Hospital1 **] today
   - Will recheck later today for goal >1.5
   - Continue to follow with renal
   #CV:  History of CAD s/p stent [**2127**].  Also with afib with RVR.
   - Rhythm: Afib/RVR. Controlled on Diltiazem 90mg QID and ativan
   - Risk: ASA 81mg
   #ENDOCRINE
   **Glucose control: On ISS per endocrine
   - several episodes hypoglycemia, ISS decreased per recs, still with
   variable FSBG
   - Continue to follow [**Last Name (un) 276**] recs
   **Hypothyroid: Stable, continue levothyroxine 150mcg daily.
   #[**Last Name (un) **]/CKD:
   STABLE.  Etiology [**12-24**] ATN v. drug toxicity.  On HD. Has been
   incontinent of small amount of urine (was anuric prior).
   - Tunneled HD catheter in place
   - Foley d/c
ed.  Minimal urine output.
   - Continue HD as per renal. Now on T/Th/Sat schedule, goal as much UF
   as possible given volume overload on non-HD days.
   # Mental status: Improving.
   - Attempt QOD sessions with interpreter for orientation.
   # Hypernatremia: Resolved. - Hypernatremia resolved, decreased free
   water to 100cc q6H
   #LFT abnormalities. Resolved
   # Abdominal Pain: Resolved
   #Wounds: STABLE.  Continue wound care recs.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-6**] 01:34 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: Followed by
   [**Last Name (un) 276**]
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI and sucralfate
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: screen for LTAC

2130-03-06 10:33:00 Physician Attending Progress Note
Chief Complaint: VAP pna, resp failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Secretions decreased. Now suctioning q 4-5 hours.
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-4**] 07:15 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-3-5**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss, Feeling
   well. Thirsty.
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Flowsheet Data as of  [**2130-3-6**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.4
   HR: 83 (72 - 98) bpm
   BP: 118/46(65) {86/37(50) - 142/76(85)} mmHg
   RR: 28 (19 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.1 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,490 mL
                                                                    570 mL
   PO:
                  TF:
                                                                    840 mL
                                                                    365 mL
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Continued diarrhea
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash: , Stage I buttock ulcers
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Interactive with
   son
   [**Name (NI) 503**] / Radiology
   8.8 g/dL
   367 K/uL
   107 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.3 mEq/L
   36 mg/dL
   101 mEq/L
   142 mEq/L
   28.6 %
   17.6 K/uL
        [image002.jpg]
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
                             [**2130-3-4**]  11:22 AM
                             [**2130-3-5**]  02:33 AM
                             [**2130-3-6**]  03:52 AM
   WBC
   13.1
   15.1
   16.0
   15.1
   15.7
   18.6
   17.6
   Hct
   21.4
   26.3
   27.3
   27.1
   27.6
   29.8
   28.6
   Plt
   [**Telephone/Fax (3) 2121**]
   367
   Cr
   1.8
   1.2
   1.8
   1.4
   2.1
   1.5
   2.2
   TCO2
   25
   25
   31
   Glucose
   112
   87
   92
   115
   71
   78
   107
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:13.4/45.9/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:70.0 %, Band:3.0 %,
   Lymph:11.0 %, Mono:11.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Resp Distress:
          Multifactorial resp failure with pseud VAP, recent  ARDS,
   COPD, CAD, pleural effusions, anxiety, deconditioning, obesity.
   Continues to tolerate trach mask with some improvement after HD
          Pseudomonas VAP, 3 species of pseudomonas, ceftaz sensitive.
   Day [**6-5**].
          Trach change.
          Secretions minimal- no need for continued ICU care from
   respiratory perspective.
          Speech/swallow eval for PMV, therapy after trach is
   downsized
 she still has 8.0 Portex needs bedside trach change
          Anemia: chronic, hct stable. Has h/o chronic GIB, never
   diagnosed source, on epo and regular PRBC transfusions. On sucralfate
   and PPI.
          Hypophosphatemia: improved.
          Afib: Rate controlled on dilt
          Volume status: pos overall. Continue increasing volume off
   with dialysis. Maybe HD [**Doctor First Name **] to stay ahead.
   .
          OOB to chair as tolerates. Physical therapy.
   Other issues per Dr [**First Name (STitle) 1984**]
s note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-6**] 01:34 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent:

2130-03-06 13:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Heparin Agents
   Unknown;
   Succinylcholine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-3-4**] 07:15 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2130-3-5**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-6**] 01:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 86 (72 - 98) bpm
   BP: 116/52(69) {86/38(50) - 142/76(85)} mmHg
   RR: 26 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.1 kg (admission): 113.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,490 mL
                                                                    869 mL
   PO:
                  120 mL
   TF:
                                                                    840 mL
                                                                    484 mL
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   367 K/uL
   8.8 g/dL
   107 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.3 mEq/L
   36 mg/dL
   101 mEq/L
   142 mEq/L
   28.6 %
   17.6 K/uL
        [image002.jpg]
                             [**2130-2-27**]  05:55 AM
                             [**2130-2-27**]  08:38 AM
                             [**2130-2-28**]  03:32 AM
                             [**2130-2-28**]  03:56 AM
                             [**2130-3-1**]  12:30 AM
                             [**2130-3-2**]  04:50 AM
                             [**2130-3-3**]  04:11 AM
                             [**2130-3-4**]  11:22 AM
                             [**2130-3-5**]  02:33 AM
                             [**2130-3-6**]  03:52 AM
   WBC
   13.1
   15.1
   16.0
   15.1
   15.7
   18.6
   17.6
   Hct
   21.4
   26.3
   27.3
   27.1
   27.6
   29.8
   28.6
   Plt
   [**Telephone/Fax (2) 2121**]
   367
   Cr
   1.8
   1.2
   1.8
   1.4
   2.1
   1.5
   2.2
   TCO2
   25
   25
   31
   Glucose
   112
   87
   92
   115
   71
   78
   107
   Other labs: PT / PTT / INR:13.4/45.9/1.2, CK / CKMB /
   Troponin-T:21/4/0.30, ALT / AST:22/31, Alk Phos / T Bili:540/0.3,
   Amylase / Lipase:20/9, Differential-Neuts:70.0 %, Band:3.0 %,
   Lymph:11.0 %, Mono:11.0 %, Eos:0.0 %, Fibrinogen:348 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:512 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 HYPOTHYROIDISM
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   pseudomonas
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-3-6**] 01:34 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-1-30**] 05:00 PM
   Dialysis Catheter - [**2130-2-20**] 03:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: